2156-12-23 05:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2156-12-22**] 09:30 PM
   pt c/o of chest pain [**8-19**]
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-23**] 05:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.6
C (97.9
   HR: 89 (86 - 100) bpm
   BP: 98/56(62) {83/43(59) - 117/69(76)} mmHg
   RR: 25 (19 - 35) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
             Total In:
                                                                    523 mL
                                                                    177 mL
   PO:
                                                                    480 mL
                                                                    100 mL
   TF:
   IVF:
                                                                     43 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    300 mL
   Urine:
   300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    523 mL
                                                                   -123 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 92%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Anxious
   Eyes / Conjunctiva: PERRL, sclera clear.  EOMI.  no pain with EOM.
   vision 20/50 bilaterally
   Head, Ears, Nose, Throat: NG tube, Mild erythema over left maxilla and
   bruising over left superior orbit
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic), RRR, nl. S1S2, no
   M/R/G noted. limited by body habitus
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : , No(t)
   Diminished: ), Lungs CTA bilaterally- no wheezing limited by habitus.
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, Rash: Mild erythema over left maxilla and bruising over
   left superior orbit, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, time, self, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   402 K/uL
   8.2 g/dL
   104 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.2 mEq/L
   8 mg/dL
   103 mEq/L
   141 mEq/L
   26.2 %
   5.7 K/uL
        [image002.jpg]
                            [**2156-12-23**]  12:25 AM
   WBC
   5.7
   Hct
   26.2
   Plt
   402
   Cr
   0.6
   TropT
   <0.01
   Glucose
   104
   Other labs: PT / PTT / INR:16.7/68.7/1.5, CK / CKMB /
   Troponin-T:31//<0.01, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Assessment and Plan: 28 year-old morbidly obese female with hx asthma,
   h/o of DVT/PE, recent admission to ICU for hypercarbic resp failure,
   here after leaving AMA from [**Hospital1 **] with her usual CP, recent fevers,
   and recent documentation of bacteremia.
   .
   # CP: per patient, this is similar to previous.  Her EKG shows some
   anterior changes that are nonspecific.  Given her consistent
   presentation with previous CP, doubt myocardial ischemia/injury.
   However, she has risk factors such as very high BMI, so will r/o x 3.
   Her first set was negative.
   - ROMI
   - tele
   .
   # positive blood cultures: documentation from Shattock shows staph
   simulans and enterococcus.  The enterococcus is resisant to vanc.  The
   two bacteria together are only both sensitive to linezolid and
   rifampin.  As she has no documented fevers, and she currently is
   without fevers, these cultures may not be real.  However, treatment is
   reasonable until we have data to the contrary and will cover with
   linezolid until we have negative cultures.
   - linezolid
   - blood cultures
   - ECHO for endocarditis
   - urine cultures
   - repeat CXR
   .
   # facial erythema: unclear if this is cellulitis vs bruise.  She denies
   trauma to that area of her face.  She does however have a history of
   cellulitis, therefore will treat for now.
   - Linezolid as above.
   .
   # hx PE: INR subtherapeutic.  Coumadin was being held for possible
   insertion of PICC at Shattock.
   - restart coumadin at 2mg qday
   - bridge with heparin
   .
   # sleep apnea: has history of somnolence from hypercarbia and
   subsequent intubation when she does not use her BiPAP.
   - encourage BiPAP
   .
   # COPD/asthma:
   - nebs/inhalers
   .
   # Anemia: baseline mid to upper 20s.  follow.
   .
   # Psych: history of axis I and axis II disorders
   - cont citalopram, depakote, and abilify
   - psych involvement
   .
   # Finger dislocation: splint in place.
   -outpatient follow up
   -tylenol/ibuprofen PRN pain
   .
   # Prophylaxis: PPI, heparin/coumadin, bowel regimen
   .
   # FEN: p.o. diet as tolerated
   .
   # Access: PIVs, consider PICC
   .
   # Code Status: Full
   .
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-12-22**] 08:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-12-23 09:05:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2156-12-22**] 09:30 PM
   pt c/o of chest pain [**8-19**]
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Eyes: Supra-orbital erythema
   Ear, Nose, Throat: Facial Pain
   Cardiovascular: Chest pain
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain
   Heme / Lymph: Anemia
   Psychiatric / Sleep: Daytime somnolence
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2156-12-23**] 08:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.6
C (97.9
   HR: 93 (86 - 100) bpm
   BP: 100/28(46) {83/28(46) - 117/69(76)} mmHg
   RR: 25 (19 - 35) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
             Total In:
                                                                    523 mL
                                                                    217 mL
   PO:
                                                                    480 mL
                                                                    100 mL
   TF:
   IVF:
                                                                     43 mL
                                                                    117 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    300 mL
   Urine:
   300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    523 mL
                                                                    -83 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 89%
   ABG: ///29/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, Vision 20/50
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   402 K/uL
   104 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.2 mEq/L
   8 mg/dL
   103 mEq/L
   141 mEq/L
   26.2 %
   5.7 K/uL
         [image002.jpg]
                            [**2156-12-23**]  12:25 AM
   WBC
   5.7
   Hct
   26.2
   Plt
   402
   Cr
   0.6
   TropT
   <0.01
   Glucose
   104
   Other labs: PT / PTT / INR:16.7/68.7/1.5, CK / CKMB /
   Troponin-T:31//<0.01, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR-Much improved lung volumes on repeat film and no evidence
   of signfiicant pulmonary infiltrate.
   ECG: Here--no meaningful change from previous ECG--she has T-wave
   inverstion in V3 which is somewhat different.
   Assessment and Plan
   28 yo female with obesity and hypoventilation with recent admission
   with chest pain with known history of chest pain and negative
   evaluaition but with hospital course complicated by hypercapnic
   respiratory failure and transient intubation x2.  She was transferred
   to acute care at [**Hospital1 **] last week ([**12-16**]).  There she evolved fevers
   and had staph species and enterococcus in blood in the setting of PICC
   catheter and was treated with Vanco-->Daptomycin but patient refused
   antibiotics at that time.  Patient then left AMA and was sent to ICU
   after patient arrived to [**Hospital1 19**] [**Hospital Ward Name **] via. Taxi.
   Respiratory Failure--Acute and Chronic failure with obesity
   hypoventilation and diagnosis of reactive airways disease
   -BIPAP worn O/N without exception
   -Treated wtih BIPAP 8/8 which has been well tolerated and should
   continue as settings during sleep and PRN during the day
   -OOB to chair
sleep in partial upright position.
   -No complaints of dyspnea
   -Bronchodilators
   Bacteremia--Based on known sensitivities patient treated with
   -Linezolid
   -Follow up cultures sent and will review for any positive cultures
   -ECHO this morning which will be limited in quality but will continue
   with antibiotics for 2 week course at minimum
   Cellulitis
Exam with limited findings of cellulitis this morning on
   detailed exam of facial skin.  Will continue to monitor
   Chest Pain-
   -Patient with no evidence of recurrent chest pain overnight
   -ECG reassuring
   -CK's negative
   -Given patient with pain similar in character to that known previous
   patient likely has stable atypical chest pain.
   DVT/PE-
   -IV Heparin
   -Coumadin to restart with long term IV access assured
 OBSTRUCTIVE SLEEP APNEA (OSA)
 .H/O PULMONARY EMBOLISM (PE), ACUTE
 .H/O BACTEREMIA
 CHEST PAIN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-12-22**] 08:50 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 minutes

2156-12-24 05:51:00 Physician Resident Progress Note
Chief Complaint: chest pain, SOB
   24 Hour Events:
   -Positive blood culture for GPCs
   - [** 3608**] approved by ID.  Some concern for serotonin syndrome per
   psych, but citalopram being weaned.
   -Goal O2 88-90% met, patient tolerated BiPap
   -Psych consult- Geodon IM prn for agitation, taper celexa off, stop
   Abilify, pursuing emergency guardianship
   -Ruled out x3 for MI
   -Urine/serum tox screen negative
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,650 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Right hand hurting patient (splinted hand)
   Flowsheet Data as of  [**2156-12-24**] 05:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.8
C (98.3
   HR: 90 (85 - 102) bpm
   BP: 87/34(46) {87/12(41) - 129/82(87)} mmHg
   RR: 18 (15 - 41) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
             Total In:
                                                                  1,694 mL
                                                                     79 mL
   PO:
                                                                  1,380 mL
             TF:
   IVF:
                                                                    314 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                  1,560 mL
                                                                    850 mL
   Urine:
                                                                  1,560 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    134 mL
                                                                   -771 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 94%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, No(t)
   Anxious
   Eyes / Conjunctiva: PERRL, sclera clear.  EOMI.  no pain with EOM.
   vision 20/50 bilaterally
   Head, Ears, Nose, Throat: NCAT, NC in place
   Cardiovascular: limited by body habitus RRR, no murmur appreciated
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : , No(t)
   Diminished: ), Lungs CTA bilaterally- no wheezing limited by habitus.
   Peripheral Vascular: all extremities warm, well perfused
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: No Cyanosis, No Clubbing, scars on b/l arms. Cast on R
   hand. Index finger and thumb visible, both w/good capillary refill,
   patient able to move.
   Skin:  Warm, no Rashes
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, time, self, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   416 K/uL
   8.4 g/dL
   96 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.9 mEq/L
   4 mg/dL
   108 mEq/L
   145 mEq/L
   27.1 %
   5.4 K/uL
        [image002.jpg]
                            [**2156-12-23**]  12:25 AM
                            [**2156-12-23**]  09:33 AM
                            [**2156-12-24**]  03:12 AM
   WBC
   5.7
   5.4
   Hct
   26.2
   27.1
   Plt
   402
   416
   Cr
   0.6
   TropT
   <0.01
   <0.01
   Glucose
   104
   Other labs:
   PT / PTT / INR:16.8/50.4/1.5
   Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Urine and Serum toxicology screens: negative
   3 sets of CE negative
   TTE: no evidence of vegetations, but limited technically b/c patient
   could not tolerate study.
   Assessment and Plan
   Assessment and Plan: 28 year-old morbidly obese female with hx asthma,
   h/o of DVT/PE, recent admission to ICU for hypercarbic resp failure,
   here after leaving AMA from [**Hospital1 **] with her usual CP, recent fevers,
   and recent documentation of bacteremia.
   .
   # CP: per patient, this is similar to previous.  Her EKG shows some
   anterior changes that are nonspecific.  Given her consistent
   presentation with previous CP, doubt myocardial ischemia/injury.
   However, she has risk factors such as very high BMI, so checked 3 sets
   of CE, all were negative.
   -tele while in ED
   .
   # positive blood cultures: documentation from Shattock shows staph
   simulans and enterococcus.  The enterococcus is resisant to vanc.  The
   two bacteria together are only both sensitive to [**Hospital1 3608**] and
   rifampin.  As she has no documented fevers, and she currently is
   without fevers, these cultures may not be real.  Now patient has 2
   cultures ([**12-22**] and [**12-23**]) in the hospital that grew G+ cocci.  Echo
   showed no endocarditis, but was limited study.  CXR w/no infiltrate. No
   obvious source for infection
   - continue [**Month/Year (2) 3608**]
   - blood cultures for sensitivities
   - follow fevers, wbc, blood cultures -> if needed, repeat TTE or check
   TEE to r/o endocarditis
   - urine cultures
   .
   # Psych: history of axis I and axis II disorders. Psych consult
   appreciated.
   - team meating: SW, psych, medicine today
   - taper celexa; 40mg today, none tomorrow
   - geodon 10mg IM Q2 hour PRN agitation. Max 40mg/day. Check EKG for QTc
   prolongation.  Aggressive electrolyte repletion.
   - check depakote trough
   - psych continued involvement (other recs included crushing meds in
   applesauce, searching belongings for meds in light of prior coding on
   floor due to possible ingestion).
   # hx PE: INR subtherapeutic.  Coumadin was being held for possible
   insertion of PICC at Shattock.  2 doses of 2mg of Coumadin given,
   patient w/sub-therapeutic INR.
   - 5mg coumadin today, re-check INR tomorrow
   - bridge with heparin
   # facial erythema: unclear if this is cellulitis vs bruise.  She denies
   trauma to that area of her face.  She does however have a history of
   cellulitis, therefore will treat for now.  Appears improved, but
   patient on [**Last Name (LF) **], [**First Name3 (LF) **] may be cause of patient
s improvement.
   - [**First Name3 (LF) **] as above.
   .
   .
   # sleep apnea: has history of somnolence from hypercarbia and
   subsequent intubation when she does not use her BiPAP.
   - encourage BiPAP
   .
   # COPD/asthma:
   - nebs/inhalers
   .
   # Anemia: baseline mid to upper 20s.
   - to follow serial Hct
   .
   # Finger dislocation: splint in place.
   -plastics follow-up to be called today
   -tylenol/ibuprofen PRN pain
   .
   # Prophylaxis: PPI, heparin/coumadin, bowel regimen
   .
   # FEN: p.o. diet as tolerated
   .
   # Access: PIVs, consider PICC  later (not now b/c of positive BCx x2)
   .
   # Code Status: Full
   .
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-12-22**] 08:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-12-24 10:22:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,800 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Flowsheet Data as of  [**2156-12-24**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (98.9
   HR: 87 (85 - 102) bpm
   BP: 127/53(61) {87/33(45) - 129/76(83)} mmHg
   RR: 18 (15 - 41) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
             Total In:
                                                                  1,694 mL
                                                                    159 mL
   PO:
                                                                  1,380 mL
             TF:
   IVF:
                                                                    314 mL
                                                                    159 mL
   Blood products:
   Total out:
                                                                  1,560 mL
                                                                    850 mL
   Urine:
                                                                  1,560 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    134 mL
                                                                   -691 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///32/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   416 K/uL
   96 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.9 mEq/L
   4 mg/dL
   108 mEq/L
   145 mEq/L
   27.1 %
   5.4 K/uL
        [image002.jpg]
                            [**2156-12-23**]  12:25 AM
                            [**2156-12-23**]  09:33 AM
                            [**2156-12-24**]  03:12 AM
   WBC
   5.7
   5.4
   Hct
   26.2
   27.1
   Plt
   402
   416
   Cr
   0.6
   0.6
   TropT
   <0.01
   <0.01
   Glucose
   104
   96
   Other labs: PT / PTT / INR:16.8/50.4/1.5, CK / CKMB /
   Troponin-T:26//<0.01, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   28 yo female with history of obesity and now with recurrent admission
   to ICU with respiratory failure after leaving AMA from outside
   institution.  Her capacity to tolerate BIPAP has been excellent from
   respiratory standpoint and her settings of BIPAP 8/8 have provided full
   support.  Her agitation and poor decision making capcity have led to
   need for pursuit of urgent guardianship.  Psychiatry has been an
   outstanding support for establishment of an effective treatment plan in
   these circumstances.
   1)Respiratory Failure-
 INEFFECTIVE COPING
 .H/O PULMONARY EMBOLISM (PE), ACUTE
 .H/O BACTEREMIA
 CHEST PAIN
 OBSTRUCTIVE SLEEP APNEA (OSA)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-12-22**] 08:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2156-12-24 11:53:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient with GPC's identified on blood cultures drawn following
   admission
   Emergency Guardianship to be pursued
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,800 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2156-12-24**] 11:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (98.9
   HR: 87 (85 - 102) bpm
   BP: 127/53(61) {87/33(45) - 129/76(83)} mmHg
   RR: 18 (15 - 41) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
             Total In:
                                                                  1,694 mL
                                                                    183 mL
   PO:
                                                                  1,380 mL
             TF:
   IVF:
                                                                    314 mL
                                                                    183 mL
   Blood products:
   Total out:
                                                                  1,560 mL
                                                                    850 mL
   Urine:
                                                                  1,560 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    134 mL
                                                                   -667 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///32/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed, Facial erythema has improved
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   416 K/uL
   96 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.9 mEq/L
   4 mg/dL
   108 mEq/L
   145 mEq/L
   27.1 %
   5.4 K/uL
        [image002.jpg]
                            [**2156-12-23**]  12:25 AM
                            [**2156-12-23**]  09:33 AM
                            [**2156-12-24**]  03:12 AM
   WBC
   5.7
   5.4
   Hct
   26.2
   27.1
   Plt
   402
   416
   Cr
   0.6
   0.6
   TropT
   <0.01
   <0.01
   Glucose
   104
   96
   Other labs: PT / PTT / INR:16.8/50.4/1.5, CK / CKMB /
   Troponin-T:26//<0.01, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Imaging: ECHO--Poor study but no vegitations seen
   Assessment and Plan
   28 yo female with history of obesity and admitted with respiratory
   failure and requirement for continued BIPAP support.  She has excellent
   response to BIPAP when tolerated as far as patient wishes.  She has had
   no significant fevers or hypotension in the setting of bactermia.  She
   has had intermittent hypoxemia which has been quite readily responsive
   to O2 and BIPAP.
   1)Respiratory Failure-
   -Atrovent continuing
   -BIPAP PRN
   -O2 while awake
   -OOB to chair if possible
   2)DVT/PE-in her history
   -Coumadin to continue
   -Patient refuse Heparin this morning and will continue to discuss with
   her
   -Continue with treatment with coumadin at a minimum
   3)Bacteremia-
   -Linezolid to continue
   -TTE negative
   -Will continue with surveillance cultures and Linezolid
   4)Alteration of awareness/Agitation-
   -Appreciate psychiatry support and planning
   -Patient not competent to make current medical decisions and will need
   urgent guardianship
 INEFFECTIVE COPING
 .H/O PULMONARY EMBOLISM (PE), ACUTE
 .H/O BACTEREMIA
 CHEST PAIN
 OBSTRUCTIVE SLEEP APNEA (OSA)
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-12-22**] 08:50 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt, Patient refusing heparin
   at this time.)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2156-12-25 05:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Episode of ? Vtach on monitor yesterday
 BP stable, patient with
   pulse, CE negative, ekg normal
   Multidisciplinary meeting yesterday to discuss emergent guardianship.
   Security was called at 4pm after patient was told about guardianship
   process and became agitated, attempted to pull out IVs.  Pt got 10mg IV
   Geodon without incident.
   Wore nasal bipap all night.
   Splint removed by plastics yesterday. No f/u needed.
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Antibiotics:
   Linezolid (start [**12-23**])
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: abdominal cramping and diarrhea, perianal irritation
   Flowsheet Data as of  [**2156-12-25**] 05:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 80 (72 - 98) bpm
   BP: 120/43(60) {65/43(49) - 143/107(110)} mmHg
   RR: 23 (5 - 38) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
             Total In:
                                                                    419 mL
                                                                     81 mL
   PO:
             TF:
   IVF:
                                                                    419 mL
                                                                     81 mL
   Blood products:
   Total out:
                                                                  1,050 mL
                                                                      0 mL
   Urine:
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -631 mL
                                                                     81 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 90%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, sclera clear.  EOMI
   Head, Ears, Nose, Throat: NCAT, NC in place
   Cardiovascular: limited by body habitus: RRR, no murmur appreciated
   Respiratory / Chest:  Lungs CTA bilaterally- no wheezing limited by
   habitus.
   Peripheral Vascular: all extremities warm, well perfused
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese but not
   distended
   GU: skin red and irritated appearing in gluteal cleft and perianal area
   Extremities: No Cyanosis, No Clubbing, scars on b/l arms. No cast on R
   hand.
   Skin:  Warm, no Rashes noted
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, time, self, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   396 K/uL
   88 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.3 mEq/L
   5 mg/dL
   105 mEq/L
   143 mEq/L
   28.1 %
   4.9
        [image002.jpg]
                            [**2156-12-23**]  12:25 AM
                            [**2156-12-23**]  09:33 AM
                            [**2156-12-24**]  03:12 AM
                            [**2156-12-24**]  01:59 PM
                            [**2156-12-24**]  10:46 PM
   WBC
   5.7
   5.4
   Hct
   26.2
   27.1
   Plt
   402
   416
   Cr
   0.6
   0.6
   0.6
   TropT
   <0.01
   <0.01
   <0.01
   <0.01
   Glucose
   104
   96
   89
   Other labs:
   PT / PTT / INR:20.9/150/2.0
   CE negative x2 sets
   2x BCx (both
 bottles) from [**12-22**] and [**12-23**] w/G+cocci
   Cdiff pending
   UCx negative
   Assessment and Plan
   Assessment and Plan: 28 year-old morbidly obese female with hx asthma,
   h/o of DVT/PE, recent admission to ICU for hypercarbic resp failure,
   here after leaving AMA from [**Hospital1 **] with her usual CP, recent fevers,
   and recent documentation of bacteremia.
   .
   # CP: per patient, this is similar to previous.  Her EKG shows some
   anterior changes that are nonspecific.  Given her consistent
   presentation with previous CP, doubt myocardial ischemia/injury.
   However, she has risk factors such as very high BMI, so checked 3 sets
   of CE, all were negative.  Now w/one episode of questionable
   ventricular tachycardia yesterday; patient sitting watching TV and
   developed a rhythmic tremor in b/l LE, stated she felt her heart was
   going to explode
 nurse went in when called and saw what looked like
   VT on the monitor. We put the patient on nasal canula oxygen and moved
   the patient to her bed and while she was moving her tremor ceased
   (because she was standing on the affected leg) and she appeared to be
   in sinus on the monitor again. EKG was checked which was no change from
   her baseline. 2 sets of CE were negative. Patients symptoms resolved.
   -tele while in ED
   -consider cardiology consult
   .
   # positive blood cultures: documentation from Shattock shows staph
   simulans and enterococcus.  The enterococcus is resisant to vanc.  The
   two bacteria together are only both sensitive to linezolid and
   rifampin.  As she has no documented fevers, and she currently is
   without fevers, these cultures may not be real.  Now patient has 2
   cultures ([**12-22**] and [**12-23**]) in the hospital that grew G+ cocci.  Echo
   showed no endocarditis, but was limited study.  CXR w/no infiltrate. No
   obvious source for infection
   - continue linezolid (day 3)
   - blood cultures for sensitivities
   - follow fevers, wbc, blood cultures -> if needed, repeat TTE or check
   TEE to r/o endocarditis
   - urine cultures
   .
   # Psych: history of axis I and axis II disorders. Psych consult
   appreciated.
   - Team meating: SW, psych, medicine yesterday. Team to pursue emergency
   guardianship.
   - Celexa tapered off
   - geodon 10mg IM Q2 hour PRN agitation. Max 40mg/day. Check EKG for QTc
   prolongation.  Aggressive electrolyte repletion.
   - psych continued involvement (other recs included crushing meds in
   applesauce, searching belongings for meds in light of prior coding on
   floor due to possible ingestion).
   #diarrhea: Cdiff v antibiotic side effect
   - check Cdiff
   - if Cdiff negative, can treat with immodium
   -small bolus IVF (250cc) now
   # hx PE: INR subtherapeutic.  Coumadin was being held for possible
   insertion of PICC at Shattock.  INR therapeutic today.
   - 3mg coumadin today, re-check INR tomorrow
   - d/c heparin
   # sleep apnea: has history of somnolence from hypercarbia and
   subsequent intubation when she does not use her BiPAP.
   - encourage BiPAP
   # facial erythema: resolved.
   .
   # COPD/asthma:
   - nebs/inhalers
   .
   # Anemia: baseline mid to upper 20s.
   - to follow serial Hct
   .
   # Finger dislocation: splint removed, no f/u needed as per plastics
   -tylenol/ibuprofen PRN pain
   -OT eval
   .
   # Prophylaxis: Prilosec, heparin/coumadin, bowel regimen
   .
   # FEN: p.o. diet as tolerated
   .
   # Access: PIVs, consider PICC  later (not now b/c of positive BCx x2)
   .
   # Code Status: Full
   .
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2156-12-24**] 04:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-12-25 10:44:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Refusing nursing care this AM
   Has been wearing BIPAP last night
   Psych saw her yesterday
 initiating emergency guardianship
   [**Name (NI) **] Cx: GPC [**Last Name (un) 2527**] positiuve from [**12-23**] both bottles
 multiple
   morphologies
 asking Micro lab to speciate
   Negative from [**12-24**] to date
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Psychiatric / Sleep: Agitated
   Flowsheet Data as of  [**2156-12-25**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98
   HR: 78 (68 - 98) bpm
   BP: 120/43(60) {120/43(60) - 143/69(87)} mmHg
   RR: 23 (5 - 38) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
             Total In:
                                                                    420 mL
                                                                    665 mL
   PO:
             480 mL
   TF:
   IVF:
                                                                    420 mL
                                                                    185 mL
   [**Year (4 digits) **] products:
   Total out:
                                                                  1,050 mL
                                                                    200 mL
   Urine:
                                                                  1,050 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -630 mL
                                                                    465 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 91%
   ABG: ///30/
   Physical Examination
   Gen: alert NAD
   Heent: o/p clear
   CV: RR
   Chest: dimished CTA bilat
   Abd: obese soft NT
   Ext: old scars across upper ext
   Neuro: conversant, NAD
   Labs / Radiology
   8.5 g/dL
   396 K/uL
   88 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.3 mEq/L
   5 mg/dL
   105 mEq/L
   143 mEq/L
   28.1 %
   4.9 K/uL
        [image002.jpg]
                            [**2156-12-23**]  12:25 AM
                            [**2156-12-23**]  09:33 AM
                            [**2156-12-24**]  03:12 AM
                            [**2156-12-24**]  01:59 PM
                            [**2156-12-24**]  10:46 PM
                            [**2156-12-25**]  07:46 AM
   WBC
   5.7
   5.4
   4.9
   Hct
   26.2
   27.1
   28.1
   Plt
   [**Telephone/Fax (3) 3620**]
   Cr
   0.6
   0.6
   0.6
   0.6
   TropT
   <0.01
   <0.01
   <0.01
   <0.01
   <0.01
   Glucose
   104
   96
   89
   88
   Other labs: PT / PTT / INR:20.9/150.0/2.0, CK / CKMB /
   Troponin-T:32//<0.01, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan: 28 yo female with history of obesity and admitted
   with respiratory failure and requirement for continued BIPAP support.
   She has excellent response to BIPAP when tolerated as far as patient
   wishes.  She has had no significant fevers or hypotension in the
   setting of bacteremia.  She has had intermittent hypoxemia which has
   been quite readily responsive to O2 and BIPAP.
   1) Respiratory Failure- -Atrovent continuing -BIPAP PRN night and naps
   -O2 while awake -OOB to chair if possible
   2) DVT/PE-in her history -Coumadin to continue -Continue with treatment
   with coumadin goal inr [**3-14**]
   3) Bacteremia- -Linezolid to continue - follow up our cultures
   requested to Micro lab
   -TTE negative -Will continue with surveillance cultures and Linezolid
   concern that she has now again + cx, will she need TEE to more formally
   look for veg and MRI spine for epidural abscess. All new access.
   4) Alteration of awareness/Agitation- -Appreciate psychiatry support
   and planning
   -Patient not competent to make current medical decisions and will need
   urgent guardianship
 INEFFECTIVE COPING
 .H/O PULMONARY EMBOLISM (PE), ACUTE
 .H/O BACTEREMIA
 CHEST PAIN
 OBSTRUCTIVE SLEEP APNEA (OSA)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines: 18 Gauge - [**2156-12-24**] 04:14 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: PPI
   Communication: with psych and
   Code status: Full code
   Disposition :ICU
   Total time spent: 35
   Critcally Ill with tenuous respiratory status and high grade
   bacteremia. Also intermiitent sever agitation making her care quite
   challenging.

2156-12-26 06:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
     * dislocated finger again - confirmed on xray -> plastics reduced
       finger, splinted with tongue blade
     * need to do TEE due to 2 positive blood cultures and inadequate TTE
       - will order
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2156-12-25**] 11:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-26**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 82 (68 - 101) bpm
   BP: 114/40(57) {108/40(57) - 129/104(133)} mmHg
   RR: 17 (5 - 35) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
                  Total In:
                                                                  1,655 mL
                  PO:
                                                                  1,470 mL
                  TF:
   IVF:
                                                                    185 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                      0 mL
   Urine:
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    505 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 91%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, sclera clear.  EOMI
   Head, Ears, Nose, Throat: NCAT, NC in place
   Cardiovascular: limited by body habitus: RRR, no murmur appreciated
   Respiratory / Chest:  Lungs CTA bilaterally- no wheezing limited by
   habitus.
   Peripheral Vascular: all extremities warm, well perfused
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese but not
   distended
   GU: skin red and irritated appearing in gluteal cleft and perianal area
   Extremities: No Cyanosis, No Clubbing, scars on b/l arms. No cast on R
   hand.
   Skin:  Warm, no Rashes noted
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, time, self, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   396 K/uL
   8.5 g/dL
   88 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.3 mEq/L
   5 mg/dL
   105 mEq/L
   143 mEq/L
   28.1 %
   4.9 K/uL
        [image002.jpg]
                            [**2156-12-23**]  12:25 AM
                            [**2156-12-23**]  09:33 AM
                            [**2156-12-24**]  03:12 AM
                            [**2156-12-24**]  01:59 PM
                            [**2156-12-24**]  10:46 PM
                            [**2156-12-25**]  07:46 AM
   WBC
   5.7
   5.4
   4.9
   Hct
   26.2
   27.1
   28.1
   Plt
   [**Telephone/Fax (3) 3620**]
   Cr
   0.6
   0.6
   0.6
   0.6
   TropT
   <0.01
   <0.01
   <0.01
   <0.01
   <0.01
   Glucose
   104
   96
   89
   88
   Other labs: PT / PTT / INR:20.9/150.0/2.0, CK / CKMB /
   Troponin-T:32//<0.01, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   Assessment and Plan: 28 year-old morbidly obese female with hx asthma,
   h/o of DVT/PE, recent admission to ICU for hypercarbic resp failure,
   here after leaving AMA from [**Hospital1 **] with her usual CP, recent fevers,
   and recent documentation of bacteremia.
   .
   # CP: per patient, this is similar to previous.  Her EKG shows some
   anterior changes that are nonspecific.  Given her consistent
   presentation with previous CP, doubt myocardial ischemia/injury.
   However, she has risk factors such as very high BMI, so checked 3 sets
   of CE, all were negative.  Now w/one episode of questionable
   ventricular tachycardia [**12-24**]; patient sitting watching TV and
   developed a rhythmic tremor in b/l LE, stated she felt her heart was
   going to explode
 nurse went in when called and saw what looked like
   VT on the monitor. Patient placed on nasal canula oxygen and moved to
   her bed and while she was moving her tremor ceased (because she was
   standing on the affected leg) and she appeared to be in sinus on the
   monitor again. EKG was checked which was no change from her baseline. 2
   sets of CE were negative. Patients symptoms resolved.
   -cont. telemetry monitoring
   -consider cardiology consult
   .
   # positive blood cultures: documentation from Shattock shows staph
   simulans and enterococcus.  The enterococcus is resisant to vanc.  The
   two bacteria together are only both sensitive to linezolid and
   rifampin.  As she has no documented fevers, and she currently is
   without fevers, these cultures may not be real.  Now patient has 2
   cultures ([**12-22**] and [**12-23**]) in the hospital that grew G+ cocci.  Echo
   showed no endocarditis, but was limited study.  CXR w/no infiltrate. No
   obvious source for infection
   - continue linezolid (day 4)
   - blood cultures for sensitivities
   - follow fevers, wbc, blood cultures
   - TEE to r/o endocarditis tomorrow
   - urine cultures
   .
   # Psych: history of axis I and axis II disorders. Psych consult
   appreciated.
   - Team meating: SW, psych, medicine [**12-24**]. Team to pursue emergency
   guardianship.
   - Celexa tapered, last dose 11/17
   - geodon 10mg IM Q2 hour PRN agitation. Max 40mg/day. Check EKG for QTc
   prolongation.  Aggressive electrolyte repletion.
   - psych continued involvement (other recs included crushing meds in
   applesauce, searching belongings for meds in light of prior coding on
   floor due to possible ingestion).
   #diarrhea: Cdiff v antibiotic side effect.  1^st C. diff negative.
   - check Cdiff twice more for 3 total
   - Will treat with immodium
   # hx PE: INR subtherapeutic.  Coumadin was being held for possible
   insertion of PICC at Shattock.  INR from this afternoon 2.7.
   - hold coumadin today
   - check INR tomorrow and restart at 1 mg daily, unless level continues
   to rise.
   - heparin stopped yesterday
   # sleep apnea: has history of somnolence from hypercarbia and
   subsequent intubation when she does not use her BiPAP.
   - encourage BiPAP
   # facial erythema: resolved.
   .
   # COPD/asthma:
   - nebs/inhalers
   .
   # Anemia: baseline mid to upper 20s.
   - to follow serial Hct
   .
   # Finger dislocation: splint removed, no f/u needed as per plastics
   -tylenol/ibuprofen PRN pain
   -OT eval
   -Ortho to eval pt.
   .
   # Vaginal yeast infection: Diflucan x 1 dose today.  Will reassess
   tomorrow based on INR given interaction between fluconazole and
   warfarin.
   .
   # Prophylaxis: Prilosec, heparin/coumadin, bowel regimen
   .
   # FEN: p.o. diet as tolerated
   .
   # Access: PIVs, consider PICC  later (not now b/c of positive BCx x2)
   .
   # Code Status: Full
   .
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2156-12-24**] 04:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-12-26 12:06:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Using BIPAP
   Persistently + blood cultures
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-26**] 12:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 86 (76 - 101) bpm
   BP: 104/53(64) {103/40(57) - 123/104(85)} mmHg
   RR: 31 (0 - 35) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
                  Total In:
                                                                  1,655 mL
                  PO:
                                                                  1,470 mL
                  TF:
   IVF:
                                                                    185 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                    500 mL
   Urine:
                                                                  1,150 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    505 mL
                                                                   -500 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 91%
   ABG: ////
   Physical Examination
   Gen: alert NAD
   Heent: o/p clear
   CV: RR
   Chest: dimished CTA bilat
   Abd: obese soft NT
   Ext: old scars across upper ext, right 4^th finger in splint
   Neuro: conversant, NAD
   Labs / Radiology
   8.5 g/dL
   396 K/uL
   88 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.3 mEq/L
   5 mg/dL
   105 mEq/L
   143 mEq/L
   28.1 %
   4.9 K/uL
        [image002.jpg]
                            [**2156-12-23**]  12:25 AM
                            [**2156-12-23**]  09:33 AM
                            [**2156-12-24**]  03:12 AM
                            [**2156-12-24**]  01:59 PM
                            [**2156-12-24**]  10:46 PM
                            [**2156-12-25**]  07:46 AM
   WBC
   5.7
   5.4
   4.9
   Hct
   26.2
   27.1
   28.1
   Plt
   [**Telephone/Fax (3) 3620**]
   Cr
   0.6
   0.6
   0.6
   0.6
   TropT
   <0.01
   <0.01
   <0.01
   <0.01
   <0.01
   Glucose
   104
   96
   89
   88
   Other labs: PT / PTT / INR:20.9/150.0/2.0, CK / CKMB /
   Troponin-T:32//<0.01, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 .H/O PULMONARY EMBOLISM (PE), ACUTE
 .H/O BACTEREMIA
 CHEST PAIN
 OBSTRUCTIVE SLEEP APNEA (OSA)
   Assessment and Plan: 28 yo female with history of obesity and admitted
   with respiratory failure and requirement for continued BIPAP support.
   She has excellent response to BIPAP when tolerated as far as patient
   wishes.  She has had no significant fevers or hypotension in the
   setting of bacteremia.  She has had intermittent hypoxemia which has
   been quite readily responsive to O2 and BIPAP.
   1) Respiratory Failure- -Atrovent continuing -BIPAP PRN night and naps
   -O2 while awake -OOB to chair if possible
   2) DVT/PE-in her history -Coumadin to continue -Continue with treatment
   with coumadin goal inr [**3-14**]
 needs repeat level today
   3) Bacteremia- -Linezolid to continue - follow up sensi requested to
   Micro lab. TTE negative but ?adequancy -Will continue with surveillance
   cultures and Linezolid concern that she has now again + cx,  she may
   need TEE to more formally look for veg and MRI spine for epidural
   abscess. This invasive procedures will need to be weighted against
   empiric RX with 6-8 weeks of IV ABX but again she has infected PICC
   lines in past. Difficult situation. At present she has fresh PIVs.
   Continue surveillance cultures.
   4) Complaining of RUE pain: check LENI given hx of clot
   5) Right 4^th finger dislocation: Ortho to see today
   6) Alteration of awareness/Agitation- -Appreciate psychiatry support
   and planning
   Patient not competent to make current medical decisions and will need
   urgent guardianship
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:  18 Gauge - [**2156-12-24**] 04:14 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer:
   Communication:  with pt
   [**Name (NI) 36**] status: Full code
   Disposition : call out- Pt desires to go to [**Wardname **] and states she will
   be complaint with RNs- this needs to be discussed with Pysch as wwell
   for plan of action.

2156-12-27 05:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2156-12-26**] 05:29 PM
 BLOOD CULTURED - At [**2156-12-26**] 05:30 PM
 INVASIVE VENTILATION - START [**2156-12-26**] 09:58 PM
   - warfarin held, dose decreased to 1 mg to start [**12-27**]
   - fluconazole PO x 1 dose plus vaginal cream ordered
   - C. diff neg x 1, immodium ordered
   - RUE ultrasound: partially occlusive thrombus in cephalic vein, no DVT
   - requesting call-out to [**Hospital Ward Name 289**] 2
   - unresponsive at 9:30 pm, intubated, ABG: 7.35 / 61 / 464 / 35
   - TEE to be done
   - Ortho to see pt.re: finger
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-27**] 05:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.5
   HR: 89 (76 - 103) bpm
   BP: 107/67(76) {89/35(49) - 142/95(100)} mmHg
   RR: 18 (0 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
             Total In:
                                                                    583 mL
                                                                    459 mL
   PO:
             TF:
   IVF:
                                                                    583 mL
                                                                    399 mL
   Blood products:
   Total out:
                                                                  1,630 mL
                                                                    280 mL
   Urine:
                                                                  1,630 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,047 mL
                                                                    179 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 656 (656 - 656) mL
   RR (Set): 18
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 32 cmH2O
   Plateau: 24 cmH2O
   SpO2: 98%
   ABG: 7.37/59/261/33/7
   Ve: 8.6 L/min
   PaO2 / FiO2: 652
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, sclera clear.  EOMI
   Head, Ears, Nose, Throat: NCAT, NC in place
   Cardiovascular: limited by body habitus: RRR, no murmur appreciated
   Respiratory / Chest:  Lungs CTA bilaterally- no wheezing limited by
   habitus.
   Peripheral Vascular: all extremities warm, well perfused
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese but not
   distended
   GU: skin red and irritated appearing in gluteal cleft and perianal area
   Extremities: No Cyanosis, No Clubbing, scars on b/l arms. No cast on R
   hand.
   Skin:  Warm, no Rashes noted
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, time, self, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   407 K/uL
   8.3 g/dL
   107 mg/dL
   0.6 mg/dL
   33 mEq/L
   3.9 mEq/L
   9 mg/dL
   107 mEq/L
   144 mEq/L
   27.0 %
   4.9 K/uL
        [image002.jpg]
                            [**2156-12-23**]  09:33 AM
                            [**2156-12-24**]  03:12 AM
                            [**2156-12-24**]  01:59 PM
                            [**2156-12-24**]  10:46 PM
                            [**2156-12-25**]  07:46 AM
                            [**2156-12-26**]  12:35 PM
                            [**2156-12-26**]  09:41 PM
                            [**2156-12-26**]  10:00 PM
                            [**2156-12-26**]  11:36 PM
                            [**2156-12-27**]  04:35 AM
   WBC
   5.4
   4.9
   4.9
   4.9
   Hct
   27.1
   28.1
   28.6
   27.0
   Plt
   [**Telephone/Fax (3) 3655**]07
   Cr
   0.6
   0.6
   0.6
   0.7
   0.6
   TropT
   <0.01
   <0.01
   <0.01
   <0.01
   TCO2
   35
   35
   Glucose
   96
   89
   88
   89
   109
   107
   Other labs: PT / PTT / INR:26.2/26.5/2.6, CK / CKMB /
   Troponin-T:32//<0.01, Lactic Acid:1.6 mmol/L, Ca++:8.5 mg/dL, Mg++:2.0
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   Assessment and Plan: 28 year-old morbidly obese female with hx asthma,
   h/o of DVT/PE, recent admission to ICU for hypercarbic resp failure,
   here after leaving AMA from [**Hospital1 **] with her usual CP, recent fevers,
   and recent documentation of bacteremia.
   .
   # CP: per patient, this is similar to previous.  Her EKG shows some
   anterior changes that are nonspecific.  Given her consistent
   presentation with previous CP, doubt myocardial ischemia/injury.
   However, she has risk factors such as very high BMI, so checked 3 sets
   of CE, all were negative.  Now w/one episode of questionable
   ventricular tachycardia [**12-24**]; patient sitting watching TV and
   developed a rhythmic tremor in b/l LE, stated she felt her heart was
   going to explode
 nurse went in when called and saw what looked like
   VT on the monitor. Patient placed on nasal canula oxygen and moved to
   her bed and while she was moving her tremor ceased (because she was
   standing on the affected leg) and she appeared to be in sinus on the
   monitor again. EKG was checked which was no change from her baseline. 2
   sets of CE were negative. Patients symptoms resolved.
   -cont. telemetry monitoring
   -consider cardiology consult
   .
   # positive blood cultures: documentation from Shattock shows staph
   simulans and enterococcus.  The enterococcus is resisant to vanc.  The
   two bacteria together are only both sensitive to linezolid and
   rifampin.  As she has no documented fevers, and she currently is
   without fevers, these cultures may not be real.  Now patient has 2
   cultures ([**12-22**] and [**12-23**]) in the hospital that grew G+ cocci.  Echo
   showed no endocarditis, but was limited study.  CXR w/no infiltrate. No
   obvious source for infection
   - continue linezolid (day 4)
   - blood cultures for sensitivities
   - follow fevers, wbc, blood cultures
   - TEE to r/o endocarditis tomorrow
   - urine cultures
   .
   # Psych: history of axis I and axis II disorders. Psych consult
   appreciated.
   - Team meating: SW, psych, medicine [**12-24**]. Team to pursue emergency
   guardianship.
   - Celexa tapered, last dose 11/17
   - geodon 10mg IM Q2 hour PRN agitation. Max 40mg/day. Check EKG for QTc
   prolongation.  Aggressive electrolyte repletion.
   - psych continued involvement (other recs included crushing meds in
   applesauce, searching belongings for meds in light of prior coding on
   floor due to possible ingestion).
   #diarrhea: Cdiff v antibiotic side effect.  1^st C. diff negative.
   - check Cdiff twice more for 3 total
   - Will treat with immodium
   # hx PE: INR subtherapeutic.  Coumadin was being held for possible
   insertion of PICC at Shattock.  INR from this afternoon 2.7.
   - hold coumadin today
   - check INR tomorrow and restart at 1 mg daily, unless level continues
   to rise.
   - heparin stopped yesterday
   # sleep apnea: has history of somnolence from hypercarbia and
   subsequent intubation when she does not use her BiPAP.
   - encourage BiPAP
   # facial erythema: resolved.
   .
   # COPD/asthma:
   - nebs/inhalers
   .
   # Anemia: baseline mid to upper 20s.
   - to follow serial Hct
   .
   # Finger dislocation: splint removed, no f/u needed as per plastics
   -tylenol/ibuprofen PRN pain
   -OT eval
   -Ortho to eval pt.
   .
   # Vaginal yeast infection: Diflucan x 1 dose today.  Will reassess
   tomorrow based on INR given interaction between fluconazole and
   warfarin.
   .
   # Prophylaxis: Prilosec, heparin/coumadin, bowel regimen
   .
   # FEN: p.o. diet as tolerated
   .
   # Access: PIVs, consider PICC  later (not now b/c of positive BCx x2)
   .
   # Code Status: Full
   .
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2156-12-24**] 04:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-12-27 09:51:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   --Patient with sleep last PM and unable to wear BIPAP-and evolved
   significant alteration in mental status and ABG-->
   7.35/61/464
   She was intubated for altered mental status in the setting of chronic
   ventilatory failure
   Patient with re-dislocation of finger
   24 Hour Events:
 ULTRASOUND - At [**2156-12-26**] 05:29 PM
 BLOOD CULTURED - At [**2156-12-26**] 05:30 PM
 INVASIVE VENTILATION - START [**2156-12-26**] 09:58 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2156-12-27**] 09:35 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2156-12-27**] 09:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 95 (77 - 103) bpm
   BP: 112/57(68) {89/35(49) - 142/95(100)} mmHg
   RR: 20 (16 - 36) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
             Total In:
                                                                    583 mL
                                                                    642 mL
   PO:
             TF:
   IVF:
                                                                    583 mL
                                                                    502 mL
   Blood products:
   Total out:
                                                                  1,630 mL
                                                                    385 mL
   Urine:
                                                                  1,630 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,047 mL
                                                                    257 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 435 (435 - 656) mL
   RR (Set): 18
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 90
   PIP: 32 cmH2O
   Plateau: 24 cmH2O
   SpO2: 93%
   ABG: 7.37/59/261/33/7
   Ve: 6.1 L/min
   PaO2 / FiO2: 652
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
moves all extremities
   Labs / Radiology
   8.3 g/dL
   407 K/uL
   107 mg/dL
   0.6 mg/dL
   33 mEq/L
   3.9 mEq/L
   9 mg/dL
   107 mEq/L
   144 mEq/L
   27.0 %
   4.9 K/uL
        [image002.jpg]
                            [**2156-12-23**]  09:33 AM
                            [**2156-12-24**]  03:12 AM
                            [**2156-12-24**]  01:59 PM
                            [**2156-12-24**]  10:46 PM
                            [**2156-12-25**]  07:46 AM
                            [**2156-12-26**]  12:35 PM
                            [**2156-12-26**]  09:41 PM
                            [**2156-12-26**]  10:00 PM
                            [**2156-12-26**]  11:36 PM
                            [**2156-12-27**]  04:35 AM
   WBC
   5.4
   4.9
   4.9
   4.9
   Hct
   27.1
   28.1
   28.6
   27.0
   Plt
   [**Telephone/Fax (3) 3655**]07
   Cr
   0.6
   0.6
   0.6
   0.7
   0.6
   TropT
   <0.01
   <0.01
   <0.01
   <0.01
   TCO2
   35
   35
   Glucose
   96
   89
   88
   89
   109
   107
   Other labs: PT / PTT / INR:26.2/26.5/2.6, CK / CKMB /
   Troponin-T:32//<0.01, Lactic Acid:1.6 mmol/L, Ca++:8.5 mg/dL, Mg++:2.0
   mg/dL, PO4:4.0 mg/dL
   Fluid analysis / Other labs: 7.37/59/261--following intubation
   Imaging: CXR-
   Post intubation--ETT in good position
   Microbiology: Blood Cultures
   [**12-22**] and [**12-23**]--coag negative staph
   [**12-26**]--no growth to date
   Assessment and Plan
   28 yo female with history of obesity and admitted with significant
   bacteremia in the setting of previous indwelling catheters but with
   persistent bactermia seen.  She did have episode of altered mental
   status and concern for for hypercarbia contributing but ABG failed to
   show findings consistent with hypercarbia.  With incapacity to
   establish a responsive state and with concern for worsening hypercarbia
   patient intubated last pm.  This does raise the question of possible
   excess sedation.
   Respiratory Failure-Primarily driven by altered mental status in the
   setting of background change in dosing of pain medications and
   anti-psychotics
   -Wean to PSV
   -Move to SBT when able
   -Will have to maintain minimization of sedating medication dosing
   -Do not see ongoing evolution of new acute pulmonary process at this
   time
   -If unable to maintain stable airway patency will have to consider
   tracheostomy if patient safety at recurrent issue
   Bacteremia-
   -TEE today
   -Will likely need further imaging for epidural collection if unable to
   maintain reassuring exam but no focal signs seen prior to intubation
   and TEE likely to be highest yield study.
   -Linezolid
   -Follow up and repeat cultures today
   -Will have to consider dental source of TEE negative
panorex today.
   Altered Mental Status-
   -Unlikely but remote chance of seizure
   -Will need to minimize dosing of sedating medications
   -Avoid narcotics as possible despite pain
   -Will need to maintain BIPAP support during any period of sleep
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 INEFFECTIVE COPING
 .H/O PULMONARY EMBOLISM (PE), ACUTE
 .H/O BACTEREMIA
 CHEST PAIN
 OBSTRUCTIVE SLEEP APNEA (OSA)
   ICU Care
   Nutrition: NPO today--procedures
   Glycemic Control:
   Lines:
   22 Gauge - [**2156-12-24**] 04:14 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2156-12-28 05:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2156-12-27**] 09:35 AM
 EKG - At [**2156-12-27**] 11:17 AM
 INVASIVE VENTILATION - STOP [**2156-12-27**] 11:42 AM
   TEE done while intubated, no vegetations but small ASD (L to R)
   Pt extubated at 11am
   6pm: Security called for code purple after pt was not given percocet,
   psych came, pt was talked down, got 10mg IM Geodon.  Calmed down after
   giving her some time.
   Slept with bipap, took all meds
   LUE U/S ordered
   Panorex ordered for teeth
   Guardianship forms completed, emailed to psych resident
   Blood cxs unable to be drawn
   Got Ultram 25mg PO x 1
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Propofol - [**2156-12-27**] 09:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-28**] 05:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.4
   HR: 89 (85 - 109) bpm
   BP: 81/56(62) {0/32(44) - 138/88(97)} mmHg
   RR: 18 (14 - 33) insp/min
   SpO2: 84%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
                  Total In:
                                                                  1,853 mL
                                                                    720 mL
   PO:
                                                                  1,080 mL
                                                                    720 mL
   TF:
   IVF:
                                                                    513 mL
   Blood products:
   Total out:
                                                                    687 mL
                                                                      0 mL
   Urine:
                                                                    687 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,166 mL
                                                                    720 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PPS
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 435 (435 - 435) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 90
   SpO2: 84%
   ABG: ////
   Ve: 6.1 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
moves all extremities
   Labs / Radiology
   407 K/uL
   8.3 g/dL
   107 mg/dL
   0.6 mg/dL
   33 mEq/L
   3.9 mEq/L
   9 mg/dL
   107 mEq/L
   144 mEq/L
   27.0 %
   4.9 K/uL
        [image002.jpg]
                            [**2156-12-23**]  09:33 AM
                            [**2156-12-24**]  03:12 AM
                            [**2156-12-24**]  01:59 PM
                            [**2156-12-24**]  10:46 PM
                            [**2156-12-25**]  07:46 AM
                            [**2156-12-26**]  12:35 PM
                            [**2156-12-26**]  09:41 PM
                            [**2156-12-26**]  10:00 PM
                            [**2156-12-26**]  11:36 PM
                            [**2156-12-27**]  04:35 AM
   WBC
   5.4
   4.9
   4.9
   4.9
   Hct
   27.1
   28.1
   28.6
   27.0
   Plt
   [**Telephone/Fax (3) 3655**]07
   Cr
   0.6
   0.6
   0.6
   0.7
   0.6
   TropT
   <0.01
   <0.01
   <0.01
   <0.01
   TCO2
   35
   35
   Glucose
   96
   89
   88
   89
   109
   107
   Other labs: PT / PTT / INR:26.2/26.5/2.6, CK / CKMB /
   Troponin-T:32//<0.01, Lactic Acid:1.6 mmol/L, Ca++:8.5 mg/dL, Mg++:2.0
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan: 28 year-old morbidly obese female with hx asthma,
   h/o of DVT/PE, recent admission to ICU for hypercarbic resp failure,
   here after leaving AMA from [**Hospital1 **] with her usual CP, recent fevers,
   and recent documentation of bacteremia.
   .
   # Unresponsive Episode: Likely from hypoventilation although unclear at
   this time if this was intentional vs. unintentional.  Pt was sleeping
   without bipap; therefore risk of hypercarbia and somnolence is high.
   Painful stimulus unable to provoke a response.  Mental status changes
   likely from underlying psych diagnosis, sleep apnea, hypoventilation
   obesity syndrome, and sedating medications all contributing.
   - likely extubate today (after TEE)
   - avoiding sedating medications
   - bipap at all times while sleeping
   .
   # Positive blood cultures: documentation from Shattock shows staph
   simulans and enterococcus.  The enterococcus is resisant to vanc.  The
   two bacteria together are only both sensitive to linezolid and
   rifampin.  As she has no documented fevers, and she currently is
   without fevers.  Now patient has 2 cultures ([**12-22**] and [**12-23**]) in the
   hospital that grew G+ cocci.  Echo showed no endocarditis, but was
   limited study.  CXR w/no infiltrate. LUE U/S showing partially occluded
   thrombus in cephalic vein, possible nidus of infection.
   - continue Linezolid (day #1 = [**12-23**], today is day 5).  Will need to
   treat for 14 days after blood cultures negative
   - continue surveillance blood cultures daily
   - TEE to r/o endocarditis today
   - urine cultures
   .
   # Psych: history of axis I and axis II disorders. Psych consult
   appreciated.
   - Team meating: SW, psych, medicine [**12-24**]. Team to pursue emergency
   guardianship.
   - Celexa tapered, last dose today
   - Geodon 10mg IM Q2 hour PRN agitation. Max 40mg/day. Check EKG for QTc
   prolongation.  Aggressive electrolyte repletion.
   - psych continued involvement (other recs included crushing meds in
   applesauce, searching belongings for meds in light of prior coding on
   floor due to possible ingestion).
   #Diarrhea: Cdiff v antibiotic side effect.  1^st C. diff negative.
   - check Cdiff twice more for 3 total
   - Will treat with immodium
   .
   # LUE thrombus: superficial; may be nidus for infection
   - anticoagulated with coumadin
   - continue abx
   # hx PE: INR subtherapeutic.  Coumadin was being held for possible
   insertion of PICC at Shattock.  INR from this morning 2.6.
   - coumadin 1mg tonight, recheck in AM
   # sleep apnea: has history of somnolence from hypercarbia and
   subsequent intubation when she does not use her BiPAP.
   - pt needs to wear BiPAP at all times while sleeping
   .
   # COPD/asthma:
   - nebs/inhalers
   .
   # Anemia: baseline mid to upper 20s.
   - to follow serial Hct
   .
   # Finger dislocation: ortho consulted; will place splint today
   -tylenol/ibuprofen PRN pain
   -OT eval
   - NO percocet for pain given sedating side effects
   .
   # Vaginal yeast infection: Diflucan x 1 dose today.
   - closely monitor INR given interaction with Coumadin
   .
   # Prophylaxis: Prilosec, heparin/coumadin, bowel regimen
   .
   # FEN: p.o. diet as tolerated when extubated
   .
   # Access: PIVs, consider PICC  later (not now b/c of positive BCx x2)
   .
   # Code Status: Full
   .
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2156-12-24**] 04:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-12-28 11:49:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2156-12-27**] 09:35 AM--no evidence of
   vegitation
 EKG - At [**2156-12-27**] 11:17 AM
 INVASIVE VENTILATION - STOP [**2156-12-27**] 11:42 AM--Extubated without
   event
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia, Transient
   Gastrointestinal: No(t) Abdominal pain
   Pain: [**4-13**] Mild
   Pain location: Finger
   Flowsheet Data as of  [**2156-12-28**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.9
   HR: 82 (82 - 101) bpm
   BP: 106/43(59) {0/32(44) - 116/70(80)} mmHg
   RR: 10 (10 - 33) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
                  Total In:
                                                                  1,853 mL
                                                                    840 mL
   PO:
                                                                  1,080 mL
                                                                    840 mL
   TF:
   IVF:
                                                                    513 mL
   Blood products:
   Total out:
                                                                    687 mL
                                                                    375 mL
   Urine:
                                                                    687 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,166 mL
                                                                    465 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ////
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   407 K/uL
   107 mg/dL
   0.6 mg/dL
   33 mEq/L
   3.9 mEq/L
   9 mg/dL
   107 mEq/L
   144 mEq/L
   27.0 %
   4.9 K/uL
        [image002.jpg]
                            [**2156-12-23**]  09:33 AM
                            [**2156-12-24**]  03:12 AM
                            [**2156-12-24**]  01:59 PM
                            [**2156-12-24**]  10:46 PM
                            [**2156-12-25**]  07:46 AM
                            [**2156-12-26**]  12:35 PM
                            [**2156-12-26**]  09:41 PM
                            [**2156-12-26**]  10:00 PM
                            [**2156-12-26**]  11:36 PM
                            [**2156-12-27**]  04:35 AM
   WBC
   5.4
   4.9
   4.9
   4.9
   Hct
   27.1
   28.1
   28.6
   27.0
   Plt
   [**Telephone/Fax (3) 3655**]07
   Cr
   0.6
   0.6
   0.6
   0.7
   0.6
   TropT
   <0.01
   <0.01
   <0.01
   <0.01
   TCO2
   35
   35
   Glucose
   96
   89
   88
   89
   109
   107
   Other labs: PT / PTT / INR:26.2/26.5/2.6, CK / CKMB /
   Troponin-T:32//<0.01, Lactic Acid:1.6 mmol/L, Ca++:8.5 mg/dL, Mg++:2.0
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   28 yo female with significant history of chronic ventilatory failure
   and now with re-admission to ICU in the setting of persistent
   bactermia.
   1)Sepsis-
   -Ongoing Rx for bloodstream infection with Linezolid
   -Follow up cultures to be sent and TEE is done and without significant
   vegetations
   -Persistent bacteremia is of concern
   -Panorex to be completed today
   -Will obtain ultrasound of left upper extremity for possible phlebitis
   2)Respiratory Failure
   BIPAP 8/8 with good effect and will continue to use during any period
   of sleep
   3)Agitation/Psychiatric Illness-
   -Appreciate psychiatry input
   -Continue with medication dosing
   -Continue with plan for intermittent agitation
   -Guardianship completed
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
 IMPAIRED SKIN INTEGRITY
 FUNGAL INFECTION, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 INEFFECTIVE COPING
 .H/O PULMONARY EMBOLISM (PE), ACUTE
 .H/O BACTEREMIA
 CHEST PAIN
 OBSTRUCTIVE SLEEP APNEA (OSA)
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:
   22 Gauge - [**2156-12-24**] 04:14 PM
may need PICC catheter when blood
   cultures are cleared which may be reasonable at this time to consider
   completed
   Prophylaxis:
   DVT: Coumadin systemically
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2156-12-29 06:28:00 Physician Resident Progress Note
Chief Complaint:
   24 hour
   events:
     * re-subluxed finger. Started becoming more agitated and anxious,
       accepted 20mg of PO Geodon.  Escalated when told plastic surgery
       would not see her tonight and when patient was coding in another
       room.  Demanded being 4-point restrained and when denied this,
       attempted to leave.  Code purple called twice. Psychiatry called to
       help. Advocated giving 10mg IM Geodon and putting patient in
       restraints, bargained with psych
     * No DVT by UE U/S
     * Panorex complete, read pending
     * To IR for Picc tomorrow (ordered)
     * Plastics to cast hand tomorrow.
     * Need CM to call [**Last Name (un) 3726**] and see if they will take her back if she
       has a guardianship.
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-29**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.8
C (98.2
   HR: 87 (81 - 117) bpm
   BP: 114/60(70) {89/39(40) - 136/77(86)} mmHg
   RR: 28 (10 - 39) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
                  Total In:
                                                                  2,920 mL
                                                                    720 mL
   PO:
                                                                  2,920 mL
                                                                    720 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,125 mL
                                                                    500 mL
   Urine:
                                                                  2,125 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    795 mL
                                                                    220 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 91%
   ABG: ///30/
   Physical Examination --- Patient refused examination this morning.
   Labs / Radiology
   394 K/uL
   9.0 g/dL
   97 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.2 mEq/L
   9 mg/dL
   105 mEq/L
   143 mEq/L
   28.9 %
   8.1 K/uL
        [image002.jpg]
                            [**2156-12-24**]  03:12 AM
                            [**2156-12-24**]  01:59 PM
                            [**2156-12-24**]  10:46 PM
                            [**2156-12-25**]  07:46 AM
                            [**2156-12-26**]  12:35 PM
                            [**2156-12-26**]  09:41 PM
                            [**2156-12-26**]  10:00 PM
                            [**2156-12-26**]  11:36 PM
                            [**2156-12-27**]  04:35 AM
                            [**2156-12-28**]  11:29 AM
   WBC
   5.4
   4.9
   4.9
   4.9
   8.1
   Hct
   27.1
   28.1
   28.6
   27.0
   28.9
   Plt
   [**Telephone/Fax (3) 3655**]07
   394
   Cr
   0.6
   0.6
   0.6
   0.7
   0.6
   0.5
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   35
   35
   Glucose
   96
   89
   88
   89
   109
   107
   97
   Patient refused labs this morning.
   Assessment and Plan: 28 year-old morbidly obese female with hx asthma,
   h/o of DVT/PE, recent admission to ICU for hypercarbic resp failure,
   here after leaving AMA from [**Hospital1 **] with her usual CP, recent fevers,
   and recent documentation of bacteremia.
   .
   # Positive blood cultures: documentation from Shattock shows staph
   simulans and enterococcus.  The enterococcus is resisant to vanc.  The
   two bacteria together are only both sensitive to linezolid and
   rifampin.  As she has no documented fevers, and she currently is
   without fevers.  Now patient has 2 cultures ([**12-22**] and [**12-23**]) in the
   hospital that grew G+ cocci.  Difficulties obtaining blood cultures as
   patient is a difficult stick.  TEE Echo showed no endocarditis or
   valvular vegetations.   Nidus of infection is unclear.  CXR w/no
   infiltrate.  Urine culture negative.  RUE U/S showing partially
   occluded thrombus in cephalic vein, possible nidus of infection.  LUE
   ultrasound shows no DVT.  Dental panorex obtained yesterday, awaiting
   read.
   - continue Linezolid (day #1 = [**12-23**], today is day 7).  Will need to
   treat for 14 days after blood cultures negative
   - continue daily surveillance blood cultures as able
   - f/u dental panorex
   .
   # Psych: history of axis I and axis II disorders. Psych consult and
   assistance with management appreciated.  1^st dose of geodon given
   evening of [**12-27**].  Patient received additional geodon on [**12-28**] and
   [**12-29**].  Guardianship paperwork has been completed by the medical &
   psychiatry teams and is in the hands of the legal department.
   - Geodon 10mg IM Q2 hour PRN agitation. Max 40mg/day. Check EKG for QTc
   prolongation.  Aggressive electrolyte repletion.
   - psych continued involvement (other recs included crushing meds in
   applesauce, searching belongings for meds in light of prior coding on
   floor due to possible ingestion).
   Events during the day: This morning after refusing to talk with the
   entire medical team on morning rounds the patient left her room and
   walked out of the unit, threatening to leave the hospital.  The medical
   team tried to talk her down, but she threatened to hurt others and to
   persist in leaving.  A code purple was called and security escorted the
   patient back to her room and the patient went back to bed.
   Around 1 pm the intern on call was called to the patient
s room by
   nursing staff because of agitation.  The patient was given a time-out
   and after 5 minutes she requested to speak with the physician.  [**Name10 (NameIs) **]
   agreed to go to IR for PICC placement if the physician on call would
   call plastics regarding her hand and speak with her later in the
   evening.  This agreement was made and the patient went to IR.
   Around 5 pm the intern on call went to the patient
s room after
   multiple requests from the patient to speak with the physician.  [**Name10 (NameIs) **]
   intern went to the patient
s bedside and told the patient that
   plastics
 recommendation for her hand remained the splint as they had
   told her yesterday afternoon and that a hard cast was not clinically
   indicated.  The patient became agitated again, raising her voice and
   stating that she was refusing all medical treatments including PICC
   line placement, linezolid treatment, and CPAP.  She requested to be
   transported to another hospital.  The intern reinforced her desire to
   care for the patient and deal with her medical problems and offered the
   patient a time-out, which the patient refused.  The patient then ripped
   the IV out of her hand.  The intern left the patient
s room to give her
   a chance to calm down.  The patient removed all of her monitoring,
   including O2 sat monitor and started to get out of bed.  A code purple
   was called.  Psychiatry and the psychiatric nurse and nurse supervisor
   all came.  A combination of trying to talk down the patient and
   time-outs were attempted.  Dr. [**Last Name (STitle) 3573**] from psychiatry was also
   called and informed.  He was unable to see the patient but stated that
   he was completing a draft behavioral plan in OMR.  Security was
   eventually dismissed and the psychiatric nurse and on call intern
   continued to dialogue with the patient.  The patient continued to
   refuse all medical treatments.  The patient stated that she would
   rather die from bacteremia, bleeding, or lack of oxygen rather than
   accept antibiotics, PICC line placement, or BiPAP/CPAP treatments.
   Ms. [**Known lastname 3569**] became increasingly agitated and threatening and another
   code purple was called.  During this period she hit her right hand on
   the side of the bed and complained of hand pain.  Security came into
   the room and the patient became increasingly agitated.  The intern on
   call asked security to step out, examined the hand, and attempted to
   bargain with the patient regarding BiPAP and O2 sat monitoring by
   offering more pain medication, however, the patient refused.  The
   patient expressed concern regarding her hand and was reassured that
   there did not appear to be a fracture, but that the patient was too
   unstable to have further evaluation at this time.  She was offered an
   ice pack to help with pain and swelling and this was refused.  The
   patient eventually calmed down, security was dismissed, and the
   psychiatric nurse continued to dialogue with the patient.  A code blue
   was called overhead and the intern had to leave the unit.
   Shortly after returning to the unit the intern was informed by a nurse
   that the patient was complaining of chest and abdominal pain and
   generally feeling unwell, however, the patient told the nurse that she
   was refusing EKGs and lab draws.
   While the on call intern was seeing another patient security had to be
   called again as the patient had walked out of her room and out of the
   unit into the hallway.  Nursing staff had followed the patient into the
   hallway while awaiting security arrival.  The patient physically hit 2
   of the nursing staff and spit in the face of one of the nurses.
   Security had to wheel the patient back into her room and bed.  Geodon
   10 mg IM was given.  The patient refused to lay down in bed and stop
   yelling and had to be forcibly placed in 4 point restraints for the
   safety of both the staff and the patient.  The patient continued to
   refuse BiPAP and all other medical treatments.
   Dr. [**First Name4 (NamePattern1) 837**] [**Last Name (NamePattern1) 3747**] from psychiatry eventually came up to the unit to
   evaluate the patient.  She also talked with Dr. [**Last Name (STitle) 3573**] by telephone
   regarding the patient
s current situation and it was decided that if it
   was necessary to chemically restrain the patient that benzos could be
   used and that if necessary (due to benzo use or refusal to wear BiPAP)
   intubation may be necessary.
   .
   #Diarrhea: Cdiff v antibiotic side effect.  C. diff negative x 2.
   - check 3^rd C. diff.
   - Will treat with immodium
   .
   # LUE thrombus: superficial; may be nidus for infection
   - anticoagulated with coumadin
   - continue abx
   # hx PE: Will continue coumadin dose at 1.5 mg daily and attempt to
   obtain labs tomorrow.
   # sleep apnea: has history of somnolence from hypercarbia and
   subsequent intubation when she does not use her BiPAP.
   - pt needs to wear BiPAP at all times while sleeping.  Last night the
   patient refused to wear her BiPAP until 4am.
   .
   # COPD/asthma:
   - nebs/inhalers
   .
   # Anemia: baseline mid to upper 20s.
   - to follow serial Hct
   .
   # Finger subluxation: Plastics consulted.  Per plastics, the finger is
   not truly dislocated.  They recommend a special splint for her swan
   neck deformity, however, the patient has refused this splint.  They do
   not feel that a hard cast is indicated.
   - tylenol/ibuprofen PRN pain
   - ultram prn pain
   - NO percocet for pain given sedating side effects
   .
   # Vaginal yeast infection: miconazole vaginal cream daily x 7 days
   (started [**12-26**])
   .
   # Prophylaxis: Prilosec, heparin/coumadin, bowel regimen
   .
   # FEN: p.o. diet as tolerated
   .
   # Access: PICC was to be placed today by IR, but could not be performed
   due to patient
s body mass and lack of availability of a properly sized
   table.  They will attempt to place a PICC tomorrow.
   .
   # Code Status: Full
   .
   # Dispo: ICU
 the patient requires too much care for the general
   medical floor to handle as her psychiatric disease is not controlled
   and she routinely becomes agitated and refuses to participate in her
   care, even when it comes to potentially life-threatening issues such as
   wearing her BiPAP, taking linezolid for her bacteremia, and refusing
   lab draws to monitor her INR while on warfarin.  Her behavior
   consistently demonstrates that she is not competent to make decisions
   regarding her care.  As demonstrated over the course of the past 24
   hours, the patient is not only a threat to herself, but also to staff
   and to other patients within the ICU as the attention she demands has
   the potential to compromise the care of other patients.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2156-12-28**] 08:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-12-29 11:01:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient with intermittent agitation over last pm managed well with
   psych and housestaff interventions verbally--then across the nigtht-->
   -Patient "re-subluxed' her finger with movement yesterday and had
   significant pain noted across the night.
   -Patient with agitation noted across the night and Geodon given
   -Patient actively trying to leave the ICU and psychiatry working to
   control patient with good response
   24 Hour Events:
 ULTRASOUND - At [**2156-12-28**] 09:00 AM
   doppler studies of left upper extemity, prelim -clot
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: [**4-13**] Mild
   Flowsheet Data as of  [**2156-12-29**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.8
C (98.2
   HR: 87 (81 - 117) bpm
   BP: 114/60(70) {107/50(40) - 136/77(86)} mmHg
   RR: 28 (14 - 39) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
                  Total In:
                                                                  2,920 mL
                                                                    720 mL
   PO:
                                                                  2,920 mL
                                                                    720 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,125 mL
                                                                    500 mL
   Urine:
                                                                  2,125 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    795 mL
                                                                    220 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 91%
   ABG: ///30/
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+, Very difficult exam
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   394 K/uL
   97 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.2 mEq/L
   9 mg/dL
   105 mEq/L
   143 mEq/L
   28.9 %
   8.1 K/uL
        [image002.jpg]
                            [**2156-12-24**]  03:12 AM
                            [**2156-12-24**]  01:59 PM
                            [**2156-12-24**]  10:46 PM
                            [**2156-12-25**]  07:46 AM
                            [**2156-12-26**]  12:35 PM
                            [**2156-12-26**]  09:41 PM
                            [**2156-12-26**]  10:00 PM
                            [**2156-12-26**]  11:36 PM
                            [**2156-12-27**]  04:35 AM
                            [**2156-12-28**]  11:29 AM
   WBC
   5.4
   4.9
   4.9
   4.9
   8.1
   Hct
   27.1
   28.1
   28.6
   27.0
   28.9
   Plt
   [**Telephone/Fax (3) 3655**]07
   394
   Cr
   0.6
   0.6
   0.6
   0.7
   0.6
   0.5
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   35
   35
   Glucose
   96
   89
   88
   89
   109
   107
   97
   Other labs: PT / PTT / INR:21.3/25.4/2.0, CK / CKMB /
   Troponin-T:32//<0.01, Lactic Acid:1.6 mmol/L, Ca++:8.5 mg/dL, Mg++:1.9
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   28 yo female with obesity, hypoventilation , OSA and significant
   intermittent agitation.  She has had worsening agitation and
   dysfunction with non-compliance with medical therapy being required.
   This has been a progressive decline in responsiveness to treatments.
   -WIll continue to pursue guardianship and pathway to care within
   psychiatric facility as this has been clearly the primary insult to
   date.
   -Continue with antibiotics
   -Continue with BIPAP during sleep
   -Continue with Geodon
   Additional active issues to be addressed per housestaff note.
   1)
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
 IMPAIRED SKIN INTEGRITY
 FUNGAL INFECTION, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 INEFFECTIVE COPING
 .H/O PULMONARY EMBOLISM (PE), ACUTE
 .H/O BACTEREMIA
 CHEST PAIN
 OBSTRUCTIVE SLEEP APNEA (OSA)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2156-12-28**] 08:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2156-12-30 05:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Code purple x 3 + security only call x 1
   - IR unable to place PICC, will try again today
   - psych rec abilify 5 mg PO daily (ordered)
   - plastics will not come to splint or reduce finger
   - team meeting this afternoon
   - psych with draft behavioral plan in OMR
   - consider x-ray of L shoulder & R hand [**3-13**] pain
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-30**] 05:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.8
C (100
   HR: 84 (84 - 131) bpm
   BP: 122/68(67) {119/52(67) - 143/90(103)} mmHg
   RR: 20 (13 - 28) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
                  Total In:
                                                                  2,020 mL
                                                                    400 mL
   PO:
                                                                  2,020 mL
                                                                    400 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,450 mL
                                                                      0 mL
   Urine:
                                                                  2,450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -430 mL
                                                                    400 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 89%
   ABG: ////
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
moves all extremities
   Labs / Radiology
   394 K/uL
   9.0 g/dL
   97 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.2 mEq/L
   9 mg/dL
   105 mEq/L
   143 mEq/L
   28.9 %
   8.1 K/uL
        [image002.jpg]
                            [**2156-12-24**]  03:12 AM
                            [**2156-12-24**]  01:59 PM
                            [**2156-12-24**]  10:46 PM
                            [**2156-12-25**]  07:46 AM
                            [**2156-12-26**]  12:35 PM
                            [**2156-12-26**]  09:41 PM
                            [**2156-12-26**]  10:00 PM
                            [**2156-12-26**]  11:36 PM
                            [**2156-12-27**]  04:35 AM
                            [**2156-12-28**]  11:29 AM
   WBC
   5.4
   4.9
   4.9
   4.9
   8.1
   Hct
   27.1
   28.1
   28.6
   27.0
   28.9
   Plt
   [**Telephone/Fax (3) 3655**]07
   394
   Cr
   0.6
   0.6
   0.6
   0.7
   0.6
   0.5
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   35
   35
   Glucose
   96
   89
   88
   89
   109
   107
   97
   Other labs: PT / PTT / INR:21.3/25.4/2.0, CK / CKMB /
   Troponin-T:32//<0.01, Lactic Acid:1.6 mmol/L, Ca++:8.5 mg/dL, Mg++:1.9
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Assessment and Plan: 28 year-old morbidly obese female with hx asthma,
   h/o of DVT/PE, recent admission to ICU for hypercarbic resp failure,
   here after leaving AMA from [**Hospital1 **] with her usual CP, recent fevers,
   and recent documentation of bacteremia.
   .
   # Positive blood cultures: documentation from Shattock shows staph
   simulans and enterococcus.  The enterococcus is resisant to vanc.  The
   two bacteria together are only both sensitive to linezolid and
   rifampin.  As she has no documented fevers, and she currently is
   without fevers.  Now patient has 2 cultures ([**12-22**] and [**12-23**]) in the
   hospital that grew G+ cocci.  Difficulties obtaining blood cultures as
   patient is a difficult stick.  TEE Echo showed no endocarditis or
   valvular vegetations.   Nidus of infection is unclear.  CXR w/no
   infiltrate.  Urine culture negative.  RUE U/S showing partially
   occluded thrombus in cephalic vein, possible nidus of infection.  LUE
   ultrasound shows no DVT.  Dental panorex obtained yesterday, awaiting
   read.
   - continue Linezolid (day #1 = [**12-23**], today is day 7).  Will need to
   treat for 14 days after blood cultures negative
   - continue daily surveillance blood cultures as able
   - f/u dental panorex
   .
   # Psych: history of axis I and axis II disorders. Psych consult and
   assistance with management appreciated.  1^st dose of geodon given
   evening of [**12-27**].  Patient received additional geodon on [**12-28**] and
   [**12-29**].  Guardianship paperwork has been completed by the medical &
   psychiatry teams and is in the hands of the legal department.
   - Geodon 10mg IM Q2 hour PRN agitation. Max 40mg/day. Check EKG for QTc
   prolongation.  Aggressive electrolyte repletion.
   - psych continued involvement (other recs included crushing meds in
   applesauce, searching belongings for meds in light of prior coding on
   floor due to possible ingestion).
   Events during the day: This morning after refusing to talk with the
   entire medical team on morning rounds the patient left her room and
   walked out of the unit, threatening to leave the hospital.  The medical
   team tried to talk her down, but she threatened to hurt others and to
   persist in leaving.  A code purple was called and security escorted the
   patient back to her room and the patient went back to bed.
   Around 1 pm the intern on call was called to the patient
s room by
   nursing staff because of agitation.  The patient was given a time-out
   and after 5 minutes she requested to speak with the physician.  [**Name10 (NameIs) **]
   agreed to go to IR for PICC placement if the physician on call would
   call plastics regarding her hand and speak with her later in the
   evening.  This agreement was made and the patient went to IR.
   Around 5 pm the intern on call went to the patient
s room after
   multiple requests from the patient to speak with the physician.  [**Name10 (NameIs) **]
   intern went to the patient
s bedside and told the patient that
   plastics
 recommendation for her hand remained the splint as they had
   told her yesterday afternoon and that a hard cast was not clinically
   indicated.  The patient became agitated again, raising her voice and
   stating that she was refusing all medical treatments including PICC
   line placement, linezolid treatment, and CPAP.  She requested to be
   transported to another hospital.  The intern reinforced her desire to
   care for the patient and deal with her medical problems and offered the
   patient a time-out, which the patient refused.  The patient then ripped
   the IV out of her hand.  The intern left the patient
s room to give her
   a chance to calm down.  The patient removed all of her monitoring,
   including O2 sat monitor and started to get out of bed.  A code purple
   was called.  Psychiatry and the psychiatric nurse and nurse supervisor
   all came.  A combination of trying to talk down the patient and
   time-outs were attempted.  Dr. [**Last Name (STitle) 3573**] from psychiatry was also
   called and informed.  He was unable to see the patient but stated that
   he was completing a draft behavioral plan in OMR.  Security was
   eventually dismissed and the psychiatric nurse and on call intern
   continued to dialogue with the patient.  The patient continued to
   refuse all medical treatments.  The patient stated that she would
   rather die from bacteremia, bleeding, or lack of oxygen rather than
   accept antibiotics, PICC line placement, or BiPAP/CPAP treatments.
   Ms. [**Known lastname 3569**] became increasingly agitated and threatening and another
   code purple was called.  During this period she hit her right hand on
   the side of the bed and complained of hand pain.  Security came into
   the room and the patient became increasingly agitated.  The intern on
   call asked security to step out, examined the hand, and attempted to
   bargain with the patient regarding BiPAP and O2 sat monitoring by
   offering more pain medication, however, the patient refused.  The
   patient expressed concern regarding her hand and was reassured that
   there did not appear to be a fracture, but that the patient was too
   unstable to have further evaluation at this time.  She was offered an
   ice pack to help with pain and swelling and this was refused.  The
   patient eventually calmed down, security was dismissed, and the
   psychiatric nurse continued to dialogue with the patient.  A code blue
   was called overhead and the intern had to leave the unit.
   Shortly after returning to the unit the intern was informed by a nurse
   that the patient was complaining of chest and abdominal pain and
   generally feeling unwell, however, the patient told the nurse that she
   was refusing EKGs and lab draws.
   While the on call intern was seeing another patient security had to be
   called again as the patient had walked out of her room and out of the
   unit into the hallway.  Nursing staff had followed the patient into the
   hallway while awaiting security arrival.  The patient physically hit 2
   of the nursing staff and spit in the face of one of the nurses.
   Security had to wheel the patient back into her room and bed.  Geodon
   10 mg IM was given.  The patient refused to lay down in bed and stop
   yelling and had to be forcibly placed in 4 point restraints for the
   safety of both the staff and the patient.  The patient continued to
   refuse BiPAP and all other medical treatments.
   Dr. [**First Name4 (NamePattern1) 837**] [**Last Name (NamePattern1) 3747**] from psychiatry eventually came up to the unit to
   evaluate the patient.  She also talked with Dr. [**Last Name (STitle) 3573**] by telephone
   regarding the patient
s current situation and it was decided that if it
   was necessary to chemically restrain the patient that benzos could be
   used and that if necessary (due to benzo use or refusal to wear BiPAP)
   intubation may be necessary.
   .
   #Diarrhea: Cdiff v antibiotic side effect.  C. diff negative x 2.
   - check 3^rd C. diff.
   - Will treat with immodium
   .
   # LUE thrombus: superficial; may be nidus for infection
   - anticoagulated with coumadin
   - continue abx
   # hx PE: Will continue coumadin dose at 1.5 mg daily and attempt to
   obtain labs tomorrow.
   # sleep apnea: has history of somnolence from hypercarbia and
   subsequent intubation when she does not use her BiPAP.
   - pt needs to wear BiPAP at all times while sleeping.  Last night the
   patient refused to wear her BiPAP until 4am.
   .
   # COPD/asthma:
   - nebs/inhalers
   .
   # Anemia: baseline mid to upper 20s.
   - to follow serial Hct
   .
   # Finger subluxation: Plastics consulted.  Per plastics, the finger is
   not truly dislocated.  They recommend a special splint for her swan
   neck deformity, however, the patient has refused this splint.  They do
   not feel that a hard cast is indicated.
   - tylenol/ibuprofen PRN pain
   - ultram prn pain
   - NO percocet for pain given sedating side effects
   .
   # Vaginal yeast infection: miconazole vaginal cream daily x 7 days
   (started [**12-26**])
   .
   # Prophylaxis: Prilosec, heparin/coumadin, bowel regimen
   .
   # FEN: p.o. diet as tolerated
   .
   # Access: PICC was to be placed today by IR, but could not be performed
   due to patient
s body mass and lack of availability of a properly sized
   table.  They will attempt to place a PICC tomorrow.
   .
   # Code Status: Full
   .
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-12-30 10:24:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient with continued outbursts, she has had violent attacks in
   physicians and nurses across the day and night last night with physical
   attack executed against resident yesterday morning and nurses x2 last
   night.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-30**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.3
C (99.2
   HR: 84 (84 - 131) bpm
   BP: 122/68(67) {119/52(67) - 143/90(103)} mmHg
   RR: 20 (13 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
                  Total In:
                                                                  2,020 mL
                                                                    400 mL
   PO:
                                                                  2,020 mL
                                                                    400 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,450 mL
                                                                    300 mL
   Urine:
                                                                  2,450 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -430 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ////
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   394 K/uL
   97 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.2 mEq/L
   9 mg/dL
   105 mEq/L
   143 mEq/L
   28.9 %
   8.1 K/uL
        [image002.jpg]
                            [**2156-12-24**]  03:12 AM
                            [**2156-12-24**]  01:59 PM
                            [**2156-12-24**]  10:46 PM
                            [**2156-12-25**]  07:46 AM
                            [**2156-12-26**]  12:35 PM
                            [**2156-12-26**]  09:41 PM
                            [**2156-12-26**]  10:00 PM
                            [**2156-12-26**]  11:36 PM
                            [**2156-12-27**]  04:35 AM
                            [**2156-12-28**]  11:29 AM
   WBC
   5.4
   4.9
   4.9
   4.9
   8.1
   Hct
   27.1
   28.1
   28.6
   27.0
   28.9
   Plt
   [**Telephone/Fax (3) 3655**]07
   394
   Cr
   0.6
   0.6
   0.6
   0.7
   0.6
   0.5
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   35
   35
   Glucose
   96
   89
   88
   89
   109
   107
   97
   Other labs: PT / PTT / INR:21.3/25.4/2.0, CK / CKMB /
   Troponin-T:32//<0.01, Lactic Acid:1.6 mmol/L, Ca++:8.5 mg/dL, Mg++:1.9
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   28 yo female with significant respiratory failure in the setting of
   obesity hypoventilation and hypercarbic respiratory failure.  She has
   reasonable stability of ventilatory support with BIPAP 8/8
   demonstrating good effect in terms of maintaining ventilation and
   oxygenation.  She has had continued spitting at and attacking of staff
   throughout her time last night--this represents an unacceptable level
   of threat and violence making the environment unsafe for staff
   attempting to provide medial care to the staff.  In addition, it has
   made our capacity to maintain medical care for her unaccaptable with
   physical refusal of care.  We do, however, have guardianship [**Name2 (NI) 3765**]
   on an emergency basis and will continue to provide necessary medical
   care in an environment that allows adequate medical care and a safe
   environment for out care staff of nurses and physicians.
   1)Endocarditis-
   -Will follow up blood cultures to establish the evidence for a
   persistenc or absence of persistent bacteremia
   -Will continue Linezolid at current dosing
   -Encouragingly we have seen an absence of fevers
   -Will check dental panorex film today
   -Patient refusing antibiotics today--will have to clarify patient
   current legal status/compentence
   2)Bipolar Disorder-
   -Continue with Geodon dosing
   -Will continue to have standing sitter to continue and security for any
   time she is out of restraints
   -Psychiatry will provide support in team meeting this afternoon with
   guidance on the alternative interventions they have to offer
   -Will clarify with legal the status of her guardianship to consider
   placment of IV catheter against her will.
   -Sedation as needed
   3)DVT-
   -Comadin to continue
   -INR needed but blood draw refused
   -Will need blood draw to titrate therapy
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
 IMPAIRED SKIN INTEGRITY
 FUNGAL INFECTION, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 INEFFECTIVE COPING
 .H/O PULMONARY EMBOLISM (PE), ACUTE
 .H/O BACTEREMIA
 CHEST PAIN
 OBSTRUCTIVE SLEEP APNEA (OSA)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2156-12-31 06:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2156-12-30**] 04:00 PM
 PICC LINE - START [**2156-12-30**] 04:00 PM
   Had PICC line placed
   In 4 point restraints until afternoon
   Okay overnight with nasal bipap
   Continues to complain of L shoulder pain, burning at PICC line site
   Team meeting with psych, pt is requesting a copy of treatment plan
   Coumadin dose increased to 3mg qday
   Dental to see pt in AM
   At 6:30 AM this morning, pt was noted to be unresponsive by nursing.  A
   resident, [**First Name4 (NamePattern1) 3794**] [**Last Name (NamePattern1) 1872**], went to evaluate patient.  She was not
   responding to verbal stimuli and not responding to nailbed pressure or
   sternal rub.  When assessing muscle tone, arm had some tone, not
   completely flaccid.  When dropping her arm, it did not fall limply.
   Discussion in the room was centered around a particular nurse ( a
   favorite of hers)  not being able to care for Ms. [**Known lastname **] if she was
   unresponsive today.  After 1-2 minutes, Ms. [**Known lastname **] [**Last Name (Titles) 3795**] on her own.
   She complained of some confusion and asked which hospital she was in.
   She was otherwise hemodynamically stable with O2 sats in the 90s.
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-31**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.3
C (99.2
   HR: 87 (84 - 102) bpm
   BP: 98/48(93) {98/48(57) - 134/79(93)} mmHg
   RR: 23 (15 - 35) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
                  Total In:
                                                                    980 mL
                                                                    700 mL
   PO:
                                                                    980 mL
                                                                    700 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                    900 mL
   Urine:
                                                                  1,550 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -570 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: moves all extremities
   Labs / Radiology
   376 K/uL
   8.3 g/dL
   115 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.8 mEq/L
   5 mg/dL
   104 mEq/L
   143 mEq/L
   26.3 %
   5.6 K/uL
        [image002.jpg]
                            [**2156-12-24**]  01:59 PM
                            [**2156-12-24**]  10:46 PM
                            [**2156-12-25**]  07:46 AM
                            [**2156-12-26**]  12:35 PM
                            [**2156-12-26**]  09:41 PM
                            [**2156-12-26**]  10:00 PM
                            [**2156-12-26**]  11:36 PM
                            [**2156-12-27**]  04:35 AM
                            [**2156-12-28**]  11:29 AM
                            [**2156-12-30**]  02:31 PM
   WBC
   4.9
   4.9
   4.9
   8.1
   5.6
   Hct
   28.1
   28.6
   27.0
   28.9
   26.3
   Plt
   396
   444
   407
   394
   376
   Cr
   0.6
   0.6
   0.7
   0.6
   0.5
   0.5
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   35
   35
   Glucose
   89
   88
   89
   109
   107
   97
   115
   Other labs: PT / PTT / INR:16.0/23.4/1.4, CK / CKMB /
   Troponin-T:109//<0.01, ALT / AST:21/30, Alk Phos / T Bili:54/0.2,
   Amylase / Lipase:41/27, Lactic Acid:1.6 mmol/L, Albumin:3.3 g/dL,
   LDH:195 IU/L, Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   Assessment and Plan: 28 year-old morbidly obese female with hx asthma,
   h/o of DVT/PE, recent admission to ICU for hypercarbic resp failure,
   here after leaving AMA from [**Hospital1 **] with her usual CP, recent fevers,
   and recent documentation of bacteremia.
   .
   # Psych: history of axis I and axis II disorders. Psych consult and
   assistance with management appreciated.  Geodon 10 mg IM given x 2
   yesterday.  Ativan was not needed.  As patient has physically harmed
   medical team members and continues to refuse necessary medical
   treatments (IV access, antibiotics) this morning, she will need to
   remain in restraints with a sitter and have security present if/when
   she comes out of restraints.  Will need to consider foley placement if
   she continues to soil herself to spite staff.
   - Guardianship paperwork in the hands of the legal department;
   attempting to contact them regarding progress.
   - Needs EKG & electrolytes today after receiving Geodon last night.
   - Will review past psych recommendations and discuss in team meeting
   today.  Some recommendations (med crushing, no silverware) have not
   been routinely followed.  Need to be consistent with patient and will
   post treatment plan for all staff to review before participating in
   patient
s care.
   # Positive blood cultures: documentation from Shattock shows staph
   simulans and enterococcus.  The enterococcus is resistant to vanc.  The
   two bacteria together are only both sensitive to linezolid and
   rifampin.  Two blood cultures here are sensitive to vancomycin.   TEE
   Echo showed no endocarditis or valvular vegetations.   Nidus of
   infection is unclear.  CXR w/no infiltrate.  Urine culture negative.
   RUE U/S showing partially occluded thrombus in cephalic vein, possible
   nidus of infection.  LUE ultrasound shows no DVT.  Dental panorex
   obtained read pending.  On reviewing the medication administration
   record, the patient has only been getting one dose of linezolid per day
   for the last few days (instead of two).  This pattern is concerning for
   possible development of antibiotic resistance.   As the patient is
   refusing oral medication, will need to place a PICC line and can likely
   treat with vancomycin given culture data here.
   - PICC line placement today with initiation of vancomycin treatment.
   - If unable to get PICC placement, continue Linezolid (day #1 = [**12-23**],
   today is day 8) today.  Will need to treat for 14 days after blood
   cultures negative
   - continue daily surveillance blood cultures as able
   - f/u dental panorex
   .
   .
   # sleep apnea: has history of somnolence from hypercarbia and
   subsequent intubation when she does not use her BiPAP.
   - pt needs to wear BiPAP at all times while sleeping.  Last night the
   patient refused to wear her BiPAP and it had to be forcibly placed
   while she was in restraints.
   .
   # Left shoulder pain: Patient complained of left shoulder pain after
   being placed in restraints last night and continues to complain of the
   same today.  Unclear if this is an attempt to get attention or is
   real.  Will consider performing x-ray imaging to rule out dislocation
   when patient is more stable to be off restraints for x-ray.  Security
   will need to be on hand.
   .
   #Diarrhea: More likely antibiotic side effect.  C. diff negative x 2.
   - check 3^rd C. diff.
   - Will treat with immodium
   .
   # LUE thrombus: superficial; may be nidus for infection
   - anticoagulated with coumadin
   - continue abx
   # hx PE: Will continue coumadin dose at 1.5 mg daily and attempt to
   obtain labs today after PICC placement.
   .
   # COPD/asthma:
   - nebs/inhalers
   .
   # Anemia: baseline mid to upper 20s.
   - to follow serial Hct
   .
   # Finger subluxation: Plastics consulted.  Per plastics, the finger is
   not truly dislocated.  They recommend a special splint for her swan
   neck deformity, however, the patient has refused this splint.  They do
   not feel that a hard cast is indicated.
   - tylenol/ibuprofen PRN pain
   - ultram prn pain
   - NO percocet for pain given sedating side effects
   .
   # Vaginal yeast infection: miconazole vaginal cream daily x 7 days
   (started [**12-26**])
   .
   # Prophylaxis: Prilosec, heparin/coumadin, bowel regimen
   .
   # FEN: p.o. diet as tolerated
   .
   # Access: PICC line placement by IR today.  Patient is difficult to
   obtain peripheral access from.
   .
   # Code Status: Full
   .
   # Dispo: ICU.  Based on her poor insight and irrational and reactive
   behavior, patient is not deemed capable of making medical decisions.
   Guardianship in progress.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-12-30**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-12-31 11:40:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   Bipolar Disorder
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2156-12-30**] 04:00 PM
 PICC LINE - START [**2156-12-30**] 04:00 PM--placed without event
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2156-12-31**] 11:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.9
C (98.4
   HR: 91 (82 - 102) bpm
   BP: 126/62(77) {98/48(57) - 129/76(93)} mmHg
   RR: 17 (15 - 35) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
                  Total In:
                                                                    980 mL
                                                                  1,180 mL
   PO:
                                                                    980 mL
                                                                  1,180 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                  1,400 mL
   Urine:
                                                                  1,550 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -570 mL
                                                                   -220 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   376 K/uL
   115 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.8 mEq/L
   5 mg/dL
   104 mEq/L
   143 mEq/L
   26.3 %
   5.6 K/uL
        [image002.jpg]
                            [**2156-12-24**]  01:59 PM
                            [**2156-12-24**]  10:46 PM
                            [**2156-12-25**]  07:46 AM
                            [**2156-12-26**]  12:35 PM
                            [**2156-12-26**]  09:41 PM
                            [**2156-12-26**]  10:00 PM
                            [**2156-12-26**]  11:36 PM
                            [**2156-12-27**]  04:35 AM
                            [**2156-12-28**]  11:29 AM
                            [**2156-12-30**]  02:31 PM
   WBC
   4.9
   4.9
   4.9
   8.1
   5.6
   Hct
   28.1
   28.6
   27.0
   28.9
   26.3
   Plt
   396
   444
   407
   394
   376
   Cr
   0.6
   0.6
   0.7
   0.6
   0.5
   0.5
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   35
   35
   Glucose
   89
   88
   89
   109
   107
   97
   115
   Other labs: PT / PTT / INR:16.0/23.4/1.4, CK / CKMB /
   Troponin-T:109//<0.01, ALT / AST:21/30, Alk Phos / T Bili:54/0.2,
   Amylase / Lipase:41/27, Lactic Acid:1.6 mmol/L, Albumin:3.3 g/dL,
   LDH:195 IU/L, Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   28 yo female with persistent and intermitted episodes of attention
   seeking behavior with management plan being followed as recommended by
   psychiatry team.  She has maintained stable ventilatory status with
   BIPAP continued and with PICC line placment patient able to have long
   term antibiotcs provided for persistent bacteremia.
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)-
   4 points or security at bedside
   Appreciate psychiatry plan and will use Geodon and transition to
   Droperidol/Benzo at their request
 IMPAIRED SKIN INTEGRITY
 FUNGAL INFECTION, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 INEFFECTIVE COPING
 .H/O PULMONARY EMBOLISM (PE), ACUTE-
   -Return to systemic anticoagulation is needed
   -With aggressive patient with combativeness and risk of pulling IV
   catheters and real risk for self and staff injury in the setting of
   anticoagulation will hold on IV heparin
   -Coumadin taken yesterday but not taken today
 .H/O BACTEREMIA-
   -Continue vancomycin for 6 week course in the setting of reassuring TEE
   -Will need Linezolid to continue but patient currently refusing
 CHEST PAIN
 OBSTRUCTIVE SLEEP APNEA (OSA)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-12-30**] 04:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2157-01-01 05:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
     * seen by dental - no abscess
     * called security several times, gave ativan 0.5mg 2x, gave
       droperidol 1.25mg 1x and did not need restraints.
     * on heparin gtt to bridge sub-therapeutic inr
     * ua sent for complaint of increased frequency, urgency.
     * Refused monitors overnight
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Antibiotics:
   Linezolid
   Infusions:
   Heparin Sodium - 3,250 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2156-12-31**] 06:00 PM
   Heparin Sodium - [**2156-12-31**] 06:49 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-1-1**] 05:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.1
   HR: 92 (82 - 103) bpm
   BP: 115/55(66) {101/49(64) - 126/76(86)} mmHg
   RR: 27 (13 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
             Total In:
                                                                  2,019 mL
                                                                    683 mL
   PO:
                                                                  1,980 mL
                                                                    500 mL
   TF:
   IVF:
                                                                     39 mL
                                                                    183 mL
   Blood products:
   Total out:
                                                                  2,650 mL
                                                                      0 mL
   Urine:
                                                                  2,650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -631 mL
                                                                    683 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Bipap mask
   SpO2: 96%
   ABG: ////
   Physical Examination
   General Appearance: Overweight / Obese, NAD.
   Head, Ears, Nose, Throat: NCAT
   Cardiovascular: Distant heart sounds, RRR, no audible murmur
   Respiratory / Chest: Decreased breath sounds b/l
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: R picc insertion site CDI. Small area of ecchymosis just
   distal to PICC insertion site.
   Skin:  Not assessed
   Neurologic: Responds to: moves all extremities
   Labs / Radiology
   333 K/uL
   8.6 g/dL
   113 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.9 mEq/L
   8 mg/dL
   103 mEq/L
   140 mEq/L
   27.3 %
   6.5
        [image002.jpg]
                            [**2156-12-24**]  01:59 PM
                            [**2156-12-24**]  10:46 PM
                            [**2156-12-25**]  07:46 AM
                            [**2156-12-26**]  12:35 PM
                            [**2156-12-26**]  09:41 PM
                            [**2156-12-26**]  10:00 PM
                            [**2156-12-26**]  11:36 PM
                            [**2156-12-27**]  04:35 AM
                            [**2156-12-28**]  11:29 AM
                            [**2156-12-30**]  02:31 PM
   WBC
   4.9
   4.9
   4.9
   8.1
   5.6
   Hct
   28.1
   28.6
   27.0
   28.9
   26.3
   Plt
   396
   444
   407
   394
   376
   Cr
   0.6
   0.6
   0.7
   0.6
   0.5
   0.5
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   35
   35
   Glucose
   89
   88
   89
   109
   107
   97
   115
   Other labs: PT / PTT / INR:18.1/150/1.7
   Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   Assessment and Plan: 28 year-old morbidly obese female with hx asthma,
   h/o of DVT/PE, recent admission to ICU for hypercarbic resp failure,
   here after leaving AMA from [**Hospital1 **] with her usual CP, recent fevers,
   and recent documentation of bacteremia.
   .
   #1 Psych: history of axis I and axis II disorders. Psych consult and
   assistance with management appreciated.  As patient has physically
   harmed medical team members and continues to refuse necessary medical
   treatments (IV access, antibiotics) there will be a low threshold to
   use restraints and give her IM Geodon if she becomes agitated and
   aggressive.  Droperidol and Ativan are also options for acute agitation
   if needed.
   - give her a 20 minute cool-off for initial agitation (do not try to
   reason through things, only makes her more agitated), return after 20
   minutes to discuss care
   - encourage distraction techniques (tv, music)
   - Acute agitation: droperidol 1.25mg IV or ativan 1-2 mg IV
   - MUST wear bipap if ANY sedating meds given
   - hospital security observation 24/7
   - Daily f/u psych recommendations for change in plan
   - Geodon 10mg IM for
   - Guardianship paperwork in the hands of the legal department; at this
   point we are legally allowed to provide care against her will only in
   an emergency situation. Otherwise give care as medically indicated and
   patient can refuse if she chooses.
   - EKG & electrolytes if receives Geodon or droperidol
   - d/w psychiatry how to amend plan to include monitoring
   #2 Positive blood cultures: documentation from Shattock shows staph
   simulans and enterococcus.  The enterococcus is resistant to vanc.  The
   two bacteria together are only both sensitive to linezolid and
   rifampin.  Two blood cultures here are sensitive to vancomycin.   TEE
   Echo showed no endocarditis or valvular vegetations.   Nidus of
   infection is unclear.  CXR w/no infiltrate.  Urine culture negative.
   RUE U/S showing partially occluded thrombus in cephalic vein, possible
   nidus of infection.  LUE ultrasound shows no DVT.  Dental panorex
   obtained read pending.  On reviewing the medication administration
   record, the patient has only been getting one dose of linezolid per day
   for the last few days (instead of two) because of mediation refusal.
   This pattern is concerning for possible development of antibiotic
   resistance, and this has been explained to the patient.  Dental panorex
   negative for abscess.
   - PICC line placement yesterday, continue Linezolid for 14 days until
   last negative blood culture (currently [**12-23**] which would make final
   dose on [**1-5**]). Have discussed with patient importance of taking
   antibiotics as scheduled, yet patient continues to refuse treatment.
   Continue to offer antibiotics until 14 day course is complete.
   - continue daily surveillance blood cultures as able
   .
   .
   #3 sleep apnea: has history of somnolence from hypercarbia and
   subsequent intubation when she does not use her BiPAP.
   -          pt needs to wear BiPAP at all times while sleeping.  Whether
   we can force her to do this against her will is unclear at this point
   (is it a medical emergency?) Need to discuss with psychiatry.
   #4 Left shoulder pain: Patient complained of left shoulder pain after
   being placed in restraints last night and continues to complain of the
   same today.  Unclear if this is an attempt to get attention or is real.
   Patient has full ROM of shoulder. Unnecessary to have films at this
   point.  Motrin and outpatient PT.
   .
   #Diarrhea: More likely antibiotic side effect.  C. diff negative x 2.
   - check 3^rd C. diff.
   - Will treat with immodium
   .
   # LUE thrombus: superficial; may be nidus for infection
   - anticoagulated with coumadin, although subtherapeutic at this point.,
   bridging w/heparin but PTT now 150
 to reduce heparin drip.
   - continue abx
   # hx PE: Subtherapeutic.
   - heparin gtt until patient takes meds regularly and INR is
   therapeutic.
   .
   # COPD/asthma:
   - nebs/inhalers
   .
   # Anemia: baseline mid to upper 20s.
   - to follow serial Hct
   .
   # Finger subluxation: Plastics consulted.  Per plastics, the finger is
   not truly dislocated.  They recommend a special splint for her swan
   neck deformity, however, the patient has refused this splint.  They do
   not feel that a hard cast is indicated.
   - tylenol/ibuprofen PRN pain
   - ultram prn pain
   - NO percocet for pain given sedating side effects
   .
   # Vaginal yeast infection: miconazole vaginal cream daily x 7 days
   (started [**12-26**])
   .
   # Prophylaxis: Prilosec, heparin/coumadin, bowel regimen held b/c of
   diarrhea
   .
   # FEN: p.o. diet as tolerated
   .
   # Access: PICC line placement by IR yesterday.
   .
   # Code Status: Full
   .
   # Dispo: ICU.  Based on her poor insight and irrational and reactive
   behavior, patient is not deemed capable of making medical decisions.
   Guardianship in progress.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-12-30**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Critical Care
   Present for key portions of history and exam. Agree with Dr.
   [**Last Name (STitle) 3824**]
s plan as above.  Patient is currently manageable and has
   consented to take linezolid as long as we start diflucan for
   vaginal/groin [**Female First Name (un) **] infection.  Chest is clear.  We are continuing
   abx and anticoag, but she is intermittently refusing lab tests so
   assessment of coag status is compromised.
   Time spent: 40
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 56**] [**Last Name (NamePattern1) 37**], MD
   on:[**2157-1-1**] 13:51 ------

2157-01-02 05:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Diflucan PO ordered, but pt. fell asleep & didn't take
   - refused linezolid all day
   - "unresponsive" at 10 pm but O2 sats in mid-90s without BiPAP or nasal
   canula
   - refused morning blood draw for PTT, linezolid, and warfarin and now
   threatening to have PICC line removed.
   - droperidol and ativan prn (not needed)
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,850 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-1-2**] 05:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 93 (85 - 107) bpm
   BP: 119/43(60) {93/40(49) - 119/66(75)} mmHg
   RR: 32 (19 - 32) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
             Total In:
                                                                  1,584 mL
                                                                     96 mL
   PO:
                                                                    950 mL
             TF:
   IVF:
                                                                    634 mL
                                                                     96 mL
   Blood products:
   Total out:
                                                                  2,025 mL
                                                                      0 mL
   Urine:
                                                                  2,025 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -441 mL
                                                                     96 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 88%
   ABG: ///30/
   Physical Examination
   General Appearance: Overweight / Obese, NAD.
   Head, Ears, Nose, Throat: NCAT
   Cardiovascular: Distant heart sounds, RRR, no audible murmur
   Respiratory / Chest: Decreased breath sounds b/l
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: R picc insertion site CDI. Small area of ecchymosis just
   distal to PICC insertion site.
   Skin:  Not assessed
   Neurologic: Responds to: moves all extremities
   Labs / Radiology
   333 K/uL
   8.6 g/dL
   113 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.9 mEq/L
   8 mg/dL
   103 mEq/L
   140 mEq/L
   27.3 %
   6.5 K/uL
        [image002.jpg]
                            [**2156-12-24**]  10:46 PM
                            [**2156-12-25**]  07:46 AM
                            [**2156-12-26**]  12:35 PM
                            [**2156-12-26**]  09:41 PM
                            [**2156-12-26**]  10:00 PM
                            [**2156-12-26**]  11:36 PM
                            [**2156-12-27**]  04:35 AM
                            [**2156-12-28**]  11:29 AM
                            [**2156-12-30**]  02:31 PM
                            [**2157-1-1**]  07:33 AM
   WBC
   4.9
   4.9
   4.9
   8.1
   5.6
   6.5
   Hct
   28.1
   28.6
   27.0
   28.9
   26.3
   27.3
   Plt
   396
   444
   407
   394
   376
   333
   Cr
   0.6
   0.7
   0.6
   0.5
   0.5
   0.7
   TropT
   <0.01
   <0.01
   TCO2
   35
   35
   Glucose
   88
   89
   109
   107
   97
   115
   113
   Other labs: PT / PTT / INR:17.5/113.8/1.6, CK / CKMB /
   Troponin-T:109//<0.01, ALT / AST:21/30, Alk Phos / T Bili:54/0.2,
   Amylase / Lipase:41/27, Lactic Acid:1.6 mmol/L, Albumin:3.3 g/dL,
   LDH:195 IU/L, Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   Assessment and Plan: 28 year-old morbidly obese female with hx asthma,
   h/o of DVT/PE, recent admission to ICU for hypercarbic resp failure,
   here after leaving AMA from [**Hospital1 **] with her usual CP, recent fevers,
   and recent documentation of bacteremia.
   .
   #1 Psych: history of axis I and axis II disorders. Psych consult and
   assistance with management appreciated.  As patient has physically
   harmed medical team members and continues to refuse necessary medical
   treatments (IV access, antibiotics) there will be a low threshold to
   use restraints and give her IM Geodon if she becomes agitated and
   aggressive.  Droperidol and Ativan are also options for acute agitation
   if needed.
   - give her a 20 minute cool-off for initial agitation (do not try to
   reason through things, only makes her more agitated), return after 20
   minutes to discuss care
   - encourage distraction techniques (tv, music)
   - Acute agitation: droperidol 1.25mg IV or ativan 1-2 mg IV
   - MUST wear bipap if ANY sedating meds given
   - hospital security observation 24/7
   - Daily f/u psych recommendations for change in plan
   - Geodon 10mg IM for
   - Guardianship paperwork in the hands of the legal department; at this
   point we are legally allowed to provide care against her will only in
   an emergency situation. Otherwise give care as medically indicated and
   patient can refuse if she chooses.
   - EKG & electrolytes if receives Geodon or droperidol
   - d/w psychiatry how to amend plan to include monitoring
   #2 Positive blood cultures: documentation from Shattock shows staph
   simulans and enterococcus.  The enterococcus is resistant to vanc.  The
   two bacteria together are only both sensitive to linezolid and
   rifampin.  Two blood cultures here are sensitive to vancomycin.   TEE
   Echo showed no endocarditis or valvular vegetations.   Nidus of
   infection is unclear.  CXR w/no infiltrate.  Urine culture negative.
   RUE U/S showing partially occluded thrombus in cephalic vein, possible
   nidus of infection.  LUE ultrasound shows no DVT.  Dental panorex
   negative for dental abscess.  The patient has only sporadically been
   getting linezolid, and did not receive any at all yesterday (secondary
   to medication refusal).  This pattern is concerning for possible
   development of antibiotic resistance, and resurgence of bacteremia, and
   this has been explained to the patient but she still refuses, even
   after being offered diflucan.
    - Continue Linezolid for 14 days until last negative blood culture
   (currently [**12-23**] which would make final dose on [**1-5**]). Have discussed
   with patient importance of taking antibiotics as scheduled, yet patient
   continues to refuse treatment.  Continue to offer antibiotics until 14
   day course is complete.  If patient continues to take antibiotic
   sporadically, may have to revisit appropriateness of treatment.
   - continue daily surveillance blood cultures as able
   .
   #3 sleep apnea: has history of somnolence from hypercarbia and
   subsequent intubation when she does not use her BiPAP.
   -          pt needs to wear BiPAP at all times while sleeping.  Whether
   we can force her to do this against her will is unclear at this point
   (is it a medical emergency?) Need to discuss with psychiatry.
   -          Patient did not have any difficulties with desaturation off
   oxygen last night, though slept most of the night on her stomach.
   -          Increasing evidence that many of the patient
unresponsive
 spells may be psychogenic and not truly medical
   emergencies.
   #4 Left shoulder pain: Patient complained of left shoulder pain after
   being placed in restraints last night and continues to complain of the
   same today.  Unclear if this is an attempt to get attention or is real.
   Patient has full ROM of shoulder. Unnecessary to have films at this
   point.  Motrin and outpatient PT.
   .
   #Diarrhea: More likely antibiotic side effect.  C. diff negative x 2.
   - check 3^rd C. diff.
   - Will treat with immodium
   .
   # LUE thrombus: superficial; may be nidus for infection
   - anticoagulated with coumadin, although subtherapeutic at this point.,
   bridging w/heparin but PTT now 150
 to reduce heparin drip.
   - continue abx
   # hx PE: Subtherapeutic.
   - heparin gtt until patient takes meds regularly and INR is
   therapeutic.
   .
   # COPD/asthma:
   - nebs/inhalers
   .
   # Anemia: baseline mid to upper 20s.
   - to follow serial Hct
   .
   # Finger subluxation: Plastics consulted.  Per plastics, the finger is
   not truly dislocated.  They recommend a special splint for her swan
   neck deformity, however, the patient has refused this splint.  They do
   not feel that a hard cast is indicated.
   - tylenol/ibuprofen PRN pain
   - ultram prn pain
   - NO percocet for pain given sedating side effects
   .
   # Vaginal yeast infection: miconazole vaginal cream daily x 7 days
   (started [**12-26**])
   .
   # Prophylaxis: Prilosec, heparin/coumadin, bowel regimen held b/c of
   diarrhea
   .
   # FEN: p.o. diet as tolerated
   .
   # Access: PICC line placed [**12-30**].
   .
   # Code Status: Full
   .
   # Dispo: ICU.  Based on her poor insight and irrational and reactive
   behavior, patient is not deemed capable of making medical decisions.
   Guardianship in progress.  She continues to refuse medical treatments
   and it is becoming increasingly unclear to what extent she is
   benefiting from her current care setting as she is not engaged in her
   medical care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-12-30**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Critical Care
   Present for key portions of history and exam. Agree with plan as
   outlined. She is again refusing abx and wants lines d/c
d . We will try
   to re-approach her after time to decompress.  Psyche will return
   tomorrow
 Discharge may be best option given how difficult it is to
   manage her care.
   Time spent 30 min
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 56**] [**Last Name (NamePattern1) 37**], MD
   on:[**2157-1-2**] 13:52 ------

2157-01-03 05:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt refused heparin gtt (was subtherapeutic on coumadin).  But did take
   Coumadin last night.
   At 8:30pm, pt became acutely agitated when instructed to wear bipap.
   She had fallen asleep earlier and desatted to 50s.  She exhibited
   aggressive behavior by pushing equipment (cart) in the room and was
   yelling and swearing.  Due to her aggressive behavior and concerns for
   staff safety, she was put in 4-point restraints.  She remained in
   restraints for a short time before staff felt that it was safe to
   remove them.  Pt apologized for behavior.
   In the morning she refused to have labs drawn (from PICC line), stating
   that she would agree to have them drawn if the security guards would be
   removed.
   Became agitated again in early afternoon, sat up in bed, and security
   was called.  She received droperidol and ativan.  Restraints were not
   needed.
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,850 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2157-1-2**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-1-3**] 05:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 80 (80 - 130) bpm
   BP: 113/86(93) {89/42(55) - 113/86(93)} mmHg
   RR: 26 (11 - 35) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
             Total In:
                                                                  1,943 mL
                                                                    100 mL
   PO:
                                                                  1,500 mL
             TF:
   IVF:
                                                                    443 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,850 mL
                                                                      0 mL
   Urine:
                                                                  1,850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     93 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///30/
   Physical Examination  -  Patient refused exam (prior exam below)
   General Appearance: Overweight / Obese, NAD.
   Head, Ears, Nose, Throat: NCAT
   Cardiovascular: Distant heart sounds, RRR, no audible murmur
   Respiratory / Chest: Decreased breath sounds b/l
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: R picc insertion site CDI. Small area of ecchymosis just
   distal to PICC insertion site.
   Skin:  Not assessed
   Neurologic: Responds to: moves all extremities
   Labs / Radiology
   336 K/uL
   8.7 g/dL
   114 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.0 mEq/L
   10 mg/dL
   105 mEq/L
   143 mEq/L
   27.7 %
   5.9 K/uL
        [image002.jpg]
                            [**2156-12-25**]  07:46 AM
                            [**2156-12-26**]  12:35 PM
                            [**2156-12-26**]  09:41 PM
                            [**2156-12-26**]  10:00 PM
                            [**2156-12-26**]  11:36 PM
                            [**2156-12-27**]  04:35 AM
                            [**2156-12-28**]  11:29 AM
                            [**2156-12-30**]  02:31 PM
                            [**2157-1-1**]  07:33 AM
                            [**2157-1-2**]  09:40 AM
   WBC
   4.9
   4.9
   4.9
   8.1
   5.6
   6.5
   5.9
   Hct
   28.1
   28.6
   27.0
   28.9
   26.3
   27.3
   27.7
   Plt
   396
   444
   407
   394
   376
   333
   336
   Cr
   0.6
   0.7
   0.6
   0.5
   0.5
   0.7
   0.6
   TropT
   <0.01
   TCO2
   35
   35
   Glucose
   88
   89
   109
   107
   97
   115
   113
   114
   Other labs: PT / PTT / INR:18.8/72.0/1.7, CK / CKMB /
   Troponin-T:109//<0.01, ALT / AST:21/30, Alk Phos / T Bili:54/0.2,
   Amylase / Lipase:41/27, Lactic Acid:1.6 mmol/L, Albumin:3.3 g/dL,
   LDH:195 IU/L, Ca++:9.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Patient refused labs this morning.
   Assessment and Plan
   Assessment and Plan: 28 year-old morbidly obese female with hx asthma,
   h/o of DVT/PE, recent admission to ICU for hypercarbic resp failure,
   here after leaving AMA from [**Hospital1 **] with her usual CP, recent fevers,
   and recent documentation of bacteremia, continues to refuse medical
   treatments.
   .
   #1 Psych: history of axis I and axis II disorders. Psych consult and
   assistance with management appreciated.  As patient has physically
   harmed medical team members and continues to refuse necessary medical
   treatments (IV access, antibiotics) there will be a low threshold to
   use restraints and give Droperidol and Ativan for acute agitation if
   needed.  Patient is refusing abilify.
   - give her a 20 minute cool-off for initial agitation (do not try to
   reason through things, only makes her more agitated), return after 20
   minutes to discuss care
   - encourage distraction techniques (tv, music)
   - Acute agitation: droperidol 1.25mg IV or ativan 1-2 mg IV
   - MUST wear bipap if ANY sedating meds given
   - hospital security observation 24/7
   - Daily f/u psych recommendations for change in plan
   - Guardianship paperwork in the hands of the legal department; at this
   point we are legally allowed to provide care against her will only in
   an emergency situation. Otherwise give care as medically indicated and
   patient can refuse if she chooses.
   - EKG & electrolytes if receives Geodon or droperidol
   - d/w psychiatry how to amend plan to include monitoring
   #2 Positive blood cultures: documentation from Shattock shows staph
   simulans and enterococcus.  The enterococcus is resistant to vanc.  The
   two bacteria together are only both sensitive to linezolid and
   rifampin.  Two blood cultures here are sensitive to vancomycin.   TEE
   Echo showed no endocarditis or valvular vegetations.   Nidus of
   infection is unclear.  CXR w/no infiltrate.  Urine culture negative.
   RUE U/S showing partially occluded thrombus in cephalic vein, possible
   nidus of infection.  LUE ultrasound shows no DVT.  Dental panorex
   negative for abscess.  Patient continues to refuse linezolid and has
   not received any of this medication for a few days.
   - Continue Linezolid for 14 days until last negative blood culture
   (currently [**12-23**] which would make final dose on [**1-5**]).  However,
   unclear what proper course is now that patient has refused so many
   doses.  Have discussed with patient importance of taking antibiotics as
   scheduled, yet patient continues to refuse treatment.  Continue to
   offer antibiotics until 14 day course is complete.
   - continue surveillance blood cultures as able
   .
   #3 sleep apnea: has history of somnolence from hypercarbia and
   subsequent intubation when she does not use her BiPAP.  However, it
   appears that at least some of these episodes are psychogenic and not
   true medical emergencies.
   - When patient has an
unresponsive
 episode while sleeping, check O2
   sat, if > 88%, no indication for intubation.
   - pt should wear BiPAP at all times while sleeping.  She continues to
   refuse this treatment.  Whether we can force her to do this against her
   will is unclear at this point (is it a medical emergency?) Need to
   discuss with psychiatry.
   #4 Left shoulder pain: Patient complained of left shoulder pain.
   Unclear if this is an attempt to get attention or is real. Patient has
   full ROM of shoulder. Unnecessary to have films at this point.  Motrin
   and outpatient PT.
   .
   #Diarrhea: Most likely antibiotic side effect.  C. diff negative x 3.
   - Will treat with immodium
   .
   # LUE thrombus: superficial; may be nidus for infection
   - anticoagulated with coumadin, although subtherapeutic at this point.,
   bridging w/heparin
   - continue to recommend abx
   # hx PE: Subtherapeutic.  Patient has been refusing blood draws for the
   last couple of days.  We were able to obtain blood once yesterday.
   - PTT level has been therapeutic the last couple of draws, continue
   heparin gtt.
   - coumadin was increased to 3 mg on [**12-30**].  She is likely therapeutic
   currently, but blood unobtainable due to patient refusal.
   .
   # COPD/asthma:
   - nebs/inhalers
   .
   # Anemia: baseline mid to upper 20s.
   - to follow serial Hct
   .
   # Finger subluxation: Plastics consulted.  Per plastics, the finger is
   not truly dislocated.  They recommend a special splint for her swan
   neck deformity, however, the patient has refused this splint.  They do
   not feel that a hard cast is indicated.
   - tylenol/ibuprofen PRN pain
   - ultram prn pain
   - NO percocet for pain given sedating side effects
   .
   # Vaginal yeast infection: miconazole vaginal cream daily x 7 days
   (started [**12-26**]).  Patient was offered PO diflucan per her request, but
   she is not getting it as she is not taking linezolid.
   .
   # Prophylaxis: Prilosec, heparin/coumadin, bowel regimen held b/c of
   diarrhea
   .
   # FEN: p.o. diet as tolerated
   .
   # Access: PICC line placement by IR on [**12-30**].
   .
   # Code Status: Full
   .
   # Dispo: ICU.  Guardianship in progress.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-12-30**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2157-01-03 13:37:00 Physician Attending Progress Note
Chief Complaint: respiratory failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   28 yo women with obesity hypoventilation syndrome. h/o of asthma, DVT,
   PE.  Recent bacteremia with VRE and Coag negative staph.  Difficulty
   with agitation and noncompliance.
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2157-1-2**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-1-3**] 01:37 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (96.9
   HR: 81 (80 - 130) bpm
   BP: 123/61(72) {89/42(55) - 123/86(93)} mmHg
   RR: 21 (0 - 35) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
             Total In:
                                                                  1,943 mL
                                                                    620 mL
   PO:
                                                                  1,500 mL
                                                                    400 mL
   TF:
   IVF:
                                                                    443 mL
                                                                    220 mL
   Blood products:
   Total out:
                                                                  1,850 mL
                                                                    750 mL
   Urine:
                                                                  1,850 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     93 mL
                                                                   -130 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ////
   Physical Examination:  Deferred as patient is agitated.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   336 K/uL
   114 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.0 mEq/L
   10 mg/dL
   105 mEq/L
   143 mEq/L
   27.7 %
   5.9 K/uL
        [image002.jpg]
                            [**2156-12-25**]  07:46 AM
                            [**2156-12-26**]  12:35 PM
                            [**2156-12-26**]  09:41 PM
                            [**2156-12-26**]  10:00 PM
                            [**2156-12-26**]  11:36 PM
                            [**2156-12-27**]  04:35 AM
                            [**2156-12-28**]  11:29 AM
                            [**2156-12-30**]  02:31 PM
                            [**2157-1-1**]  07:33 AM
                            [**2157-1-2**]  09:40 AM
   WBC
   4.9
   4.9
   4.9
   8.1
   5.6
   6.5
   5.9
   Hct
   28.1
   28.6
   27.0
   28.9
   26.3
   27.3
   27.7
   Plt
   396
   444
   407
   394
   376
   333
   336
   Cr
   0.6
   0.7
   0.6
   0.5
   0.5
   0.7
   0.6
   TropT
   <0.01
   TCO2
   35
   35
   Glucose
   88
   89
   109
   107
   97
   115
   113
   114
   Other labs: PT / PTT / INR:18.8/72.0/1.7, CK / CKMB /
   Troponin-T:109//<0.01, ALT / AST:21/30, Alk Phos / T Bili:54/0.2,
   Amylase / Lipase:41/27, Lactic Acid:1.6 mmol/L, Albumin:3.3 g/dL,
   LDH:195 IU/L, Ca++:9.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
 IMPAIRED SKIN INTEGRITY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O PULMONARY EMBOLISM (PE), ACUTE
 .H/O BACTEREMIA
 CHEST PAIN
 OBSTRUCTIVE SLEEP APNEA (OSA): Mask when sleeping
   Coumadin for prior PE, DVTs.
   Haldol and Ativan PRN for agitation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-12-30**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2157-01-04 05:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
     * droperidol 1x yesterday in afternoon, calm for rest of day
     * on monitor overnight, allowed [**Location (un) 2721**] to draw labs, give meds.
   Need to:
   Touch base with legal
   Make sure pysch sees today, is aware of how frequent patient is in
   restraints/getting prns, help decide if plan is appropriate.
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2157-1-4**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-1-4**] 05:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (99
   HR: 92 (77 - 115) bpm
   BP: 126/61(76) {107/61(72) - 139/93(104)} mmHg
   RR: 27 (8 - 48) insp/min
   SpO2: 86%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
             Total In:
                                                                  1,442 mL
                                                                     28 mL
   PO:
                                                                  1,000 mL
             TF:
   IVF:
                                                                    442 mL
                                                                     28 mL
   Blood products:
   Total out:
                                                                  2,475 mL
                                                                      0 mL
   Urine:
                                                                  2,475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,033 mL
                                                                     28 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 86%
   ABG: ////
   Physical Examination  -  Patient refused exam (prior exam below)
   General Appearance: Overweight / Obese, NAD.
   Head, Ears, Nose, Throat: NCAT
   Cardiovascular: Distant heart sounds, RRR, no audible murmur
   Respiratory / Chest: Decreased breath sounds b/l
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: R picc insertion site CDI. Small area of ecchymosis just
   distal to PICC insertion site.
   Skin:  Not assessed
   Neurologic: Responds to: moves all extremities
   Labs / Radiology
   336 K/uL
   8.7 g/dL
   114 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.0 mEq/L
   10 mg/dL
   105 mEq/L
   143 mEq/L
   27.7 %
   5.9 K/uL
        [image002.jpg]
                            [**2156-12-25**]  07:46 AM
                            [**2156-12-26**]  12:35 PM
                            [**2156-12-26**]  09:41 PM
                            [**2156-12-26**]  10:00 PM
                            [**2156-12-26**]  11:36 PM
                            [**2156-12-27**]  04:35 AM
                            [**2156-12-28**]  11:29 AM
                            [**2156-12-30**]  02:31 PM
                            [**2157-1-1**]  07:33 AM
                            [**2157-1-2**]  09:40 AM
   WBC
   4.9
   4.9
   4.9
   8.1
   5.6
   6.5
   5.9
   Hct
   28.1
   28.6
   27.0
   28.9
   26.3
   27.3
   27.7
   Plt
   396
   444
   407
   394
   376
   333
   336
   Cr
   0.6
   0.7
   0.6
   0.5
   0.5
   0.7
   0.6
   TropT
   <0.01
   TCO2
   35
   35
   Glucose
   88
   89
   109
   107
   97
   115
   113
   114
   Other labs: PT / PTT / INR:17.8/49.0/1.6, CK / CKMB /
   Troponin-T:109//<0.01, ALT / AST:21/30, Alk Phos / T Bili:54/0.2,
   Amylase / Lipase:41/27, Lactic Acid:1.6 mmol/L, Albumin:3.3 g/dL,
   LDH:195 IU/L, Ca++:9.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   Assessment and Plan: 28 year-old morbidly obese female with hx asthma,
   h/o of DVT/PE, recent admission to ICU for hypercarbic resp failure,
   here after leaving AMA from [**Hospital1 **] with her usual CP, recent fevers,
   and recent documentation of bacteremia, continues to refuse medical
   treatments.
   .
   #1 Psych: history of axis I and axis II disorders. Psych consult and
   assistance with management appreciated.  As patient has physically
   harmed medical team members and continues to refuse necessary medical
   treatments (IV access, antibiotics) there will be a low threshold to
   use restraints and give Droperidol and Ativan for acute agitation if
   needed.  Patient is refusing abilify.
   - give her a 20 minute cool-off for initial agitation (do not try to
   reason through things, only makes her more agitated), return after 20
   minutes to discuss care
   - encourage distraction techniques (tv, music)
   - Acute agitation: droperidol 1.25mg IV or ativan 1-2 mg IV
   - MUST wear bipap if ANY sedating meds given
   - hospital security observation 24/7
   - Daily f/u psych recommendations for change in plan
   - Guardianship paperwork in the hands of the legal department; at this
   point we are legally allowed to provide care against her will only in
   an emergency situation. Otherwise give care as medically indicated and
   patient can refuse if she chooses.
   - EKG & electrolytes if receives Geodon or droperidol
   - d/w psychiatry how to amend plan to include monitoring
   #2 Positive blood cultures: documentation from Shattock shows staph
   simulans and enterococcus.  The enterococcus is resistant to vanc.  The
   two bacteria together are only both sensitive to linezolid and
   rifampin.  Two blood cultures here are sensitive to vancomycin.   TEE
   Echo showed no endocarditis or valvular vegetations.   Nidus of
   infection is unclear.  CXR w/no infiltrate.  Urine culture negative.
   RUE U/S showing partially occluded thrombus in cephalic vein, possible
   nidus of infection.  LUE ultrasound shows no DVT.  Dental panorex
   negative for abscess.  Patient continues to refuse linezolid and has
   not received any of this medication for a few days.
   - Continue Linezolid for 14 days until last negative blood culture
   (currently [**12-23**] which would make final dose on [**1-5**]).  However,
   unclear what proper course is now that patient has refused so many
   doses.  Have discussed with patient importance of taking antibiotics as
   scheduled, yet patient continues to refuse treatment.  Continue to
   offer antibiotics until 14 day course is complete.
   - continue surveillance blood cultures as able
   .
   #3 sleep apnea: has history of somnolence from hypercarbia and
   subsequent intubation when she does not use her BiPAP.  However, it
   appears that at least some of these episodes are psychogenic and not
   true medical emergencies.
   - When patient has an
unresponsive
 episode while sleeping, check O2
   sat, if > 88%, no indication for intubation.
   - pt should wear BiPAP at all times while sleeping.  She continues to
   refuse this treatment.  Whether we can force her to do this against her
   will is unclear at this point (is it a medical emergency?) Need to
   discuss with psychiatry.
   #4 Left shoulder pain: Patient complained of left shoulder pain.
   Unclear if this is an attempt to get attention or is real. Patient has
   full ROM of shoulder. Unnecessary to have films at this point.  Motrin
   and outpatient PT.
   .
   #Diarrhea: Most likely antibiotic side effect.  C. diff negative x 3.
   - Will treat with immodium
   .
   # LUE thrombus: superficial; may be nidus for infection
   - anticoagulated with coumadin, although subtherapeutic at this point.,
   bridging w/heparin
   - continue to recommend abx
   # hx PE: Subtherapeutic.  Patient has been refusing blood draws for the
   last couple of days.  We were able to obtain blood once yesterday.
   - PTT level has been therapeutic the last couple of draws, continue
   heparin gtt.
   - coumadin was increased to 3 mg on [**12-30**].  She is likely therapeutic
   currently, but blood unobtainable due to patient refusal.
   .
   # COPD/asthma:
   - nebs/inhalers
   .
   # Anemia: baseline mid to upper 20s.
   - to follow serial Hct
   .
   # Finger subluxation: Plastics consulted.  Per plastics, the finger is
   not truly dislocated.  They recommend a special splint for her swan
   neck deformity, however, the patient has refused this splint.  They do
   not feel that a hard cast is indicated.
   - tylenol/ibuprofen PRN pain
   - ultram prn pain
   - NO percocet for pain given sedating side effects
   .
   # Vaginal yeast infection: miconazole vaginal cream daily x 7 days
   (started [**12-26**]).  Patient was offered PO diflucan per her request, but
   she is not getting it as she is not taking linezolid.
   .
   # Prophylaxis: Prilosec, heparin/coumadin, bowel regimen held b/c of
   diarrhea
   .
   # FEN: p.o. diet as tolerated
   .
   # Access: PICC line placement by IR on [**12-30**].
   .
   # Code Status: Full
   .
   # Dispo: ICU.  Guardianship in progress.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-12-30**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2157-01-04 11:33:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   28 yo with borderline personality and obesity hypoventilation
   24 Hour Events:
   Took her linezolid, but did not take coumadin.
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 2,200 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2157-1-4**] 02:00 AM
   Other medications:
   linezolid
   prilosec
   droperidol
   atrovent
   coumadin
   fluconazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-1-4**] 11:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (99
   HR: 89 (77 - 111) bpm
   BP: 126/61(76) {126/61(76) - 139/93(104)} mmHg
   RR: 25 (8 - 48) insp/min
   SpO2: 86%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
             Total In:
                                                                  1,442 mL
                                                                    259 mL
   PO:
                                                                  1,000 mL
             TF:
   IVF:
                                                                    442 mL
                                                                    259 mL
   Blood products:
   Total out:
                                                                  2,475 mL
                                                                      0 mL
   Urine:
                                                                  2,475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,033 mL
                                                                    259 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 86%
   ABG: ///32/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   310 K/uL
   107 mg/dL
   0.7 mg/dL
   32 mEq/L
   3.7 mEq/L
   7 mg/dL
   104 mEq/L
   144 mEq/L
   25.6 %
   6.1 K/uL
        [image002.jpg]
                            [**2156-12-26**]  12:35 PM
                            [**2156-12-26**]  09:41 PM
                            [**2156-12-26**]  10:00 PM
                            [**2156-12-26**]  11:36 PM
                            [**2156-12-27**]  04:35 AM
                            [**2156-12-28**]  11:29 AM
                            [**2156-12-30**]  02:31 PM
                            [**2157-1-1**]  07:33 AM
                            [**2157-1-2**]  09:40 AM
                            [**2157-1-4**]  05:56 AM
   WBC
   4.9
   4.9
   8.1
   5.6
   6.5
   5.9
   6.1
   Hct
   28.6
   27.0
   28.9
   26.3
   27.3
   27.7
   25.6
   Plt
   444
   407
   394
   376
   333
   336
   310
   Cr
   0.7
   0.6
   0.5
   0.5
   0.7
   0.6
   0.7
   TCO2
   35
   35
   Glucose
   89
   109
   107
   97
   115
   113
   114
   107
   Other labs: PT / PTT / INR:19.0/92.7/1.8, CK / CKMB /
   Troponin-T:109//<0.01, ALT / AST:21/30, Alk Phos / T Bili:54/0.2,
   Amylase / Lipase:41/27, Lactic Acid:1.6 mmol/L, Albumin:3.3 g/dL,
   LDH:195 IU/L, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
 IMPAIRED SKIN INTEGRITY
 FUNGAL INFECTION, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 INEFFECTIVE COPING
 .H/O PULMONARY EMBOLISM (PE), ACUTE
 .H/O BACTEREMIA
 CHEST PAIN
 OBSTRUCTIVE SLEEP APNEA (OSA)
   Continue coumadin and linezolid.
   Can leave ICU, but her destructive behavior is main impediment to her
   discharge will discuss with [**Hospital1 **] re: transfer
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-12-30**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to other facility
   Total time spent: 35 minutes

2157-01-05 05:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - received ativan 0.5 mg IV x 1
   - Psych recs: okay to increase droperidol to 2.5 mg IV if pt. extremely
   agitated and ativan up to 1 mg [**Hospital1 7**] prn
   - security code called as patient tried to get out of bed to "go for a
   walk"
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,850 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2157-1-4**] 10:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-1-5**] 05:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.6
C (97.8
   HR: 84 (84 - 119) bpm
   BP: 134/85(95) {106/51(64) - 134/85(95)} mmHg
   RR: 21 (9 - 52) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
             Total In:
                                                                  2,606 mL
                                                                    713 mL
   PO:
                                                                  2,070 mL
                                                                    600 mL
   TF:
   IVF:
                                                                    536 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                      0 mL
   Urine:
                                                                  1,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    806 mL
                                                                    713 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///32/
   Physical Examination
   General Appearance: Overweight / Obese, NAD.
   Head, Ears, Nose, Throat: NCAT
   Cardiovascular: Distant heart sounds, RRR, no audible murmur
   Respiratory / Chest: Decreased breath sounds b/l
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: R picc insertion site CDI. Small area of ecchymosis just
   distal to PICC insertion site.
   Skin:  Not assessed
   Neurologic: Responds to: moves all extremities
   Labs / Radiology
   310 K/uL
   8.3 g/dL
   107 mg/dL
   0.7 mg/dL
   32 mEq/L
   3.7 mEq/L
   7 mg/dL
   104 mEq/L
   144 mEq/L
   25.6 %
   6.1 K/uL
        [image002.jpg]
                            [**2156-12-26**]  12:35 PM
                            [**2156-12-26**]  09:41 PM
                            [**2156-12-26**]  10:00 PM
                            [**2156-12-26**]  11:36 PM
                            [**2156-12-27**]  04:35 AM
                            [**2156-12-28**]  11:29 AM
                            [**2156-12-30**]  02:31 PM
                            [**2157-1-1**]  07:33 AM
                            [**2157-1-2**]  09:40 AM
                            [**2157-1-4**]  05:56 AM
   WBC
   4.9
   4.9
   8.1
   5.6
   6.5
   5.9
   6.1
   Hct
   28.6
   27.0
   28.9
   26.3
   27.3
   27.7
   25.6
   Plt
   444
   407
   394
   376
   333
   336
   310
   Cr
   0.7
   0.6
   0.5
   0.5
   0.7
   0.6
   0.7
   TCO2
   35
   35
   Glucose
   89
   109
   107
   97
   115
   113
   114
   107
   Other labs: PT / PTT / INR:18.6/109.4/1.7, CK / CKMB /
   Troponin-T:109//<0.01, ALT / AST:21/30, Alk Phos / T Bili:54/0.2,
   Amylase / Lipase:41/27, Lactic Acid:1.6 mmol/L, Albumin:3.3 g/dL,
   LDH:195 IU/L, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   Assessment and Plan: 28 year-old morbidly obese female with hx asthma,
   h/o of DVT/PE, recent admission to ICU for hypercarbic resp failure,
   here after leaving AMA from [**Hospital1 **] with her usual CP, recent fevers,
   and recent documentation of bacteremia, continues to refuse medical
   treatments.
   .
   #1 Psych: history of axis I and axis II disorders. Psych consult and
   assistance with management appreciated.  As patient has physically
   harmed medical team members and continues to refuse necessary medical
   treatments (IV access, antibiotics) there will be a low threshold to
   use restraints and give Droperidol and Ativan for acute agitation if
   needed.  Patient is refusing abilify.
   - give her a 20 minute cool-off for initial agitation (do not try to
   reason through things, only makes her more agitated), return after 20
   minutes to discuss care
   - encourage distraction techniques (tv, music)
   - Acute agitation: droperidol 1.25mg IV or ativan 1-2 mg IV
   - MUST wear bipap if ANY sedating meds given
   - hospital security observation 24/7
   - Daily f/u psych recommendations for change in plan
   - Guardianship paperwork in the hands of the legal department; at this
   point we are legally allowed to provide care against her will only in
   an emergency situation. Otherwise give care as medically indicated and
   patient can refuse if she chooses.  Per legal, guardianship process is
   underway.
   - EKG & electrolytes if receives Geodon or droperidol
   #2 Positive blood cultures: documentation from Shattock shows staph
   simulans and enterococcus.  The enterococcus is resistant to vanc.  The
   two bacteria together are only both sensitive to linezolid and
   rifampin.  Two blood cultures here are sensitive to vancomycin.   TEE
   Echo showed no endocarditis or valvular vegetations.   Nidus of
   infection is unclear.  CXR w/no infiltrate.  Urine culture negative.
   RUE U/S showing partially occluded thrombus in cephalic vein, possible
   nidus of infection.  LUE ultrasound shows no DVT.  Dental panorex
   negative for abscess.  Patient continues to refuse linezolid and has
   not received any of this medication for a few days but did take it
   today.
   - Continue Linezolid for 14 days from last positive blood culture, D1=
   [**2156-12-23**], day 14 = [**2157-1-6**].  Although patient has been intermittently
   taking Linezolid, we will stop treatment on [**2157-1-6**] as further blood
   cultures have been negative and she has been afebrile.
   - will only draw surveillance cultures if febrile or otherwise
   medically declining
   .
   #3 sleep apnea: has history of somnolence from hypercarbia and
   subsequent intubation when she does not use her BiPAP.  However, it
   appears that at least some of these episodes are psychogenic and not
   true medical emergencies.
   - When patient has an
unresponsive
 episode while sleeping, check O2
   sat, if > 88%, no indication for intubation.
   - pt should wear BiPAP at all times while sleeping.  She intermittently
   refuses but since this is a medical necessity we are attempting to
   enforce this.
   #4 Left shoulder pain: Patient complained of left shoulder pain.
   Unclear if this is an attempt to get attention or is real. Patient has
   full ROM of shoulder. Unnecessary to have films at this point.  Motrin
   and outpatient PT.
   .
   #Diarrhea: Most likely antibiotic side effect.  C. diff negative x 3.
   - Will treat with immodium
   .
   # LUE thrombus: superficial; may be nidus for infection
   - anticoagulated with coumadin, although subtherapeutic at this point.,
   bridging w/heparin
   # hx PE: Subtherapeutic.  Patient has been refusing blood draws for the
   last couple of days.  We were able to obtain blood once yesterday.
   - PTT level has been therapeutic the last couple of draws, continue
   heparin gtt.
   - coumadin was increased to 3 mg on [**12-30**].  INR is 1.8 today, will
   continue to give Coumadin at 3mg and heparin gtt until therapeutic.
   .
   # COPD/asthma:
   - nebs/inhalers
   .
   # Finger subluxation: Plastics consulted.  Per plastics, the finger is
   not truly dislocated.  They recommend a special splint for her swan
   neck deformity, however, the patient has refused this splint.  They do
   not feel that a hard cast is indicated.
   - tylenol/ibuprofen PRN pain
   - ultram prn pain
   - NO percocet for pain given sedating side effects
   .
   # Vaginal yeast infection: miconazole vaginal cream daily x 7 days
   (started [**12-26**]).  Fluconazole X 3 days (last day today)
   .
   # Prophylaxis: Prilosec, heparin/coumadin, bowel regimen held b/c of
   diarrhea
   .
   # FEN: p.o. diet as tolerated
   .
   # Access: PICC line placement by IR on [**12-30**].
   # Code Status: Full
   # Dispo: ICU.  Guardianship in progress.  Discussed with legal today
   ([**1-4**]), and process is currently underway, no court date as of yet.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-12-30**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2157-01-05 11:36:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   28 yo women with morbid obesity, borderline personality
   24 Hour Events:
   ?security code last night when patient attempted to get out of bed to
   go for a walk.
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,850 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2157-1-4**] 10:33 PM
   Other medications:
   linezolid
   abilify
   prilosec
   atrovent
   coumadin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-1-5**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.7
C (98.1
   HR: 89 (84 - 119) bpm
   BP: 112/54(63) {106/51(63) - 134/85(95)} mmHg
   RR: 17 (9 - 52) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
             Total In:
                                                                  2,606 mL
                                                                    821 mL
   PO:
                                                                  2,070 mL
                                                                    600 mL
   TF:
   IVF:
                                                                    536 mL
                                                                    221 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                      0 mL
   Urine:
                                                                  1,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    806 mL
                                                                    821 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   310 K/uL
   107 mg/dL
   0.7 mg/dL
   32 mEq/L
   3.7 mEq/L
   7 mg/dL
   104 mEq/L
   144 mEq/L
   25.6 %
   6.1 K/uL
        [image002.jpg]
                            [**2156-12-26**]  12:35 PM
                            [**2156-12-26**]  09:41 PM
                            [**2156-12-26**]  10:00 PM
                            [**2156-12-26**]  11:36 PM
                            [**2156-12-27**]  04:35 AM
                            [**2156-12-28**]  11:29 AM
                            [**2156-12-30**]  02:31 PM
                            [**2157-1-1**]  07:33 AM
                            [**2157-1-2**]  09:40 AM
                            [**2157-1-4**]  05:56 AM
   WBC
   4.9
   4.9
   8.1
   5.6
   6.5
   5.9
   6.1
   Hct
   28.6
   27.0
   28.9
   26.3
   27.3
   27.7
   25.6
   Plt
   444
   407
   394
   376
   333
   336
   310
   Cr
   0.7
   0.6
   0.5
   0.5
   0.7
   0.6
   0.7
   TCO2
   35
   35
   Glucose
   89
   109
   107
   97
   115
   113
   114
   107
   Other labs: PT / PTT / INR:19.0/82.9/1.8, CK / CKMB /
   Troponin-T:109//<0.01, ALT / AST:21/30, Alk Phos / T Bili:54/0.2,
   Amylase / Lipase:41/27, Lactic Acid:1.6 mmol/L, Albumin:3.3 g/dL,
   LDH:195 IU/L, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
 IMPAIRED SKIN INTEGRITY
 FUNGAL INFECTION, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 INEFFECTIVE COPING
 .H/O PULMONARY EMBOLISM (PE), ACUTE:  Continue coumadin
 .H/O BACTEREMIA
 CHEST PAIN
 OBSTRUCTIVE SLEEP APNEA (OSA):  Stable, intermittently wearing mask
   at night.
   Currently has been compliant with therapy over past 24 hours.  Await
   guardianship paperwork.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-12-30**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 35 minutes

2157-01-06 05:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
          Security called because she wanted sitter d/c'd
   (miscommunication between Dr [**Last Name (STitle) 3573**]/nursing/team/[**Known firstname 3971**]).
          We were not able to wrap her PICC line b/c patient refused.
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Antibiotics:
   Linezolid (today last day)
   Infusions:
   Heparin Sodium - 1,850 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: c/o abdominal pain
   Flowsheet Data as of  [**2157-1-6**] 05:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: -17.8
C (0
   HR: 0 (0 - 106) bpm
   BP: 123/58(74) {108/54(63) - 141/82(93)} mmHg
   RR: 18 (10 - 36) insp/min
   SpO2: 87%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
             Total In:
                                                                  3,067 mL
                                                                    397 mL
   PO:
                                                                  2,600 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    467 mL
                                                                     97 mL
   Blood products:
   Total out:
                                                                  2,025 mL
                                                                    400 mL
   Urine:
                                                                  2,025 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,042 mL
                                                                     -3 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 87%
   ABG:
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   322 K/uL
   8.4 g/dL
   138 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.5 mEq/L
   10 mg/dL
   104 mEq/L
   140 mEq/L
   27.1 %
   7.5 K/uL
        [image002.jpg]
                            [**2156-12-26**]  09:41 PM
                            [**2156-12-26**]  10:00 PM
                            [**2156-12-26**]  11:36 PM
                            [**2156-12-27**]  04:35 AM
                            [**2156-12-28**]  11:29 AM
                            [**2156-12-30**]  02:31 PM
                            [**2157-1-1**]  07:33 AM
                            [**2157-1-2**]  09:40 AM
                            [**2157-1-4**]  05:56 AM
                            [**2157-1-6**]  02:18 AM
   WBC
   4.9
   8.1
   5.6
   6.5
   5.9
   6.1
   7.5
   Hct
   27.0
   28.9
   26.3
   27.3
   27.7
   25.6
   27.1
   Plt
   [**Telephone/Fax (3) 3960**]33
   336
   310
   322
   Cr
   0.6
   0.5
   0.5
   0.7
   0.6
   0.7
   0.7
   TCO2
   35
   35
   Glucose
   109
   107
   97
   115
   113
   114
   107
   138
   Other labs:
   PT / PTT / INR:18.7/71.5/1.7
   Ca++:9.1 mg/dL, Mg++:1.7 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   Assessment and Plan: 28 year-old morbidly obese female with hx asthma,
   h/o of DVT/PE, recent admission to ICU for hypercarbic resp failure,
   here after leaving AMA from [**Hospital1 **] with her usual CP, recent fevers,
   and recent documentation of bacteremia, continues to refuse medical
   treatments periodically, including monitoring, antibiotics, blood
   draws, and coumadin doses.
   .
   #1 Psych: history of axis I and axis II disorders. Psych consult and
   assistance with management appreciated.  As patient has physically
   harmed medical team members and continues to refuse necessary medical
   treatments (IV access, antibiotics) there will be a low threshold to
   use restraints and give Droperidol and Ativan for acute agitation if
   needed.  Patient intermittently refuses abilify.  There was a
   conversation w/Dr [**Last Name (STitle) 3972**] yesterday regarding d/cing the 24-7
   security guard outside her room. [**Known firstname 3971**] was told after the discussion
   that we could stop the security guard but afterwards nursing expressed
   concerns about safety and the security guard remained in place which
   agitated [**Known firstname 3971**] and resulted in us calling security.
   Plan to deal with [**Known firstname 3971**]
s acute agitation:
   - give her a 20 minute cool-off for initial agitation (do not try to
   reason through things, only makes her more agitated), return after 20
   minutes to discuss care
   - encourage distraction techniques (tv, music)
   - Acute agitation: droperidol 1.25mg IV or ativan 1-2 mg IV
   - MUST wear bipap if ANY sedating meds given
   - hospital security observation 24/7
   - Daily f/u psych recommendations for change in plan
   - Guardianship paperwork in the hands of the legal department; at this
   point we are legally allowed to provide care against her will only in
   an emergency situation. Otherwise give care as medically indicated and
   patient can refuse if she chooses.  Per legal, guardianship process is
   underway.
   - EKG & electrolytes if receives Geodon or droperidol
   #2 Positive blood cultures: documentation from Shattock shows staph
   simulans and enterococcus.  The enterococcus is resistant to vanc.  The
   two bacteria together are only both sensitive to linezolid and
   rifampin.  Two blood cultures here are sensitive to vancomycin.   TEE
   Echo showed no endocarditis or valvular vegetations.   Nidus of
   infection is unclear.  CXR w/no infiltrate.  Urine culture negative.
   RUE U/S showing partially occluded thrombus in cephalic vein, possible
   nidus of infection.  LUE ultrasound shows no DVT.  Dental panorex
   negative for abscess.  Patient did take linezolid yesterday.
   - Last day of Linezolid is today for a total of a 2 week course of
   treatment for bacteremia.  Although patient has been intermittently
   taking Linezolid, we will stop treatment on [**2157-1-6**] as further blood
   cultures have been negative and she has been afebrile.
   - will only draw surveillance cultures if febrile or otherwise
   medically declining
   .
   #3 sleep apnea: has history of somnolence from hypercarbia and
   subsequent intubation when she does not use her BiPAP.  Patient refuses
   to use BiPAP machines most nights, although when we are able to monitor
   her O2 sat it is usually <88 when she is sleeping and on either NC or
   on RA.  It appears that at least some of these unresponsive episodes
   are psychogenic and not true medical emergencies.
   - When patient has an
unresponsive
 episode while sleeping, check O2
   sat, if > 88%, no indication for intubation.
   - pt should wear BiPAP at all times while sleeping.  She intermittently
   refuses but since this is a medical necessity we are strongly
   encouraging this, and must be enforced when taking sedating
   medications.
   .
   # Finger subluxation: Has repeatedly subluxed her R ring finger when
   attempting to push herself up from bed or off the bedpan.  Most recent
   episode is today.  Plastics consulted multiple times and finger xrays
   performed.  Per plastics, the finger is not truly dislocated.  They
   recommend a special splint for her swan neck deformity, however, the
   patient has refused this splint in the past b/c she states it does not
   work and is refusing it again today.  They do not feel that a hard cast
   is indicated.
   - tylenol/ibuprofen PRN pain
   - ultram prn pain
   - NO percocet for pain given sedating side effects, patient
s history
   of using these medicines to bargain/manipulate care.
   .
   #Diarrhea: Most likely antibiotic side effect.  Has improved.  C. diff
   negative x 3.
   - Will treat with Immodium
   .
   # LUE thrombus: superficial; may be nidus for infection
   - anticoagulated with coumadin, although subtherapeutic at this point.,
   bridging w/heparin
   .
   # hx PE ([**Date range (1) 3973**] DVT of R subclavian, brachial veins, and PE Dx at
   Caritas [**Hospital3 **]): Subtherapeutic.  Patient intermittently refuses
   coumadin
   - PTT level has been therapeutic the last couple of draws, continue
   heparin gtt.
   - coumadin was increased to 3 mg on [**12-30**].  INR is 1.8 today, will
   continue to give Coumadin at 3mg and heparin gtt until therapeutic.
   Patient took coumadin yesterday, but refused the day before, likely why
   her level is low.
   .
   # COPD/asthma:
   - nebs/inhalers as needed
   .
   # Left shoulder pain: Patient complained of left shoulder pain.
   Unclear if this was an attempt to get attention or is real. Patient has
   full ROM of shoulder. Unnecessary to have films at this point.  Motrin
   and outpatient PT. Seems to have resolved as patient is no longer
   complaining.
   .
   # Vaginal yeast infection: miconazole vaginal cream daily x 7 days
   (started [**12-26**])
   .
   # Prophylaxis: Prilosec, heparin/coumadin, bowel regimen held b/c of
   diarrhea
   .
   # FEN: p.o. diet as tolerated
   .
   # Access: PICC line placement by IR on [**12-30**].
   .
   # Code Status: Full
   .
   # Dispo: ICU.  Guardianship in progress.  Screened by BEST yesterday.
   Medically clear for psych hospital.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-12-30**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Physical Exam:
   General Appearance: Overweight / Obese, NAD. Sleepy but easily wakened
   Head, Ears, Nose, Throat: NCAT
   Cardiovascular: Distant heart sounds, RRR, no audible murmur
   Respiratory / Chest: lungs cta b/l
   Abdominal: Soft, Bowel sounds present, slight TTP RUQ
   Extremities: R picc insertion site CDI. Wrapped in kerlex gauze
   Skin:  warm, dry
   Neurologic: Responds to: moves all extremities
   ------ Protected Section Addendum Entered By:[**Name (NI) 1216**] [**Last Name (NamePattern1) 3824**], MD
   on:[**2157-1-7**] 05:19 ------

2157-01-06 10:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   28 yo with obesity hypoventilation syndrome, self destructive behavior,
   placement difficulty.
   24 Hour Events:
   Agitated because security guard did not get removed due to holiday
   weekend.
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2157-1-6**] 12:00 AM
   Infusions:
   Heparin Sodium - 1,850 units/hour
   Other ICU medications:
   Other medications:
   coumadin
   prilosec
   flovent
   atrovent
   coumadin
   abilify
   linezolid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-1-6**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: -17.8
C (0
   HR: 0 (0 - 91) bpm
   BP: 123/58(74) {108/54(63) - 141/82(93)} mmHg
   RR: 18 (10 - 36) insp/min
   SpO2: 80%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
             Total In:
                                                                  3,067 mL
                                                                    490 mL
   PO:
                                                                  2,600 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    467 mL
                                                                    190 mL
   Blood products:
   Total out:
                                                                  2,025 mL
                                                                    400 mL
   Urine:
                                                                  2,025 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,042 mL
                                                                     90 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 80%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   322 K/uL
   138 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.5 mEq/L
   10 mg/dL
   104 mEq/L
   140 mEq/L
   27.1 %
   7.5 K/uL
        [image002.jpg]
                            [**2156-12-26**]  09:41 PM
                            [**2156-12-26**]  10:00 PM
                            [**2156-12-26**]  11:36 PM
                            [**2156-12-27**]  04:35 AM
                            [**2156-12-28**]  11:29 AM
                            [**2156-12-30**]  02:31 PM
                            [**2157-1-1**]  07:33 AM
                            [**2157-1-2**]  09:40 AM
                            [**2157-1-4**]  05:56 AM
                            [**2157-1-6**]  02:18 AM
   WBC
   4.9
   8.1
   5.6
   6.5
   5.9
   6.1
   7.5
   Hct
   27.0
   28.9
   26.3
   27.3
   27.7
   25.6
   27.1
   Plt
   [**Telephone/Fax (3) 3960**]33
   336
   310
   322
   Cr
   0.6
   0.5
   0.5
   0.7
   0.6
   0.7
   0.7
   TCO2
   35
   35
   Glucose
   109
   107
   97
   115
   113
   114
   107
   138
   Other labs: PT / PTT / INR:18.7/71.5/1.7, CK / CKMB /
   Troponin-T:109//<0.01, ALT / AST:21/30, Alk Phos / T Bili:54/0.2,
   Amylase / Lipase:41/27, Lactic Acid:1.6 mmol/L, Albumin:3.3 g/dL,
   LDH:195 IU/L, Ca++:9.1 mg/dL, Mg++:1.7 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   Continue coumadin for DVT  will follow this up as history of this is
   unclear.
   Continue linezolid for bacteremia.  Last day is today.
   OSA/OHS:  Does not wear mask.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-12-30**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 35 minutes

2157-01-07 05:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
     * Re-subluxed R ring and small finger. Both were reduced in MICU by
       team and buddy taped together.  Plastics not called.
     * Patient did well overall, was compliant with care and no security
       codes/code purples needed to be called.
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2157-1-6**] 12:00 AM
   Infusions:
   Heparin Sodium - 1,849 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-1-7**] 05:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.8
   HR: 78 (78 - 85) bpm
   BP: 119/67(75) {0/60(70) - 139/91(100)} mmHg
   RR: 22 (16 - 25) insp/min
   SpO2: 95%
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
             Total In:
                                                                  1,637 mL
                                                                  1,096 mL
   PO:
                                                                  1,200 mL
                                                                  1,000 mL
   TF:
   IVF:
                                                                    437 mL
                                                                     96 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                    600 mL
   Urine:
                                                                  1,500 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    137 mL
                                                                    496 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG:
   Physical Exam:
   General Appearance: Overweight / Obese, NAD. Sleepy but easily wakened
   Head, Ears, Nose, Throat: NCAT
   Cardiovascular: Distant heart sounds, RRR, no audible murmur
   Respiratory / Chest: lungs cta b/l
   Abdominal: Soft, Bowel sounds present, slight TTP RUQ
   Extremities: R picc insertion site CDI. Wrapped in kerlex gauze
   Skin:  warm, dry
   Neurologic: Responds to: moves all extremities
   Labs / Radiology
   322 K/uL
   8.4 g/dL
   138 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.5 mEq/L
   10 mg/dL
   104 mEq/L
   140 mEq/L
   27.1 %
   7.5 K/uL
        [image002.jpg]
                            [**2156-12-26**]  09:41 PM
                            [**2156-12-26**]  10:00 PM
                            [**2156-12-26**]  11:36 PM
                            [**2156-12-27**]  04:35 AM
                            [**2156-12-28**]  11:29 AM
                            [**2156-12-30**]  02:31 PM
                            [**2157-1-1**]  07:33 AM
                            [**2157-1-2**]  09:40 AM
                            [**2157-1-4**]  05:56 AM
                            [**2157-1-6**]  02:18 AM
   WBC
   4.9
   8.1
   5.6
   6.5
   5.9
   6.1
   7.5
   Hct
   27.0
   28.9
   26.3
   27.3
   27.7
   25.6
   27.1
   Plt
   [**Telephone/Fax (3) 3960**]33
   336
   310
   322
   Cr
   0.6
   0.5
   0.5
   0.7
   0.6
   0.7
   0.7
   TCO2
   35
   35
   Glucose
   109
   107
   97
   115
   113
   114
   107
   138
   Other labs: PT / PTT / INR:18.7/71.5/1.7, CK / CKMB /
   Troponin-T:109//<0.01, ALT / AST:38/32, Alk Phos / T Bili:66/0.2,
   Amylase / Lipase:30/31, Lactic Acid:1.6 mmol/L, Albumin:3.6 g/dL,
   LDH:209 IU/L, Ca++:9.1 mg/dL, Mg++:1.7 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   Assessment and Plan: 28 year-old morbidly obese female with hx asthma,
   h/o of DVT/PE, recent admission to ICU for hypercarbic resp failure,
   here after leaving AMA from [**Hospital1 **] with her usual CP, recent fevers,
   and recent documentation of bacteremia, continues to refuse medical
   treatments periodically, including monitoring, antibiotics, blood
   draws, and coumadin doses.
   .
   #1 Psych: history of axis I and axis II disorders. Psych consult and
   assistance with management appreciated.  As patient has physically
   harmed medical team members and continues to refuse necessary medical
   treatments (IV access, antibiotics) there will be a low threshold to
   use restraints and give Droperidol and Ativan for acute agitation if
   needed.  Patient intermittently refuses abilify.  There was a
   conversation w/Dr [**Last Name (STitle) 3972**] yesterday regarding d/cing the 24-7
   security guard outside her room. [**Known firstname 3971**] was told after the discussion
   that we could stop the security guard but afterwards nursing expressed
   concerns about safety and the security guard remained in place which
   agitated [**Known firstname 3971**] and resulted in us calling security.
   Plan to deal with [**Known firstname 3971**]
s acute agitation:
   - give her a 20 minute cool-off for initial agitation (do not try to
   reason through things, only makes her more agitated), return after 20
   minutes to discuss care
   - encourage distraction techniques (tv, music)
   - Acute agitation: droperidol 1.25mg IV or ativan 1-2 mg IV
   - MUST wear bipap if ANY sedating meds given
   - hospital security observation 24/7
   - Daily f/u psych recommendations for change in plan
   - Guardianship paperwork in the hands of the legal department; at this
   point we are legally allowed to provide care against her will only in
   an emergency situation. Otherwise give care as medically indicated and
   patient can refuse if she chooses.  Per legal, guardianship process is
   underway.
   - EKG & electrolytes if receives Geodon or droperidol
   #2 Positive blood cultures: documentation from Shattock shows staph
   simulans and enterococcus.  The enterococcus is resistant to vanc.  The
   two bacteria together are only both sensitive to linezolid and
   rifampin.  Two blood cultures here are sensitive to vancomycin.   TEE
   Echo showed no endocarditis or valvular vegetations.   Nidus of
   infection is unclear.  CXR w/no infiltrate.  Urine culture negative.
   RUE U/S showing partially occluded thrombus in cephalic vein, possible
   nidus of infection.  LUE ultrasound shows no DVT.  Dental panorex
   negative for abscess.  Patient did take linezolid yesterday.
   - Last day of Linezolid is today for a total of a 2 week course of
   treatment for bacteremia.  Although patient has been intermittently
   taking Linezolid, we will stop treatment on [**2157-1-6**] as further blood
   cultures have been negative and she has been afebrile.
   - will only draw surveillance cultures if febrile or otherwise
   medically declining
   .
   #3 sleep apnea: has history of somnolence from hypercarbia and
   subsequent intubation when she does not use her BiPAP.  Patient refuses
   to use BiPAP machines most nights, although when we are able to monitor
   her O2 sat it is usually <88 when she is sleeping and on either NC or
   on RA.  It appears that at least some of these unresponsive episodes
   are psychogenic and not true medical emergencies.
   - When patient has an
unresponsive
 episode while sleeping, check O2
   sat, if > 88%, no indication for intubation.
   - pt should wear BiPAP at all times while sleeping.  She intermittently
   refuses but since this is a medical necessity we are strongly
   encouraging this, and must be enforced when taking sedating
   medications.
   .
   # Finger subluxation: Has repeatedly subluxed her R ring finger when
   attempting to push herself up from bed or off the bedpan.  Most recent
   episode is today.  Plastics consulted multiple times and finger xrays
   performed.  Per plastics, the finger is not truly dislocated.  They
   recommend a special splint for her swan neck deformity, however, the
   patient has refused this splint in the past b/c she states it does not
   work and is refusing it again today.  They do not feel that a hard cast
   is indicated.
   - tylenol/ibuprofen PRN pain
   - ultram prn pain
   - NO percocet for pain given sedating side effects, patient
s history
   of using these medicines to bargain/manipulate care.
   .
   #Diarrhea: Most likely antibiotic side effect.  Has improved.  C. diff
   negative x 3.
   - Will treat with Immodium
   .
   # LUE thrombus: superficial; may be nidus for infection
   - anticoagulated with coumadin, although subtherapeutic at this point.,
   bridging w/heparin
   .
   # hx PE ([**Date range (1) 3973**] DVT of R subclavian, brachial veins, and PE Dx at
   Caritas [**Hospital3 **]): Subtherapeutic.  Patient intermittently refuses
   coumadin
   - PTT level has been therapeutic the last couple of draws, continue
   heparin gtt.
   - coumadin was increased to 3 mg on [**12-30**].  INR is 1.8 today, will
   continue to give Coumadin at 3mg and heparin gtt until therapeutic.
   Patient took coumadin yesterday, but refused the day before, likely why
   her level is low.
   .
   # COPD/asthma:
   - nebs/inhalers as needed
   .
   # Left shoulder pain: Patient complained of left shoulder pain.
   Unclear if this was an attempt to get attention or is real. Patient has
   full ROM of shoulder. Unnecessary to have films at this point.  Motrin
   and outpatient PT. Seems to have resolved as patient is no longer
   complaining.
   .
   # Vaginal yeast infection: miconazole vaginal cream daily x 7 days
   (started [**12-26**])
   .
   # Prophylaxis: Prilosec, heparin/coumadin, bowel regimen held b/c of
   diarrhea
   .
   # FEN: p.o. diet as tolerated
   .
   # Access: PICC line placement by IR on [**12-30**].
   .
   # Code Status: Full
   .
   # Dispo: ICU.  Guardianship in progress.  Screened by BEST yesterday.
   Medically clear for psych hospital.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-12-30**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2157-01-07 11:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   28 yo women with obesity hypoventilation syndrome.  Severe personality
   disorder.
   24 Hour Events:
   re-subluxed finger which we repositioned.
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2157-1-6**] 12:00 AM
   Infusions:
   Heparin Sodium - 1,849 units/hour
   Other ICU medications:
   Other medications:
   prilosec
   flovent
   coumadin
   atrovent
   ropironole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-1-7**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.4
C (97.5
   HR: 80 (78 - 85) bpm
   BP: 113/53(66) {0/47(63) - 139/91(100)} mmHg
   RR: 20 (16 - 25) insp/min
   SpO2: 95%
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
             Total In:
                                                                  1,637 mL
                                                                  1,202 mL
   PO:
                                                                  1,200 mL
                                                                  1,000 mL
   TF:
   IVF:
                                                                    437 mL
                                                                    202 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                  1,000 mL
   Urine:
                                                                  1,500 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    137 mL
                                                                    202 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   322 K/uL
   138 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.5 mEq/L
   10 mg/dL
   104 mEq/L
   140 mEq/L
   27.1 %
   7.5 K/uL
        [image002.jpg]
                            [**2156-12-26**]  09:41 PM
                            [**2156-12-26**]  10:00 PM
                            [**2156-12-26**]  11:36 PM
                            [**2156-12-27**]  04:35 AM
                            [**2156-12-28**]  11:29 AM
                            [**2156-12-30**]  02:31 PM
                            [**2157-1-1**]  07:33 AM
                            [**2157-1-2**]  09:40 AM
                            [**2157-1-4**]  05:56 AM
                            [**2157-1-6**]  02:18 AM
   WBC
   4.9
   8.1
   5.6
   6.5
   5.9
   6.1
   7.5
   Hct
   27.0
   28.9
   26.3
   27.3
   27.7
   25.6
   27.1
   Plt
   [**Telephone/Fax (3) 3960**]33
   336
   310
   322
   Cr
   0.6
   0.5
   0.5
   0.7
   0.6
   0.7
   0.7
   TCO2
   35
   35
   Glucose
   109
   107
   97
   115
   113
   114
   107
   138
   Other labs: PT / PTT / INR:21.0/91.1/2.0, CK / CKMB /
   Troponin-T:109//<0.01, ALT / AST:38/32, Alk Phos / T Bili:66/0.2,
   Amylase / Lipase:30/31, Lactic Acid:1.6 mmol/L, Albumin:3.6 g/dL,
   LDH:209 IU/L, Ca++:9.1 mg/dL, Mg++:1.7 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   DVT/PE:  Now therapeutic INR.  Will stop heparin.
   Team meeting to discuss dispo and security issue.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-12-30**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 15 minutes

2157-01-08 05:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2157-1-7**] 07:42 PM
   c/o palpitation
   - c/o abd pain (unchanged), L-sided chest pain (worse with inspiration
   & palpation, musculoskeletal [**3-13**] coughing?), & "feeling cold"
   - Team meeting - security sitter stopped; dispo discussed
   - Agitated after learning she would not get specific pm nurse; refused
   warfarin; rec'd droperidol 1.25 mg & ativan 0.5 mg per request;
   eventually did take warfarin later in the evening.
   - Agitated at being unable to reach her aunt, received droperidol 1.25
   mg per request
   - Became agitated when RN would not let her close her door at night per
   floor policiy; pt. became angry & refused meds & care from nurse
   claiming that her care plan (i.e., "consistency") was not being
   followed, did not back down when asked to by M.D., security called,
   after quite awhile and much dialogue with nursing staff pt. backed down
   and eventually went to sleep.
   - Pt. desatted to 60s on monitor, nurse asked her to wear oxygen & she
   refused and refused O2 sat monitor.
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2157-1-6**] 12:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2157-1-7**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-1-8**] 05:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 99 (71 - 103) bpm
   BP: 130/73(88) {113/47(63) - 134/89(96)} mmHg
   RR: 20 (18 - 22) insp/min
   SpO2: 81%
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
                  Total In:
                                                                  1,972 mL
                  PO:
                                                                  1,760 mL
                  TF:
   IVF:
                                                                    212 mL
   Blood products:
   Total out:
                                                                  2,932 mL
                                                                      0 mL
   Urine:
                                                                  2,932 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -960 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 81%
   ABG: ////
   Physical Examination
   General Appearance: Overweight / Obese, NAD. A&O
   Head, Ears, Nose, Throat: NCAT
   Cardiovascular: Distant heart sounds, RRR, no audible murmur
   Respiratory / Chest: lungs cta b/l
   Abdominal: Soft, Bowel sounds present, slight TTP RUQ
   Extremities: R picc insertion site CDI. Wrapped in kerlex gauze
   Skin:  warm, dry
   Neurologic: moves all extremities
   Labs / Radiology
   322 K/uL
   8.4 g/dL
   138 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.5 mEq/L
   10 mg/dL
   104 mEq/L
   140 mEq/L
   27.1 %
   7.5 K/uL
        [image002.jpg]
                            [**2156-12-26**]  09:41 PM
                            [**2156-12-26**]  10:00 PM
                            [**2156-12-26**]  11:36 PM
                            [**2156-12-27**]  04:35 AM
                            [**2156-12-28**]  11:29 AM
                            [**2156-12-30**]  02:31 PM
                            [**2157-1-1**]  07:33 AM
                            [**2157-1-2**]  09:40 AM
                            [**2157-1-4**]  05:56 AM
                            [**2157-1-6**]  02:18 AM
   WBC
   4.9
   8.1
   5.6
   6.5
   5.9
   6.1
   7.5
   Hct
   27.0
   28.9
   26.3
   27.3
   27.7
   25.6
   27.1
   Plt
   [**Telephone/Fax (3) 3960**]33
   336
   310
   322
   Cr
   0.6
   0.5
   0.5
   0.7
   0.6
   0.7
   0.7
   TCO2
   35
   35
   Glucose
   109
   107
   97
   115
   113
   114
   107
   138
   Other labs: PT / PTT / INR:21.0/91.1/2.0, CK / CKMB /
   Troponin-T:109//<0.01, ALT / AST:38/32, Alk Phos / T Bili:66/0.2,
   Amylase / Lipase:30/31, Lactic Acid:1.6 mmol/L, Albumin:3.6 g/dL,
   LDH:209 IU/L, Ca++:9.1 mg/dL, Mg++:1.7 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   Assessment and Plan: 28 year-old morbidly obese female with hx asthma,
   h/o of DVT/PE, recent admission to ICU for hypercarbic resp failure,
   here after leaving AMA from [**Hospital1 **] with her usual CP, recent fevers,
   and recent documentation of bacteremia, continues to refuse medical
   treatments periodically, including monitoring, antibiotics, blood
   draws, and coumadin doses.
   .
   #1 Psych: history of axis I and axis II disorders. Psych consult and
   assistance with management appreciated.  As patient has physically
   harmed medical team members and continues to refuse necessary medical
   treatments (IV access, antibiotics) there will be a low threshold to
   use restraints and give Droperidol and Ativan for acute agitation if
   needed.  Patient is allowed to request these medications if she feels
   she needs them.  Patient intermittently refuses abilify.  Per
   discussion in the team meeting this afternoon, 24-hour security guard
   will be discontinued as she has demonstrated better behavioral control
   over the last several days.
   Plan to deal with [**Known firstname 3971**]
s acute agitation:
   - give her a 20 minute cool-off for initial agitation (do not try to
   reason through things, only makes her more agitated), return after 20
   minutes to discuss care
   - encourage distraction techniques (tv, music)
   - Acute agitation: droperidol 1.25mg IV (can give 2.5 mg if extremely
   agitated) or ativan 0.5 - 1 mg IV
   - MUST wear bipap if ANY sedating meds given
   - hospital security observation
   - Daily f/u psych recommendations for change in plan
   - Guardianship paperwork in the hands of the legal department; at this
   point we are legally allowed to provide care against her will only in
   an emergency situation. Otherwise give care as medically indicated and
   patient can refuse if she chooses.  Per legal, guardianship process is
   underway.
   - EKG & electrolytes if receives Geodon or droperidol
   #2 Positive blood cultures: documentation from Shattock shows staph
   simulans and enterococcus.  The enterococcus is resistant to vanc.  The
   two bacteria together are only both sensitive to linezolid and
   rifampin.  Two blood cultures here are sensitive to vancomycin.   TEE
   Echo showed no endocarditis or valvular vegetations.   Nidus of
   infection is unclear.  CXR w/no infiltrate.  Urine culture negative.
   RUE U/S showing partially occluded thrombus in cephalic vein, possible
   nidus of infection.  LUE ultrasound shows no DVT.  Dental panorex
   negative for abscess.  Patient did take linezolid yesterday.
   - Last day of Linezolid  [**1-6**] for a total of a 2 week course of
   treatment for bacteremia.  Although patient has been intermittently
   taking Linezolid, treatment stopped on [**2157-1-6**] as further blood
   cultures have been negative and she has been afebrile.
   - will only draw surveillance cultures if febrile or otherwise
   medically declining
   .
   #3 sleep apnea: has history of somnolence from hypercarbia and
   subsequent intubation when she does not use her BiPAP.  This was likely
   the case on her first intubation during her prior admission, however,
   subsequent intubations were with blood gases that were within the range
   of normal for her.  The patient has refused to use BiPAP and
   supplemental oxygen by nasal canula for the past week and when she
   wears the monitor (which she also refuses at times) O2 sat is usually
   >88% when she is sleeping on room air.  From a medical standpoint, the
   patient would benefit from wearing her BiPAP, but has clearly
   demonstrated that she is in no imminent danger when not wearing it.
   The change in her psychiatric medications with less sedating
   medications have likely helped in this regard.  Her most recent
unresponsive
 episodes appear to be psychogenic and not true medical
   emergencies (O2 sat in mid 90s).
   - When patient has an
unresponsive
 episode while sleeping, check O2
   sat, if > 88%, no indication for intubation.
   - pt should wear BiPAP after receiving sedating medications.
   .
   # Finger subluxation: Has repeatedly subluxed her R ring finger when
   attempting to push herself up from bed or off the bedpan.  Most recent
   episode [**1-6**].  Plastics consulted multiple times and finger xrays
   performed.  Per plastics, the finger is not truly dislocated.  They
   recommend a special splint for her swan neck deformity, however, the
   patient has refused this splint.  Plastics does not feel that a hard
   cast is indicated.
   - tylenol/ibuprofen PRN pain
   - ultram prn pain
   - NO percocet for pain given sedating side effects, patient
s history
   of using these medicines to bargain/manipulate care.
   .
   #Diarrhea: Most likely antibiotic side effect.  Has improved.  C. diff
   negative x 3.  Stool O&P negative x 2.  Now just
loose stool
   - Treating with Immodium
   .
   # Abdominal Pain: Likely secondary to above.  LFTs, amylase, lipase all
   normal yesterday.  Stable.  No need for further evaluation at this
   time.
   .
   # LUE thrombus: superficial; may be nidus for infection
   - anticoagulated with coumadin
   .
   # hx PE ([**Date range (1) 3973**] DVT of R subclavian, brachial veins, and PE Dx at
   Caritas [**Hospital3 **]):
   -          coumadin was increased to 3 mg on [**12-30**].  INR is 2.0  today,
   will continue to give Coumadin at 3mg
   -          stop heparin gtt today.
   .
   # COPD/asthma:
   - nebs/inhalers as needed
   .
   # Left shoulder pain: Patient complained of left shoulder pain.
   Unclear if this was an attempt to get attention or is real. Patient has
   full ROM of shoulder. Unnecessary to have films at this point.  Motrin
   and outpatient PT. Seems to have resolved as patient is no longer
   complaining.
   .
   # Vaginal yeast infection: miconazole vaginal cream daily x 7 days
   (started [**12-26**])
   .
   # Prophylaxis: Prilosec, heparin/coumadin, bowel regimen held b/c of
   diarrhea
   .
   # FEN: p.o. diet as tolerated
   .
   # Access: PICC line placement by IR on [**12-30**].
   .
   # Code Status: Full
   .
   # Dispo: ICU.  Guardianship in progress.  Team meeting today.  Search
   for psychiatric placement is in process.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-12-30**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2157-01-08 09:54:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Endocarditis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2157-1-7**] 07:42 PM
   c/o palpitation
   -Continued team meetings required for establishment of reasonable plan
   of care in the setting of intersecting issues of psychiatric and
   medical issues
   -coumadin refused, Ativan/Droperidol given
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2157-1-6**] 12:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2157-1-7**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2157-1-8**] 09:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 99 (71 - 103) bpm
   BP: 130/73(88) {128/71(81) - 134/89(96)} mmHg
   RR: 20 (18 - 22) insp/min
   SpO2: 81%
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
                  Total In:
                                                                  1,972 mL
                  PO:
                                                                  1,760 mL
                  TF:
   IVF:
                                                                    212 mL
   Blood products:
   Total out:
                                                                  2,932 mL
                                                                      0 mL
   Urine:
                                                                  2,932 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -960 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 81%
   ABG: ////
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   322 K/uL
   138 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.5 mEq/L
   10 mg/dL
   104 mEq/L
   140 mEq/L
   27.1 %
   7.5 K/uL
        [image002.jpg]
                            [**2156-12-26**]  09:41 PM
                            [**2156-12-26**]  10:00 PM
                            [**2156-12-26**]  11:36 PM
                            [**2156-12-27**]  04:35 AM
                            [**2156-12-28**]  11:29 AM
                            [**2156-12-30**]  02:31 PM
                            [**2157-1-1**]  07:33 AM
                            [**2157-1-2**]  09:40 AM
                            [**2157-1-4**]  05:56 AM
                            [**2157-1-6**]  02:18 AM
   WBC
   4.9
   8.1
   5.6
   6.5
   5.9
   6.1
   7.5
   Hct
   27.0
   28.9
   26.3
   27.3
   27.7
   25.6
   27.1
   Plt
   [**Telephone/Fax (3) 3960**]33
   336
   310
   322
   Cr
   0.6
   0.5
   0.5
   0.7
   0.6
   0.7
   0.7
   TCO2
   35
   35
   Glucose
   109
   107
   97
   115
   113
   114
   107
   138
   Other labs: PT / PTT / INR:21.0/91.1/2.0, CK / CKMB /
   Troponin-T:109//<0.01, ALT / AST:38/32, Alk Phos / T Bili:66/0.2,
   Amylase / Lipase:30/31, Lactic Acid:1.6 mmol/L, Albumin:3.6 g/dL,
   LDH:209 IU/L, Ca++:9.1 mg/dL, Mg++:1.7 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   28 yo female with recent history of endocarditis and chronic
   ventilatory failure requiring BIPAP support.  Patient with continued
   good stability of oxygenation and blood pressure in the setting of
   chronic BIPAP use and treatment for endocarditis.  Patient has
   continued behaviors interfering with medical care such as refusal of
   coumadin dosing
   Respiratory Failure-
   -BIPAP with any period of sleep
   DVT/PE-
   -Comadin to continue, Heparin stopped
   -INR intermittently
   Endocarditis-
   -Continue with Linezolid--through [**1-6**] and completed now with two week
   course in the setting of TEE negative for vegitation
   -Follow up cultures for any fevers
   Psychiatric Disease
   -Continue wtih plan of care aimed at stability and limit setting
   -Abilify
   -Doperidol/Ativan PRN
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
 IMPAIRED SKIN INTEGRITY
 FUNGAL INFECTION, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 INEFFECTIVE COPING
 .H/O PULMONARY EMBOLISM (PE), ACUTE
 .H/O BACTEREMIA
 CHEST PAIN
 OBSTRUCTIVE SLEEP APNEA (OSA)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-12-30**] 04:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2157-01-09 05:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Subluxed fingers and PT reduced them, put her hand in a splint
   No ativan upon request unless patient wears bipap and O2 monitor
   No droperidol upon request unless EKG first
   (QTc>450 is contraindication in females.
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Antibiotics:
   None
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Complains of abdominal pain, diffuse pruritis
   Flowsheet Data as of  [**2157-1-9**] 05:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (99
   HR: 100 (100 - 100) bpm
   BP: 127/66(28) {98/59(28) - 133/75(88)} mmHg
   RR: 28 (28 - 28) insp/min
   SpO2: 96%
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
                  Total In:
                                                                  1,200 mL
                                                                    600 mL
   PO:
                                                                  1,200 mL
                                                                    600 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    600 mL
                                                                    700 mL
   Urine:
                                                                    600 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    600 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   Physical Exam:
   General Appearance: Overweight / Obese, NAD. Sleepy but easily wakened
   Head, Ears, Nose, Throat: NCAT
   Cardiovascular: Distant heart sounds, RRR, no audible murmur
   Respiratory / Chest: lungs cta b/l
   Abdominal: Soft, Bowel sounds present, slight TTP diffusely
   Extremities: R picc insertion site CDI.
   Skin:  warm, dry, no rashes noted
   Neurologic: moves all extremities
   Labs / Radiology
   311 K/uL
   8.3 g/dL
   104 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.8 mEq/L
   13 mg/dL
   103 mEq/L
   139 mEq/L
   26.3 %
   7.1 K/uL
         [image002.jpg]
                            [**2156-12-26**]  10:00 PM
                            [**2156-12-26**]  11:36 PM
                            [**2156-12-27**]  04:35 AM
                            [**2156-12-28**]  11:29 AM
                            [**2156-12-30**]  02:31 PM
                            [**2157-1-1**]  07:33 AM
                            [**2157-1-2**]  09:40 AM
                            [**2157-1-4**]  05:56 AM
                            [**2157-1-6**]  02:18 AM
                            [**2157-1-9**]  01:56 AM
   WBC
   4.9
   8.1
   5.6
   6.5
   5.9
   6.1
   7.5
   7.1
   Hct
   27.0
   28.9
   26.3
   27.3
   27.7
   25.6
   27.1
   26.3
   Plt
   [**Telephone/Fax (3) 3960**]33
   [**Telephone/Fax (2) 4014**]11
   Cr
   0.6
   0.5
   0.5
   0.7
   0.6
   0.7
   0.7
   0.6
   TCO2
   35
   Glucose
   109
   107
   97
   115
   113
   114
   107
   138
   104
   Other labs:
   PT / PTT / INR:21.2/27.4/2.0,
   Ca++:9.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Blood Cx:
 bottles from [**12-23**] and [**12-22**] w/coag negative staph.
   bottles from both of those dates, as well as screening Cx from [**12-26**],
   [**12-28**], [**12-30**], [**1-1**] all negative. CDiff and stool O&P negative.
   Assessment and Plan
   Assessment and Plan: 28 year-old morbidly obese female with hx asthma,
   h/o of DVT/PE, recent admission to ICU for hypercarbic resp failure,
   here after leaving AMA from [**Hospital1 **] with her usual CP, recent fevers,
   and recent documentation of bacteremia, continues to refuse medical
   treatments periodically, including monitoring, antibiotics, blood
   draws, and coumadin doses.
   .
   #1 Psych: history of axis I and axis II disorders. Psych consult and
   assistance with management appreciated.  As patient has physically
   harmed medical team members and continues to refuse necessary medical
   treatments (IV access, antibiotics) there will be a low threshold to
   use restraints and give Droperidol and Ativan for acute agitation if
   needed.  Patient is allowed to request these medications if she feels
   she needs them but must comply w/EKG prior to Droperidol and O2
   monitor/Bipap prior to Ativan.  Per discussion in the team meeting on
   [**1-7**]-hour security guard was discontinued as she has demonstrated
   better behavioral control over the last several days.
   Plan to deal with [**Known firstname 3971**]
s acute agitation:
   - give her a 20 minute cool-off for initial agitation (do not try to
   reason through things, only makes her more agitated), return after 20
   minutes to discuss care
   - encourage distraction techniques (tv, music)
   - Acute agitation: droperidol 1.25mg IV (can give 2.5 mg if extremely
   agitated) or ativan 0.5 - 1 mg IV
   - MUST wear bipap if ANY sedating meds given
   - hospital security observation as needed
   - Daily f/u psych recommendations for change in plan
   - Guardianship paperwork in the hands of the legal department; at this
   point we are legally allowed to provide care against her will only in
   an emergency situation. Otherwise give care as medically indicated and
   patient can refuse if she chooses.  Per legal, guardianship process is
   underway.
   - EKG & electrolytes if receives Geodon or droperidol
   .
   # sleep apnea: Has history of somnolence from hypercarbia and
   subsequent intubation when she does not use her BiPAP.  This was likely
   the case on her first intubation during her prior admission, however,
   subsequent intubations were with blood gases that were within the range
   of normal for her.  The patient has refused to use BiPAP and
   supplemental oxygen by nasal canula for the past week and when she
   wears the monitor (which she also refuses at times) O2 sat is usually
   >88% when she is sleeping on room air.  She does occasionally desat to
   the 70s or 60s ([**First Name9 (NamePattern2) 4004**] [**Location (un) **] is sometimes poor), but recovers
   spontaneously.  From a medical standpoint, the patient would benefit
   from wearing her BiPAP, but has clearly demonstrated that she is in no
   imminent danger when not wearing it and she consistently refuses to
   wear it.  The change in her psychiatric medications with less sedating
   medications have likely helped in this regard.  Her most recent
unresponsive
 episodes appear to be psychogenic and not true medical
   emergencies (O2 sat in mid 90s).
   - When patient has an
unresponsive
 episode while sleeping, check O2
   sat, if > 88%, no indication for intubation.
   - pt should wear BiPAP after receiving sedating medications.
   .
   # Finger subluxation: Has repeatedly subluxed her R ring finger when
   attempting to push herself up from bed or off the bedpan.  Most recent
   episode [**1-8**].  Plastics consulted multiple times and finger xrays
   performed.  Per plastics, the finger is not truly dislocated.  They
   recommend a special splint for her swan neck deformity, however, the
   patient has refused this splint.  Plastics does not feel that a hard
   cast is indicated.  Reduction can be performed at bedside by medical
   team. Last night PT reduced finger and provided a hard splint.
   - tylenol/ibuprofen PRN pain
   - ultram prn pain
   - NO percocet for pain given sedating side effects, patient
s history
   of using these medicines to bargain/manipulate care.
   .
   # Hx of positive blood cultures: Now w/2 weeks of negative BCx and
   patient just finished course of treatment with linezolid (though
   intermittently compliant) on [**1-6**].  Patient has been afebrile
   throughout her entire treatment course.  Documentation from Shattock
   showed staph simulans and enterococcus.  The enterococcus was resistant
   to vanc.  The two bacteria together are only both sensitive to
   linezolid and rifampin.  Two blood cultures here are sensitive to
   vancomycin.   TEE Echo showed no endocarditis or valvular
   vegetations.   Nidus of infection was unclear.  CXR w/no infiltrate.
   Urine culture negative.  RUE U/S showing partially occluded thrombus in
   cephalic vein, possible nidus of infection.  LUE ultrasound shows no
   DVT.  Dental panorex negative for abscess.
   .
   # hx PE ([**Date range (1) 3973**] DVT of R subclavian, brachial veins, and PE Dx at
   Caritas [**Hospital3 **]):
   - coumadin was increased to 3 mg on [**12-30**].  INR is therapeutic, will
   continue to give Coumadin at 3mg and monitor.
   .
   # COPD/asthma:
   - nebs/inhalers as needed
   .
   Other complaints [**Known firstname 3971**] has had intermittently during her hospital stay:
   .
   #Diarrhea: Most likely antibiotic side effect.  Has improved.  C. diff
   negative x 3.  Stool O&P negative x 2.  Now just
loose stool
   - Treating with Immodium
   - Bowel regimen only prn.
   .
   # Abdominal Pain: Likely secondary to above.  LFTs, amylase, lipase all
   normal. UA normal.  Stable.  No need for further evaluation at this
   time.
   .
   #
Chilliness
: Patient complains of being cold in her room x 5 days
   despite the heat being turned up.  TSH was 2.2 on [**2156-12-9**].
   .
   # LUE thrombus: superficial; may be nidus for infection
   - anticoagulated with coumadin
   .
   # Left shoulder pain: Patient complained of left shoulder pain.
   Unclear if this was an attempt to get attention or is real. Patient has
   full ROM of shoulder. Unnecessary to have films at this point.  Motrin
   and outpatient PT. Seems to have resolved as patient is no longer
   complaining.
   .
   #Pruritis: could be due to increase frequency of bathing leading to dry
   skin. No rashes noted. No new meds to explain pruritis.
   -Sarna TID
   -Attarax x1 dose
   -Avoiding benadryl b/c of potential sedating effects. Would say patient
   should be monitored by O2 sat monitor if she gets benadryl.
   .
   # Vaginal yeast infection: miconazole vaginal cream daily x 7 days
   (started [**12-26**])
   .
   # Prophylaxis: Prilosec, heparin/coumadin, bowel regimen held b/c of
   diarrhea
   .
   # FEN: p.o. diet as tolerated
   .
   # Access: PICC line placement by IR on [**12-30**].
   .
   # Code Status: Full
   .
   # Dispo: ICU.  Guardianship in progress.  Search for psychiatric
   placement is in process.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-12-30**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2157-01-09 11:08:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   DVT/PE
   Behavioral Disturbanc
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No acute events overnight
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2157-1-9**] 10:08 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2157-1-9**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37
C (98.6
   HR: 86 (86 - 100) bpm
   BP: 121/56(71) {98/56(28) - 133/75(88)} mmHg
   RR: 26 (26 - 28) insp/min
   SpO2: 96%
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
                  Total In:
                                                                  1,200 mL
                                                                    600 mL
   PO:
                                                                  1,200 mL
                                                                    600 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    600 mL
                                                                    700 mL
   Urine:
                                                                    600 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    600 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   311 K/uL
   104 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.8 mEq/L
   13 mg/dL
   103 mEq/L
   139 mEq/L
   26.3 %
   7.1 K/uL
        [image002.jpg]
                            [**2156-12-26**]  10:00 PM
                            [**2156-12-26**]  11:36 PM
                            [**2156-12-27**]  04:35 AM
                            [**2156-12-28**]  11:29 AM
                            [**2156-12-30**]  02:31 PM
                            [**2157-1-1**]  07:33 AM
                            [**2157-1-2**]  09:40 AM
                            [**2157-1-4**]  05:56 AM
                            [**2157-1-6**]  02:18 AM
                            [**2157-1-9**]  01:56 AM
   WBC
   4.9
   8.1
   5.6
   6.5
   5.9
   6.1
   7.5
   7.1
   Hct
   27.0
   28.9
   26.3
   27.3
   27.7
   25.6
   27.1
   26.3
   Plt
   [**Telephone/Fax (3) 3960**]33
   [**Telephone/Fax (2) 4014**]11
   Cr
   0.6
   0.5
   0.5
   0.7
   0.6
   0.7
   0.7
   0.6
   TCO2
   35
   Glucose
   109
   107
   97
   115
   113
   114
   107
   138
   104
   Other labs: PT / PTT / INR:21.2/27.4/2.0, CK / CKMB /
   Troponin-T:109//<0.01, ALT / AST:38/32, Alk Phos / T Bili:66/0.2,
   Amylase / Lipase:30/31, Lactic Acid:1.6 mmol/L, Albumin:3.6 g/dL,
   LDH:209 IU/L, Ca++:9.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   28 yo female with significant behavoiral issues now with prolonged ICU
   stay with intermittent need for ventilatory support with BIPAP and long
   term anti-coagulation with Coumadin for known DVT/PE and endocarditis
   now treated with very reassuring TEE showing absence of vegitation.
   Her medical management has been maintenance of chronic levels of
   support for non-invasive ventilatory support.
   1)Respiratory Failure-Chronic and related to obestity and sleep related
   hypoventilation
   -BIPAP with any period of sleep
   2)DVT/PE-
   -Continue Coumadin
   3)Endocarditis-
   -Completed course of Linezolid for known pathogens
   4)Beharioral Disorder-
   -Appreciate psychiatry input and guidance in management
   -Major issue is pursuit of long term appropriate faility to allow
   optimal treatment of psychitatric disease in the setting of chronic
   medical disease which has been stably responsive to treatment
   Additional issues to be managed as described in the housestaff note of
   this date.
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
 IMPAIRED SKIN INTEGRITY
 FUNGAL INFECTION, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 INEFFECTIVE COPING
 .H/O PULMONARY EMBOLISM (PE), ACUTE
 .H/O BACTEREMIA
 CHEST PAIN
 OBSTRUCTIVE SLEEP APNEA (OSA)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-12-30**] 04:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2157-01-10 06:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - floconazole started for vaginal yeast infection
   - continues to complain of diffuse abd pain, worst LUQ
   - security called once yesterday for agitation
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Antibiotics:
   None
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2157-1-9**] 10:08 AM
   Coumadin (Warfarin) - [**2157-1-9**] 05:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Abdominal pain
   Flowsheet Data as of  [**2157-1-10**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 88 (86 - 98) bpm
   BP: 108/44(58) {106/44(58) - 128/85(95)} mmHg
   RR: 24 (24 - 26) insp/min
   SpO2: 94%
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
                  Total In:
                                                                  2,660 mL
                  PO:
                                                                  2,660 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    200 mL
   Urine:
                                                                  1,900 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    760 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   Physical Examination
   General Appearance: Overweight / Obese, NAD. Sleepy but easily wakened
   Head, Ears, Nose, Throat: NCAT, MMM
   Cardiovascular: Distant heart sounds, RRR, no audible murmur
   Respiratory / Chest: lungs cta b/l
   Abdominal: Soft, Bowel sounds present, slight TTP diffusely
   Extremities: R picc insertion site CDI.
   Skin:  warm, dry, no rashes noted
   Neurologic: moves all extremities
   Labs / Radiology
   100 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.9 mEq/L
   11 mg/dL
   106 mEq/L
   140 mEq/L
        [image002.jpg]
                            [**2156-12-26**]  11:36 PM
                            [**2156-12-27**]  04:35 AM
                            [**2156-12-28**]  11:29 AM
                            [**2156-12-30**]  02:31 PM
                            [**2157-1-1**]  07:33 AM
                            [**2157-1-2**]  09:40 AM
                            [**2157-1-4**]  05:56 AM
                            [**2157-1-6**]  02:18 AM
                            [**2157-1-9**]  01:56 AM
                             [**2157-1-10**]  04:18 AM
   WBC
   4.9
   8.1
   5.6
   6.5
   5.9
   6.1
   7.5
   7.1
   Hct
   27.0
   28.9
   26.3
   27.3
   27.7
   25.6
   27.1
   26.3
   Plt
   [**Telephone/Fax (3) 3960**]33
   [**Telephone/Fax (2) 4014**]11
   Cr
   0.6
   0.5
   0.5
   0.7
   0.6
   0.7
   0.7
   0.6
   0.6
   TCO2
   35
   Glucose
   107
   97
   115
   113
   114
   107
   138
   104
   100
   Other labs:
   PT / PTT / INR:19.7/27.8/1.8
   Assessment and Plan
   Assessment and Plan: 28 year-old morbidly obese female with hx asthma,
   h/o of DVT/PE, recent admission to ICU for hypercarbic resp failure,
   here after leaving AMA from [**Hospital1 **] with her usual CP, recent fevers,
   and recent documentation of bacteremia, continues to refuse medical
   treatments periodically, including monitoring, antibiotics, blood
   draws, and coumadin doses.
   .
   #1 Psych: history of axis I and axis II disorders. Psych consult and
   assistance with management appreciated.  As patient has physically
   harmed medical team members and continues to refuse necessary medical
   treatments (IV access, antibiotics) there will be a low threshold to
   use restraints and give Droperidol and Ativan for acute agitation if
   needed.  Patient is allowed to request these medications if she feels
   she needs them but must comply w/EKG prior to Droperidol and O2
   monitor/Bipap prior to Ativan.  Per discussion in the team meeting on
   [**1-7**]-hour security guard was discontinued as she has demonstrated
   better behavioral control over the last several days.
   Plan to deal with [**Known firstname 3971**]
s acute agitation:
   - give her a 20 minute cool-off for initial agitation (do not try to
   reason through things, only makes her more agitated), return after 20
   minutes to discuss care
   - encourage distraction techniques (tv, music)
   - Acute agitation: droperidol 1.25mg IV (can give 2.5 mg if extremely
   agitated) or ativan 0.5 - 1 mg IV
   - MUST wear bipap if ANY sedating meds given
   - hospital security observation as needed
   - Daily f/u psych recommendations for change in plan
   - Guardianship paperwork in the hands of the legal department; at this
   point we are legally allowed to provide care against her will only in
   an emergency situation. Otherwise give care as medically indicated and
   patient can refuse if she chooses.  Per legal, guardianship process is
   underway.
   - EKG & electrolytes if receives Geodon or droperidol
   .
   # sleep apnea w/insomnia and refusal to wear BiPAP: Has history of
   somnolence from hypercarbia and subsequent intubation when she does not
   use her BiPAP.  This was likely the case on her first intubation during
   her prior admission, however, subsequent intubations were with blood
   gases that were within the range of normal for her.  The patient has
   refused to use BiPAP and supplemental oxygen by nasal canula for the
   past 2 weeks and when she wears the monitor (which she also refuses
   usually) O2 sat is usually >88% when she is sleeping on room air.  She
   does occasionally desat to the 70s or 60s ([**First Name9 (NamePattern2) 4004**] [**Location (un) **] is sometimes
   poor), but recovers spontaneously.  From a medical standpoint, the
   patient would benefit from wearing her BiPAP, but has clearly
   demonstrated that she is in no imminent danger when not wearing it and
   she consistently refuses to wear it.  The change in her psychiatric
   medications with less sedating medications have likely helped in this
   regard.  Her most recent
unresponsive
 episodes appear to be
   psychogenic and not true medical emergencies (O2 sat in mid 90s).   Now
   c/o HA that could be related to not wearing bipap.
   - encourage bipap nightly
   - encourage O2 sat monitoring nightly
   - no Ambien as we want to reserve the possibility of using Ativan in
   emergency situations and do not want to mix sedating meds.
   - Ativan 0.5mg prn QHS for insomnia ONLY if patient agrees to Bipap, O2
   sat monitoring
   - When patient has an
unresponsive
 episode while sleeping, check O2
   sat, if > 88%, no indication for intubation.
   - pt should wear BiPAP after receiving sedating medications
   - to consider repeat sleep study
   .
   # hx PE ([**Date range (1) 3973**] DVT of R subclavian, brachial veins, and PE Dx at
   Caritas [**Hospital3 **]):
   - coumadin was increased to 4 mg today b/c INR was subtherapeutic
   today.
   - Follow PT/INR daily
   .
   # Hx of positive blood cultures: Now w/2 weeks of negative BCx and
   patient just finished course of treatment with linezolid (though
   intermittently compliant) on [**1-6**].  Patient has been afebrile
   throughout her entire treatment course.  Documentation from Shattock
   showed staph simulans and enterococcus.  The enterococcus was resistant
   to vanc.  The two bacteria together are only both sensitive to
   linezolid and rifampin.  Two blood cultures here are sensitive to
   vancomycin.   TEE Echo showed no endocarditis or valvular
   vegetations.   Nidus of infection was unclear.  CXR w/no infiltrate.
   Urine culture negative.  RUE U/S showing partially occluded thrombus in
   cephalic vein, possible nidus of infection.  LUE ultrasound shows no
   DVT.  Dental panorex negative for abscess.
   .
   # COPD/asthma:
   - nebs/inhalers as needed
   .
   # HA: could be related to not wearing BiPap, poor sleep cycle.
   - Encourage bipap
   - Tylenol, motrin, utram prn
   .
   # Abdominal pain: LFTs, amylase, lipase normal. UA normal. Afebrile.
   Likely due to poor diet.
   - Encourage healthy diet (less hot dogs)
   .
   Other complaints [**Known firstname 3971**] has had intermittently during her hospital stay:
   .
   # Finger subluxation: Has repeatedly subluxed her R ring finger when
   attempting to push herself up from bed or off the bedpan.  Most recent
   episode [**1-8**].  Plastics consulted multiple times and finger xrays
   performed.  Per plastics, the finger is not truly dislocated and does
   not require emergent/urgent reduction if happens in the middle of the
   night.  They recommend a special splint for her swan neck deformity,
   however, the patient has refused this splint in the past.  A few nights
   ago, PT reduced finger and provided a hard splint (unclear if this is
   the same one plastics recommended) although patient does not wear it.
   Reduction can be performed at bedside by medical team.  Note that
   plastic surgery does not feel that a hard cast is indicated, although
   she will often ask for one.
   - tylenol/ibuprofen PRN pain
   - ultram prn pain
   - NO percocet for pain given sedating side effects, patient
s history
   of using these medicines to bargain/manipulate care.
   - outpatient orthopedic correction of ligamentous injury/congenital
   defect (patient asks about surgery while inpatient at [**Hospital1 19**] and has
   been reminded several times that this is not something she needs to
   have done while she is in the hospital now).
   .
   #Diarrhea: Most likely antibiotic side effect.  Has improved.  C. diff
   negative x 3.  Stool O&P negative x 2.  Now just
loose stool
   - Treating with Immodium
   - Bowel regimen only prn.
   .
   # Polydypsia/polyuria: blood glucose normal. Patient with high PO fluid
   intake. No need to eval further
   .
   # Hormone
irregularities
 including hot flashes. [**Known firstname 3971**] has been
   advised that she should f/u with an endocrinologist outpatient.
   .
   #
Chilliness
: Patient complains of being cold in her room x 5 days
   despite the heat being turned up.  TSH was 2.2 on [**2156-12-9**].
   .
   # LUE thrombus: superficial; may be nidus for infection
   - anticoagulated with coumadin
   .
   # Left shoulder pain: Patient complained of left shoulder pain.
   Unclear if this was an attempt to get attention or is real. Patient has
   full ROM of shoulder. Unnecessary to have films at this point.  Motrin
   and outpatient PT. Seems to have resolved as patient is no longer
   complaining.
   .
   #Pruritis: could be due to increase frequency of bathing leading to dry
   skin. No rashes noted. No new meds to explain pruritis.
   -Sarna TID
   -Attarax x1 dose
   -Avoiding benadryl b/c of potential sedating effects. Would say patient
   should be monitored by O2 sat monitor if she gets benadryl.
   .
   # Vaginal yeast infection: miconazole vaginal cream daily x 7 days
   (started [**12-26**])
   .
   # Restless leg syndrome: was on Requip, now changing to Gabapentin
   100mg QHS.
   .
   # Prophylaxis: Prilosec, heparin/coumadin, bowel regimen held b/c of
   diarrhea
   .
   # FEN: p.o. diet as tolerated
   .
   # Access: PICC line placement by IR on [**12-30**].
   .
   # Code Status: Full
   .
   # Dispo: ICU.  Guardianship in progress.  Search for psychiatric
   placement is in process.   To consider call-out to the floor tomorrow
   when Dr [**Last Name (STitle) 3573**] is in house.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-12-30**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2157-01-10 11:53:00 Physician Attending Progress Note
Chief Complaint: agitation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   28 yo women with obesity hypoventilation syndrome, severe borderline
   personality disorder.
   24 Hour Events:
   Patient has been relatively calm over the weekend.  Has not had sitter
   and has not acted up.
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2157-1-9**] 05:26 PM
   Other medications:
   prilosec
   coumadin
   abilify
   requip
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-1-10**] 11:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.3
   HR: 90 (88 - 98) bpm
   BP: 102/50(63) {102/44(58) - 128/85(95)} mmHg
   RR: 22 (22 - 26) insp/min
   SpO2: 95%
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
                  Total In:
                                                                  2,660 mL
                                                                    120 mL
   PO:
                                                                  2,660 mL
                                                                    120 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    450 mL
   Urine:
                                                                  1,900 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    760 mL
                                                                   -330 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   311 K/uL
   100 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.9 mEq/L
   11 mg/dL
   106 mEq/L
   140 mEq/L
   26.3 %
   7.1 K/uL
        [image002.jpg]
                            [**2156-12-26**]  11:36 PM
                            [**2156-12-27**]  04:35 AM
                            [**2156-12-28**]  11:29 AM
                            [**2156-12-30**]  02:31 PM
                            [**2157-1-1**]  07:33 AM
                            [**2157-1-2**]  09:40 AM
                            [**2157-1-4**]  05:56 AM
                            [**2157-1-6**]  02:18 AM
                            [**2157-1-9**]  01:56 AM
                             [**2157-1-10**]  04:18 AM
   WBC
   4.9
   8.1
   5.6
   6.5
   5.9
   6.1
   7.5
   7.1
   Hct
   27.0
   28.9
   26.3
   27.3
   27.7
   25.6
   27.1
   26.3
   Plt
   [**Telephone/Fax (3) 3960**]33
   [**Telephone/Fax (2) 4014**]11
   Cr
   0.6
   0.5
   0.5
   0.7
   0.6
   0.7
   0.7
   0.6
   0.6
   TCO2
   35
   Glucose
   107
   97
   115
   113
   114
   107
   138
   104
   100
   Other labs: PT / PTT / INR:19.7/27.8/1.8, CK / CKMB /
   Troponin-T:109//<0.01, ALT / AST:38/32, Alk Phos / T Bili:66/0.2,
   Amylase / Lipase:30/31, Lactic Acid:1.6 mmol/L, Albumin:3.6 g/dL,
   LDH:209 IU/L, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS):  Severe borderline personality disorder
 .H/O PULMONARY EMBOLISM (PE), ACUTE:  Increase coumadin dose
 .H/O BACTEREMIA:  Has completed linezolid
 OBSTRUCTIVE SLEEP APNEA (OSA):  Not wearing CPAP
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-12-30**] 04:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 15 minutes

2157-01-11 05:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2157-1-10**] 10:20 PM
   coinciding with droperidol dosing
     * escalated over team refusing to stitch lip laceration -> ended in
       4-point restraints, received droperidol
     * While being put in restraints, patient screamed and spit at
       employees, injured lip further and again requested that we examine
       it. Plan was for attending to evaluate lip and determine whether
       sutures were required, but he was busy with other patients until
       the morning
     * ropinarole d/c -> Neurontin 100mg QHS
     * SW note says DMH meeting on [**1-14**]
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   None
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-1-11**] 05:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37
C (98.6
   HR: 97 (90 - 125) bpm
   BP: 124/61(76) {102/50(63) - 157/86(92)} mmHg
   RR: 20 (18 - 32) insp/min
   SpO2: 93% ( 80-100), 80-88% 2-4am off bipap
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
                  Total In:
                                                                    120 mL
                  PO:
                                                                    120 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    900 mL
                                                                      0 mL
   Urine:
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -780 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   Physical Examination
   General Appearance: Overweight / Obese, NAD. Sleepy but easily wakened
   Head, Ears, Nose, Throat: NCAT, MMM, small 3mm non-bleeding lesion on
   interior lower lip already closed,
   Cardiovascular: Distant heart sounds, RRR, no audible murmur
   Respiratory / Chest: lungs cta b/l
   Abdominal: Soft, Bowel sounds present, slight TTP diffusely
   Extremities: R picc insertion site CDI.
   Skin:  warm, dry, no rashes noted
   Neurologic: moves all extremities
   Labs / Radiology
   311 K/uL
   8.3 g/dL
   100 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.9 mEq/L
   11 mg/dL
   106 mEq/L
   140 mEq/L
   26.3 %
   7.1 K/uL
        [image002.jpg]
   No [**1-11**] labs
   Last + blood cult on [**12-23**], coag neg staph
   [**1-4**] Blood NG
   [**1-1**] cdiff neg
                            [**2156-12-26**]  11:36 PM
                            [**2156-12-27**]  04:35 AM
                            [**2156-12-28**]  11:29 AM
                            [**2156-12-30**]  02:31 PM
                            [**2157-1-1**]  07:33 AM
                            [**2157-1-2**]  09:40 AM
                            [**2157-1-4**]  05:56 AM
                            [**2157-1-6**]  02:18 AM
                            [**2157-1-9**]  01:56 AM
                             [**2157-1-10**]  04:18 AM
   WBC
   4.9
   8.1
   5.6
   6.5
   5.9
   6.1
   7.5
   7.1
   Hct
   27.0
   28.9
   26.3
   27.3
   27.7
   25.6
   27.1
   26.3
   Plt
   [**Telephone/Fax (3) 3960**]33
   [**Telephone/Fax (2) 4014**]11
   Cr
   0.6
   0.5
   0.5
   0.7
   0.6
   0.7
   0.7
   0.6
   0.6
   TCO2
   35
   Glucose
   107
   97
   115
   113
   114
   107
   138
   104
   100
   Other labs: PT / PTT / INR:19.7/27.8/1.8, CK / CKMB /
   Troponin-T:109//<0.01, ALT / AST:38/32, Alk Phos / T Bili:66/0.2,
   Amylase / Lipase:30/31, Lactic Acid:1.6 mmol/L, Albumin:3.6 g/dL,
   LDH:209 IU/L, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   Assessment and Plan: 28 year-old morbidly obese female with hx asthma,
   h/o of DVT/PE, recent admission to ICU for hypercarbic resp failure,
   here after leaving AMA from [**Hospital1 **] with her usual CP, recent fevers,
   and recent documentation of bacteremia, continues to refuse medical
   treatments periodically, including monitoring, antibiotics, blood
   draws, and coumadin doses.
   .
   #1 Psych: history of axis I and axis II disorders. Psych consult and
   assistance with management appreciated.  As patient has physically
   harmed medical team members and continues to refuse necessary medical
   treatments (IV access, antibiotics) there will be a low threshold to
   use restraints and give Droperidol and Ativan for acute agitation if
   needed.  Patient is allowed to request these medications if she feels
   she needs them but must comply w/EKG prior to Droperidol and O2
   monitor/Bipap prior to Ativan.  Per discussion in the team meeting on
   [**1-7**]-hour security guard was discontinued as she has demonstrated
   better behavioral control over the last several days.   12/1-2
   overnight put in 4 pt restrains after spits after pt upset we did not
   feel mouth lesion required sutures.
   Plan to deal with [**Known firstname 3971**]
s acute agitation:
   - give her a 20 minute cool-off for initial agitation (do not try to
   reason through things, only makes her more agitated), return after 20
   minutes to discuss care
   - encourage distraction techniques (tv, music)
   - Acute agitation: droperidol 1.25mg IV (can give 2.5 mg if extremely
   agitated) or ativan 0.5 - 1 mg IV
   - MUST wear bipap if ANY sedating meds given
   - hospital security observation as needed
   - Daily f/u psych recommendations for change in plan
   - Guardianship paperwork in the hands of the legal department; at this
   point we are legally allowed to provide care against her will only in
   an emergency situation. Otherwise give care as medically indicated and
   patient can refuse if she chooses.  Per legal, guardianship process is
   underway.
   - EKG & electrolytes if receives Geodon or droperidol
   .
   # sleep apnea w/insomnia and refusal to wear BiPAP: Has history of
   somnolence from hypercarbia and subsequent intubation when she does not
   use her BiPAP.  This was likely the case on her first intubation during
   her prior admission, however, subsequent intubations were with blood
   gases that were within the range of normal for her.  The patient has
   refused to use BiPAP and supplemental oxygen by nasal canula for the
   past 2 weeks and when she wears the monitor (which she also refuses
   usually) O2 sat is usually >88% when she is sleeping on room air.  She
   does occasionally desat to the 70s or 60s ([**First Name9 (NamePattern2) 4004**] [**Location (un) **] is sometimes
   poor), but recovers spontaneously.  From a medical standpoint, the
   patient would benefit from wearing her BiPAP, but has clearly
   demonstrated that she is in no imminent danger when not wearing it and
   she consistently refuses to wear it.  The change in her psychiatric
   medications with less sedating medications have likely helped in this
   regard.  Her most recent
unresponsive
 episodes appear to be
   psychogenic and not true medical emergencies (O2 sat in mid 90s).   Now
   c/o HA that could be related to not wearing bipap.
   - encourage bipap nightly
   - encourage O2 sat monitoring nightly
   - no Ambien as we want to reserve the possibility of using Ativan in
   emergency situations and do not want to mix sedating meds.
   - Ativan 0.5mg prn QHS for insomnia ONLY if patient agrees to Bipap, O2
   sat monitoring
   - When patient has an
unresponsive
 episode while sleeping, check O2
   sat, if > 88%, no indication for intubation.
   - pt should wear BiPAP after receiving sedating medications
   - to consider repeat sleep study
   .
   # hx PE ([**Date range (1) 3973**] DVT of R subclavian, brachial veins, and PE Dx at
   Caritas [**Hospital3 **]):
   - coumadin was increased to 4 mg today b/c INR was subtherapeutic
   today.
   - Follow PT/INR daily
   .
   # Hx of positive blood cultures: Now w/2 weeks of negative BCx and
   patient just finished course of treatment with linezolid (though
   intermittently compliant) on [**1-6**].  Patient has been afebrile
   throughout her entire treatment course.  Documentation from Shattock
   showed staph simulans and enterococcus.  The enterococcus was resistant
   to vanc.  The two bacteria together are only both sensitive to
   linezolid and rifampin.  Two blood cultures here are sensitive to
   vancomycin.   TEE Echo showed no endocarditis or valvular
   vegetations.   Nidus of infection was unclear.  CXR w/no infiltrate.
   Urine culture negative.  RUE U/S showing partially occluded thrombus in
   cephalic vein, possible nidus of infection.  LUE ultrasound shows no
   DVT.  Dental panorex negative for abscess.
   .
   # lip mucosa injury: bit her lip, wound small, superficial, and largely
   closed already. Sutures are not indicated.
   # COPD/asthma:
   - nebs/inhalers as needed
   .
   # HA: could be related to not wearing BiPap, poor sleep cycle.
   - Encourage bipap
   - Tylenol, motrin, utram prn
   .
   # Abdominal pain: LFTs, amylase, lipase normal. UA normal. Afebrile.
   Likely due to poor diet.
   - Encourage healthy diet (less hot dogs)
   .
   Other complaints [**Known firstname 3971**] has had intermittently during her hospital stay:
   .
   # Finger subluxation: Has repeatedly subluxed her R ring finger when
   attempting to push herself up from bed or off the bedpan.  Most recent
   episode [**1-8**].  Plastics consulted multiple times and finger xrays
   performed.  Per plastics, the finger is not truly dislocated and does
   not require emergent/urgent reduction if happens in the middle of the
   night.  They recommend a special splint for her swan neck deformity,
   however, the patient has refused this splint in the past.  A few nights
   ago, PT reduced finger and provided a hard splint (unclear if this is
   the same one plastics recommended) although patient does not wear it.
   Reduction can be performed at bedside by medical team.  Note that
   plastic surgery does not feel that a hard cast is indicated, although
   she will often ask for one.
   - tylenol/ibuprofen PRN pain
   - ultram prn pain
   - NO percocet for pain given sedating side effects, patient
s history
   of using these medicines to bargain/manipulate care.
   - outpatient orthopedic correction of ligamentous injury/congenital
   defect (patient asks about surgery while inpatient at [**Hospital1 19**] and has
   been reminded several times that this is not something she needs to
   have done while she is in the hospital now).
   .
   #Diarrhea: Most likely antibiotic side effect.  Has improved.  C. diff
   negative x 3.  Stool O&P negative x 2.  Now just
loose stool
   - Treating with Immodium
   - Bowel regimen only prn.
   .
   # Polydypsia/polyuria: blood glucose normal. Patient with high PO fluid
   intake. No need to eval further
   .
   # Hormone
irregularities
 including hot flashes. [**Known firstname 3971**] has been
   advised that she should f/u with an endocrinologist outpatient.
   .
   #
Chilliness
: Patient complains of being cold in her room x 5 days
   despite the heat being turned up.  TSH was 2.2 on [**2156-12-9**].
   .
   # LUE thrombus: superficial; may be nidus for infection
   - anticoagulated with coumadin
   .
   # Left shoulder pain: Patient complained of left shoulder pain.
   Unclear if this was an attempt to get attention or is real. Patient has
   full ROM of shoulder. Unnecessary to have films at this point.  Motrin
   and outpatient PT. Seems to have resolved as patient is no longer
   complaining.
   .
   #Pruritis: could be due to increase frequency of bathing leading to dry
   skin. No rashes noted. No new meds to explain pruritis.
   -Sarna TID
   -Attarax prn
   -Avoiding benadryl b/c of potential sedating effects. Would say patient
   should be monitored by O2 sat monitor if she gets benadryl.
   .
   # Vaginal yeast infection: miconazole vaginal cream daily x 7 days
   (started [**12-26**])
   -added floconazole PO [**1-9**]
   .
   # Restless leg syndrome: was on Requip, now changing to Gabapentin
   100mg QHS.
   .
   # Prophylaxis: Prilosec, heparin/coumadin, bowel regimen held b/c of
   diarrhea
   .
   # FEN: p.o. diet as tolerated
   .
   # Access: PICC line placement by IR on [**12-30**].
   .
   # Code Status: Full
   .
   # Dispo: ICU.  Guardianship in progress.  Search for psychiatric
   placement is in process.   Planning call-out to the floor today after
   Dr [**Last Name (STitle) 3573**] sees her. Pt must be willing to give blood sample prior to
   transfer.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-12-30**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2157-01-11 11:10:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   28 yo women with obesity hypoventilation, bacteremia, h/o DVT/PE,
   severe borderline personality disorder.  Patient agitated last night
   after biting her lip.  Required 4 point restraints security.
   24 Hour Events:
 EEG - At [**2157-1-10**] 10:20 PM
   coinciding with droperidol dosing
 CALLED OUT
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2157-1-11**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-1-11**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.8
   HR: 88 (88 - 125) bpm
   BP: 121/57(71) {102/50(63) - 157/86(92)} mmHg
   RR: 20 (18 - 32) insp/min
   SpO2: 96%
   Wgt (current): 178 kg (admission): 178 kg
   Height: 68 Inch
                  Total In:
                                                                    120 mL
                  PO:
                                                                    120 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    900 mL
                                                                      0 mL
   Urine:
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -780 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ////
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   311 K/uL
   100 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.9 mEq/L
   11 mg/dL
   106 mEq/L
   140 mEq/L
   26.3 %
   7.1 K/uL
        [image002.jpg]
                            [**2156-12-26**]  11:36 PM
                            [**2156-12-27**]  04:35 AM
                            [**2156-12-28**]  11:29 AM
                            [**2156-12-30**]  02:31 PM
                            [**2157-1-1**]  07:33 AM
                            [**2157-1-2**]  09:40 AM
                            [**2157-1-4**]  05:56 AM
                            [**2157-1-6**]  02:18 AM
                            [**2157-1-9**]  01:56 AM
                             [**2157-1-10**]  04:18 AM
   WBC
   4.9
   8.1
   5.6
   6.5
   5.9
   6.1
   7.5
   7.1
   Hct
   27.0
   28.9
   26.3
   27.3
   27.7
   25.6
   27.1
   26.3
   Plt
   [**Telephone/Fax (3) 3960**]33
   [**Telephone/Fax (2) 4014**]11
   Cr
   0.6
   0.5
   0.5
   0.7
   0.6
   0.7
   0.7
   0.6
   0.6
   TCO2
   35
   Glucose
   107
   97
   115
   113
   114
   107
   138
   104
   100
   Other labs: PT / PTT / INR:19.7/27.8/1.8, CK / CKMB /
   Troponin-T:109//<0.01, ALT / AST:38/32, Alk Phos / T Bili:66/0.2,
   Amylase / Lipase:30/31, Lactic Acid:1.6 mmol/L, Albumin:3.6 g/dL,
   LDH:209 IU/L, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   Obesity-Hypoventilation:
   DVT/PE:  Will need labs to follow up on INR.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-12-30**] 04:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: